2150-12-14 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2150-12-13**] 09:00 AM
 MULTI LUMEN - START [**2150-12-13**] 09:15 AM
 ARTERIAL LINE - START [**2150-12-13**] 10:15 AM
 BRONCHOSCOPY - At [**2150-12-13**] 08:00 PM
   - EKG no peaked T waves although K 6.1, kayexelate given and
   Cagluconate; repeat EKG q1hour
   - BS 70; [**1-9**] amp D50 given --> 169.  q 30min BS
   - CVP 20, but thought to be fluid low so given 2 L
   - metabolic acidosis d/t sepsis
   - renal consulted.  Asked us to recontact if K increases or volume
   becomes an issue and needs to be emergently dialyzed.
   - contact[**Name (NI) **] ENT about P bleed, was d/t traumatic intubation.  Packed by
   ENT.
   - need to get ICU consent from father when comes in.
   - f/u urine labs: Na, Cr, Urea, osms, eos
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2150-12-14**] 01:12 AM
   Clindamycin - [**2150-12-14**] 05:50 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   Vasopressin - 2.4 units/hour
   Cisatracurium - 0.06 mg/Kg/hour
   Norepinephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-12-13**] 10:25 AM
   Midazolam (Versed) - [**2150-12-13**] 12:35 PM
   Fentanyl - [**2150-12-13**] 12:35 PM
   Dextrose 50% - [**2150-12-13**] 11:23 PM
   Insulin - Regular - [**2150-12-13**] 11:24 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-12-14**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.4
C (97.5
   HR: 86 (77 - 100) bpm
   BP: 142/68(95) {79/38(56) - 142/68(95)} mmHg
   RR: 28 (13 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.7 kg (admission): 91.7 kg
    CVP: 26 (18 - 339)mmHg
   Bladder pressure: 100 (100 - 100) mmHg
   Total In:
                                                                  8,011 mL
                                                                  1,980 mL
   PO:
   TF:
   IVF:
                                                                  4,999 mL
                                                                  1,630 mL
   Blood products:
                                                                  2,727 mL
                                                                    350 mL
   Total out:
                                                                    394 mL
                                                                    240 mL
   Urine:
                                                                    394 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,617 mL
                                                                  1,740 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 27 cmH2O
   Plateau: 21 cmH2O
   Compliance: 43.1 cmH2O/mL
   SpO2: 94%
   ABG: 7.31/31/73.[**Numeric Identifier **]/14/-9
   Ve: 14.4 L/min
   PaO2 / FiO2: 122
   Physical Examination
   General Appearance: General Appearance: Well nourished, No acute
   distress
   Eyes / Conjunctiva: PERRL, Sclera icteric
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness :
   none), (Breath Sounds: Clear : , Crackles : none, Wheezes : none)
   Abdominal: Soft, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Unable to stand
   Skin:  Cool, Jaundice
   Neurologic: Responds to: Unresponsive, Movement: Non -purposeful,
   Sedated, Tone: Normal
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   70 K/uL
   8.8 g/dL
   143 mg/dL
   1.7 mg/dL
   14 mEq/L
   5.4 mEq/L
   28 mg/dL
   100 mEq/L
   127 mEq/L
   25.9 %
   16.7 K/uL
        [image002.jpg]
                             [**2150-12-13**]  09:16 AM
                             [**2150-12-13**]  10:46 AM
                             [**2150-12-13**]  02:23 PM
                             [**2150-12-13**]  03:42 PM
                             [**2150-12-13**]  03:52 PM
                             [**2150-12-13**]  07:05 PM
                             [**2150-12-13**]  10:28 PM
                             [**2150-12-13**]  10:45 PM
                             [**2150-12-14**]  12:14 AM
                             [**2150-12-14**]  06:57 AM
   WBC
   11.9
   11.3
   12.8
   16.7
   Hct
   21.5
   20
   20.6
   23.2
   25.9
   Plt
   77
   56
   84
   70
   Cr
   1.2
   1.6
   1.7
   TropT
   0.09
   TCO2
   19
   17
   17
   15
   15
   16
   16
   Glucose
   69
   122
   143
   Other labs: PT / PTT / INR:25.5/53.9/2.5, CK / CKMB /
   Troponin-T:128/7/0.09, ALT / AST:150/498, Alk Phos / T Bili:105/19.3,
   Amylase / Lipase:183/, D-dimer:[**Numeric Identifier 4697**] ng/mL, Fibrinogen:106 mg/dL,
   Lactic Acid:5.9 mmol/L, LDH:547 IU/L, Ca++:8.7 mg/dL, Mg++:2.3 mg/dL,
   PO4:6.9 mg/dL
   Microbiology: [**12-13**] DFA negative
   [**12-13**] peritoneal fluid:  4+PMN, no microorg
   [**12-11**] bcx
   GRAM POSITIVE RODS.
            CONSISTENT WITH CLOSTRIDIUM
   OR
            BACILLUS SPECIES.
            REPORTED BY PHONE TO DR. [**First Name (STitle) **] [**Numeric Identifier 9722**], [**2150-12-13**], 2:30PM.
      Anaerobic Bottle Gram Stain (Final [**2150-12-13**]):
         THIS IS A CORRECTED REPORT 1630 ON [**2150-12-13**].
         REPORTED BY PHONE TO DR. [**Last Name (STitle) **] PG [**Numeric Identifier **].
         GRAM POSITIVE ROD(S).
                                       CONSISTENT WITH CLOSTRIDIUM
   OR
                                      BACILLUS SPECIES.
         PREVIOUSLY REPORTED AS GRAM POSITIVE ROD(S) CONSISTENT WITH
         CORYNEBACTERIUM OR
         PROPIONIBACTERIUM SPECIES.
         [**2150-12-13**] AT 1430.
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ANEMIA, CHRONIC
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 THROMBOCYTOPENIA, CHRONIC
 CIRRHOSIS OF LIVER, OTHER
 HEPATITIS OTHER
 ACIDOSIS, METABOLIC
   60 year old man with history of hepatitis C (s/p interferon rx with no
   response), cirrhosis, esophageal varices and hyponatremia admitted with
   dyspnea and diffuse abdominal pain, found to have SBP as well as a
   possibilty of CAP.
   .
   Sepsis: Suspect sepsis is due to SBP as below, also possibly due to
   pna. Will treat with abx as outlined below, pressors and IVF bolus to
   support BP. Mixed venous O2 sat in ED was 91%, so pRBCs were not
   administered, however now hematocrit is ~21, will plan to transfuse.
   Hypothermia (current temp 95 with bear hugger), hyponatremia,
   hyperkalemia and hypoglycemia consistent with sepsis, but also
   concerning for adrenal insufficiency. Pt has not recently been on
   steroids and has no other RF for adrenal insufficiency and cortisol is
   currently pending.
   - Norepinephrine to titrate to MAP>60
   - Antibiotics as below
   - Monitor CVP (goal>8) and SvO2 (goal>70%)
   - F/u cortisol level, consider [**Last Name (un) **] stim test in am;  Cortsol: 29.5
   (elevated)
   - CRP 6.1 (elevated)
   - BCx consistent with corynebacterium vs. propionibacterium
   .
   Respiratory Failure: Pt was intubated in the ED given hypotension,
   concern for developing respiratory failure given tachypnea. ABG in MICU
   indicates elevated PaO2 on current ventilator settings.
   - Change FiO2 to 60%
   - q4h ABG for now
   - Maintain on ventilator for now given sepsis, plan for EGD.
   - HOB and mouthcare per ICU routine
   - Sedation with Fentanyl and Midazolam gtt
   .
   Spontaneous Bacterial Peritonitis: Abdominal pain, prominent
   neutrophilia on ascitic fluid diff (17,000 WBC, 87% neuts) and
   significantl left-shift on CBC with diff (33% bands) in the setting of
   a history of variceal bleeding are all consistent with SBP. Normally
   would treat with ceftriaxone, but given additional concerns for
   pneamonia will treat with cipro, pip-tazo and vancomycin.
   - Continue antibiotics as above
   - Albumin 1.5g/kg on day 1 (125g) and 1g/kg (75) on day 3
   .
   Dyspnea: The differential for the pt's dyspnea includes pneumonia,
   influenza, ascites or CHF. The pt had a left shift on CBC with diff and
   his girlfriend reported that he recently had a "respiratory infection"
   which raises concern for a post-viral pna or bacterial pna. Initial
   read of CXR raised concern for R LL infiltrate, however on final read
   there is no mention of an opacity. Tachypnea likely secondary to
   acidosis.
   - Follow up rapid influenza
   - Send sputum culture
   - ABGs as above
   - Continue ventilator support
   .
   Anemia: Pt's recent baseline hematocrit appears to be ~25-30, and is
   currently 21. Pt was noted to be guaiac positive on exam in ED, and has
   frank blood in NGT. Suspect that pt has chronic macrocytic anemia
   secondary to liver disease, with superimposed acute blood loss anemia
   from variceal bleed or bleeding ulcer. No schistocytes on smear to
   indicate hemolysis, however INR more elevated than in the past, and
   thrombocytopenia is more pronounced.
   - GI/liver to do EGD now to evaluate for UGIB cause: no bleeding
   - Transfuse 2u pRBC now, crossmatch 4u pRBCs
   - Check hemolysis labs (LDH is elevated at baseline, bili elevated,
   fractionate bili, send hapto) and DIC labs (fibrinogen, d dimer)
   - pantoprazole bolus and gtt, octreotide gtt for likely variceal
   bleeding:
 d/c now as no bleeding, start IV PPI
   - q4h hematocrit
   .
   Non-anion gap Metabolic Acidosis: pH on ABG 7.29. Pt has a normal anion
   gap in the setting of chronic hyponatremia. Suspect acidosis is
   secondary to lactic acidosis in the setting of sepsis, SBP.
   - frequent ABG's
   - hold maintenance fluids to avoid worsening of acidosis
   - transfuse 2u pRBC's now
   - add on alk phos and CEA to ascitic fluid analysis given GI/Liver
   service's concern for perforation
   .
   Hepatitis C Cirrhosis: MELD on admission was 27, discriminate function
   was 61. On exam pt is jaundiced. LFT's similar to prior LFT's with the
   exception of bili, which is markedly elevated at 18. Reportedly the pt
   stopped drinking EtOH in [**Month (only) 11**].
   - Add-on serum EtOH
   - Hepatology will follow patient
   - Hold lactulose, rifaximin for now, restart if post EGD if PO's okay
   - Hold nadolol for now given hypotension, pressor requirement
   .
   Thrombocytopenia: Currently plts are 77, which is below baseline.
   Suspect that thrombocytopenia is due to poor synthetic function in the
   setting of liver disease. Pt has chronic epistaxis. Hemolysis is less
   likely.
   - Trend plts
   - Avoid heparin products in the setting of plt<100, GIB
   - F/u hemolysis labs
   .
   FEN: Bolus IVF prn, replete electrolytes
   .
   Prophylaxis: pneumoboots
   .
   Access: R and L 20-g PIVs, R triple-lumen IJ
   .
   Code:  Full (discussed with girlfriend)
   .
   Communication: Patient's GF and son
   Contact Info:
   Girlfriend [**Name (NI) 105**] [**Name (NI) 1309**]
   cell: [**Telephone/Fax (1) 9699**]
   home: [**Telephone/Fax (1) 9700**]
   Son [**Name (NI) **] [**Name (NI) 5320**]
   [**Telephone/Fax (1) 9701**]
   .
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2150-12-13**] 09:13 AM
   18 Gauge - [**2150-12-13**] 09:14 AM
   Multi Lumen - [**2150-12-13**] 09:15 AM
   Arterial Line - [**2150-12-13**] 10:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2150-12-14 10:36:00 Physician Attending Progress Note
Chief Complaint: Septic shock, respiratory failure, SBP
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Bladder pressure measured as 19
   Eval'd by ENT --> uvula laceration visualized
   24 Hour Events:
 INVASIVE VENTILATION - START [**2150-12-13**] 09:00 AM
 MULTI LUMEN - START [**2150-12-13**] 09:15 AM
 ARTERIAL LINE - START [**2150-12-13**] 10:15 AM
 BRONCHOSCOPY - At [**2150-12-13**] 08:00 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2150-12-14**] 05:50 AM
   Piperacillin/Tazobactam (Zosyn) - [**2150-12-14**] 07:43 AM
   Vancomycin - [**2150-12-14**] 08:00 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   Vasopressin - 2.4 units/hour
   Cisatracurium - 0.06 mg/Kg/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-12-13**] 10:25 AM
   Midazolam (Versed) - [**2150-12-13**] 12:35 PM
   Fentanyl - [**2150-12-13**] 12:35 PM
   Dextrose 50% - [**2150-12-13**] 11:23 PM
   Insulin - Regular - [**2150-12-13**] 11:24 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2150-12-14**] 10:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.2
C (97.1
   HR: 82 (77 - 100) bpm
   BP: 95/49(65) {81/42(57) - 142/68(95)} mmHg
   RR: 28 (13 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.7 kg (admission): 91.7 kg
   CVP: 20 (18 - 339)mmHg
   Bladder pressure: 19 (19 - 100) mmHg
   Total In:
                                                                  8,011 mL
                                                                  2,666 mL
   PO:
   TF:
   IVF:
                                                                  4,999 mL
                                                                  2,316 mL
   Blood products:
                                                                  2,727 mL
                                                                    350 mL
   Total out:
                                                                    394 mL
                                                                    405 mL
   Urine:
                                                                    394 mL
                                                                    405 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,617 mL
                                                                  2,261 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 29 cmH2O
   Plateau: 24 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 96%
   ABG: 7.31/31/73.[**Numeric Identifier **]/13/-9
   Ve: 14.3 L/min
   PaO2 / FiO2: 122
   Physical Examination
   General Appearance: No acute distress, intubated, sedated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Non-tender, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   70 K/uL
   205 mg/dL
   1.2 mg/dL
   13 mEq/L
   5.5 mEq/L
   29 mg/dL
   99 mEq/L
   130 mEq/L
   25.9 %
   16.7 K/uL
        [image002.jpg]
                             [**2150-12-13**]  09:16 AM
                             [**2150-12-13**]  10:46 AM
                             [**2150-12-13**]  02:23 PM
                             [**2150-12-13**]  03:42 PM
                             [**2150-12-13**]  03:52 PM
                             [**2150-12-13**]  07:05 PM
                             [**2150-12-13**]  10:28 PM
                             [**2150-12-13**]  10:45 PM
                             [**2150-12-14**]  12:14 AM
                             [**2150-12-14**]  06:57 AM
   WBC
   11.9
   11.3
   12.8
   16.7
   Hct
   21.5
   20
   20.6
   23.2
   25.9
   Plt
   77
   56
   84
   70
   Cr
   1.2
   1.6
   1.7
   1.2
   TropT
   0.09
   TCO2
   19
   17
   17
   15
   15
   16
   16
   Glucose
   69
   122
   143
   205
   Other labs: PT / PTT / INR:28.9/55.9/2.8, CK / CKMB /
   Troponin-T:128/7/0.09, ALT / AST:197/644, Alk Phos / T Bili:94/21.9,
   Amylase / Lipase:183/, D-dimer:[**Numeric Identifier 4697**] ng/mL, Fibrinogen:106 mg/dL,
   Lactic Acid:5.9 mmol/L, LDH:547 IU/L, Ca++:8.7 mg/dL, Mg++:2.2 mg/dL,
   PO4:6.0 mg/dL
   Microbiology: [**12-11**] blood: GNRs c/w clostridium
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ANEMIA, CHRONIC
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 THROMBOCYTOPENIA, CHRONIC
 CIRRHOSIS OF LIVER, OTHER
 HEPATITIS OTHER
 ACIDOSIS, METABOLIC
   A:
   1)       Septic Shock (Gram positive rods)
   2)       Spontaneous Bacterial Peritonitis
   3)       Acute renal failure
   4)       Acute on chronic liver failure
   5)       Oropharyngeal hemorrhage
   Plan:
   1)       Place Vigeleo to evaluate cardiac output and determine
   hypodynamic or hyperdynamic state
   2)       PRBCs and FFP for bleeding but can also provide some volume
   3)       Evaluate volume status by checking change in CO with volume
   loading
   4)       Continue antibiotics for source control
   5)       Albumin
   6)       Bicarbonate for acidosis particularly as potassium is high
   (6.1)
   7)       Dextrose, insulin, kayexalate, bicarbonate for hyperkalemia
   8)       Keep in contact with nephrology as may need dialysis
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2150-12-13**] 09:13 AM
   18 Gauge - [**2150-12-13**] 09:14 AM
   Multi Lumen - [**2150-12-13**] 09:15 AM
   Arterial Line - [**2150-12-13**] 10:15 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2150-12-15 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2150-12-14**] 04:10 PM
   from cvp & perip
   - per renal, labs look OK so renal will hold off on HD until tomorrow.
   Recommend continuing bicarb GTT overnight.
   - On Vanc/Zosyn/Clinda/Micafungin per ID
   - ID suggested CT to r/o perf, but not stable to go off floor so did
   not get (for distended abdomen and fevers).  However, lactate
   improving.
   - Bladder pressure 100, but then decreased
   - Decreased RR to 24 on vent
   - ENT leaving in nasal packings for 24 hours more, then will remove
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2150-12-14**] 08:00 AM
   Micafungin - [**2150-12-14**] 10:10 PM
   Piperacillin/Tazobactam (Zosyn) - [**2150-12-15**] 12:30 AM
   Clindamycin - [**2150-12-15**] 04:00 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   Vasopressin - 2.4 units/hour
   Cisatracurium - 0.1 mg/Kg/hour
   Norepinephrine - 0.12 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-12-14**] 10:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-12-15**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.4
C (99.4
   HR: 87 (82 - 96) bpm
   BP: 115/54(73) {95/49(65) - 157/70(99)} mmHg
   RR: 24 (20 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95 kg (admission): 91.7 kg
    CVP: 16 (0 - 32)mmHg
   Bladder pressure: 19 (19 - 19) mmHg
   Total In:
                                                                  5,557 mL
                                                                    960 mL
   PO:
   TF:
   IVF:
                                                                  4,062 mL
                                                                    960 mL
   Blood products:
                                                                  1,495 mL
   Total out:
                                                                  1,570 mL
                                                                    550 mL
   Urine:
                                                                  1,170 mL
                                                                    350 mL
   NG:
                                                                    400 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  3,987 mL
                                                                    410 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: Neuromusc Block
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   Compliance: 44.6 cmH2O/mL
   SpO2: 95%
   ABG: 7.47/34/89.[**Numeric Identifier 433**]/23/1
   Ve: 11.6 L/min
   PaO2 / FiO2: 148
   Physical Examination
   GEN: NAD, sedated
   CV: RRR, no m/r/g
   PULM: rhonchi b/l
   ABD: soft, nt, obese
   EXTR: 2+ edema pedal
   Labs / Radiology
   48 K/uL
   8.2 g/dL
   149 mg/dL
   1.2 mg/dL
   23 mEq/L
   4.0 mEq/L
   31 mg/dL
   99 mEq/L
   132 mEq/L
   24.1 %
   13.6 K/uL
        [image002.jpg]
                             [**2150-12-13**]  03:52 PM
                             [**2150-12-13**]  07:05 PM
                             [**2150-12-13**]  10:28 PM
                             [**2150-12-13**]  10:45 PM
                             [**2150-12-14**]  12:14 AM
                             [**2150-12-14**]  06:57 AM
                             [**2150-12-14**]  02:54 PM
                             [**2150-12-14**]  03:10 PM
                             [**2150-12-15**]  02:07 AM
                             [**2150-12-15**]  02:25 AM
   WBC
   12.8
   16.7
   14.4
   13.6
   Hct
   23.2
   25.9
   24.4
   24.1
   Plt
   84
   70
   47
   48
   Cr
   1.7
   1.2
   0.8
   1.2
   TCO2
   17
   15
   15
   16
   16
   19
   25
   Glucose
   122
   143
   205
   194
   149
   Other labs: PT / PTT / INR:28.5/48.3/2.8, CK / CKMB /
   Troponin-T:128/7/0.09, ALT / AST:190/602, Alk Phos / T Bili:74/23.1,
   Amylase / Lipase:81/, D-dimer:[**Numeric Identifier 4697**] ng/mL, Fibrinogen:106 mg/dL, Lactic
   Acid:2.4 mmol/L, Albumin:3.2 g/dL, LDH:604 IU/L, Ca++:9.0 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.5 mg/Dl
Anaerobic Bottle Gram Stain (Final [**2150-12-13**]):
      GRAM POSITIVE ROD(S).
                                    CONSISTENT WITH CLOSTRIDIUM OR
                                   BACILLUS SPECIES.
   Blood Culture, Routine (Preliminary):
      CLOSTRIDIUM PERFRINGENS.
   DFA: negative flu A&B
   CXR (my read); increased b/l perihilar infiltrates, incr b/l pleural
   effusion or lower lobe consolidation, with loss of CPA b/l, incr
   infiltrates in b/l lower lung fields. RIJ and ETT in place.
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ANEMIA, CHRONIC
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 THROMBOCYTOPENIA, CHRONIC
 CIRRHOSIS OF LIVER, OTHER
 HEPATITIS OTHER
 ACIDOSIS, METABOLIC
   60 year old man with history of hepatitis C (s/p interferon rx with no
   response), cirrhosis, esophageal varices and hyponatremia admitted with
   dyspnea and diffuse abdominal pain, found to have peritonitis as well
   as a possibility of CAP.
   .
   Sepsis: Suspect sepsis is due to SBP as below, also possibly due to
   pna. Will treat with abx as outlined below, pressors and IVF bolus to
   support BP. Mixed venous O2 sat in ED was 91%, so pRBCs were not
   administered, however now hematocrit is ~21, will plan to transfuse.
   Hypothermia (current temp 95 with bear hugger), hyponatremia,
   hyperkalemia and hypoglycemia consistent with sepsis, but also
   concerning for adrenal insufficiency. Pt has not recently been on
   steroids and has no other RF for adrenal insufficiency and cortisol is
   currently pending.
   - Norepinephrine to titrate to MAP>60; vasopression; (d/c vasopressin
   first as tolerated)
   - d/c cisatracurium
   - Antibiotics as below
   - Monitor CVP (goal>8; ideal [**10-19**]) and SvO2 (goal>70%)
   - repeat AM cortisol stim test today
   - BCx consistent with clostridium perfringens
   - F/u ID consult re: antibiotic regimen, currently on:
   Vanc/Zosyn/Clinda/Micafungin
   - hold CT abdomen given clinical improvement
   .
   Peritonitis: ?SBP but without positive cultures.  Abdominal pain,
   prominent neutrophilia on ascitic fluid diff (17,000 WBC, 87% neuts)
   and significantl left-shift on CBC with diff (33% bands) in the setting
   of a history of variceal bleeding are all consistent with SBP. Normally
   would treat with ceftriaxone, but given additional concerns for
   pneumonia will treat with cipro, pip-tazo and vancomycin.
   - Continue Vanc/Zosyn/Clinda/Micafungin
   - f/u ID Consult re: abx regimen
   - f/u GI/Liver recs
   - Albumin 1.5g/kg on day 1 (125g) and 1g/kg (75) on day 3
   .
   Respiratory Failure: Pt was intubated in the ED given hypotension,
   concern for developing respiratory failure given tachypnea. ABG in MICU
   indicates elevated PaO2 on current ventilator settings.
   - Maintain FiO2 at 60% for now, then decrease to 50% as tolerated
   - Decrease RR
   - ABG and lactate [**Hospital1 **] (lactate downtrending now)
   - Maintain on ventilator for now given sepsis, plan for EGD.
   - Sedation with Fentanyl and Midazolam gtt
   .
   Dyspnea: The differential for the pt's dyspnea includes pneumonia,
   influenza, ascites or CHF. The pt had a left shift on CBC with diff and
   his girlfriend reported that he recently had a "respiratory infection"
   which raises concern for a post-viral pna or bacterial pna. Initial
   read of CXR raised concern for R LL infiltrate, however on final read
   there is no mention of an opacity. Tachypnea likely secondary to
   acidosis.
   - f/u sputum culture
   - ABGs as above
   - Continue ventilator support
   .
   Epistaxis:  ENT consulted, patient s/p bilateral packing.
   - f/u ENT recs; ENT to be removed today
   .
   Anemia: Pt's recent baseline hematocrit appears to be ~25-30, and is
   currently 21. Pt was noted to be guaiac positive on exam in ED, and has
   frank blood in NGT. Suspect that pt has chronic macrocytic anemia
   secondary to liver disease, with superimposed acute blood loss anemia
   from variceal bleed or bleeding ulcer. No schistocytes on smear to
   indicate hemolysis, however INR more elevated than in the past, and
   thrombocytopenia is more pronounced.
   - GI/liver to do EGD to evaluate for UGIB cause: no bleeding
   - Was transfused 2u pRBC this morning, crossmatch 4u pRBCs.  Transfuse
   as needed for falling Hct.
   - pantoprazole bolus and gtt, octreotide gtt for likely variceal
   bleeding: d/c
d now as no bleeding
   - Continue IV PPI
   - daily coags and CBC
   - 2 units FFP today and 1 unit cryo before ENT removes packing
   .
   Non-anion gap Metabolic Acidosis: pH on ABG 7.29. Pt has a normal anion
   gap in the setting of chronic hyponatremia. Suspect acidosis is
   secondary to lactic acidosis in the setting of sepsis, SBP.  s/p 2
   units PRBC transfusion.
   - frequent ABG's
   - hold maintenance fluids to avoid worsening of acidosis
   - add on alk phos and CEA to ascitic fluid analysis given GI/Liver
   service's concern for perforation
   - f/u renal recs, likely no need for HD now
   - consider lasix in PM to help UO
   .
   Hepatitis C Cirrhosis: MELD on admission was 27, discriminate function
   was 61. On exam pt is jaundiced. LFT's similar to prior LFT's with the
   exception of bili, which is markedly elevated at 18. Reportedly the pt
   stopped drinking EtOH in [**Month (only) 11**].
   - Add-on serum EtOH - negative
   - Hepatology will follow patient
   - Hold lactulose, rifaximin for now, restart if post EGD if PO's okay
   - Hold nadolol for now given hypotension, pressor requirement
   .
   Acute Renal Failure:  Patient
s acute renal failure likely [**2-9**] sepsis,
   monitor. F/u renal recs.
   .
   Thrombocytopenia: Currently plts are 77, which is below baseline.
   Suspect that thrombocytopenia is due to poor synthetic function in the
   setting of liver disease. Pt has chronic epistaxis. Hemolysis is less
   likely.
   - Trend plts daily
   - Avoid heparin products in the setting of plt<100, GIB
   .
   FEN: Bolus IVF prn, replete electrolytes
   .
   Prophylaxis: pneumoboots
   .
   Access: R and L 20-g PIVs, R triple-lumen IJ, a-line
   .
   Code:  Full (discussed with girlfriend)
   .
   Communication: Patient's GF and son
   Contact Info:
   Girlfriend [**Name (NI) 105**] [**Name (NI) 1309**]
   cell: [**Telephone/Fax (1) 9699**]
   home: [**Telephone/Fax (1) 9700**]
   Son [**Name (NI) **] [**Name (NI) 5320**]
   [**Telephone/Fax (1) 9701**]
   .
   Disposition: pending clinical improvement
   ICU Care
   Lines:
   18 Gauge - [**2150-12-13**] 09:14 AM
   Multi Lumen - [**2150-12-13**] 09:15 AM
   Arterial Line - [**2150-12-13**] 10:15 AM
   20 Gauge - [**2150-12-15**] 12:18 AM
   Code status: Full code

2150-12-15 09:24:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Septic shock, Peritonitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Urine output and Cr improved over yesterday and overnight
   24 Hour Events:
 BLOOD CULTURED - At [**2150-12-14**] 04:10 PM
   from cvp & perip
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2150-12-14**] 08:00 AM
   Micafungin - [**2150-12-14**] 10:10 PM
   Clindamycin - [**2150-12-15**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2150-12-15**] 08:30 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.12 mcg/Kg/min
   Cisatracurium - 0.1 mg/Kg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-12-14**] 10:14 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2150-12-15**] 09:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.9
C (98.4
   HR: 85 (82 - 96) bpm
   BP: 128/60(82) {95/49(65) - 157/70(99)} mmHg
   RR: 24 (22 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95 kg (admission): 91.7 kg
   CVP: 19 (0 - 32)mmHg
   Total In:
                                                                  5,557 mL
                                                                  1,165 mL
   PO:
   TF:
   IVF:
                                                                  4,062 mL
                                                                  1,165 mL
   Blood products:
                                                                  1,495 mL
   Total out:
                                                                  1,570 mL
                                                                    674 mL
   Urine:
                                                                  1,170 mL
                                                                    474 mL
   NG:
                                                                    400 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  3,987 mL
                                                                    491 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: Neuromusc Block
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   Compliance: 41 cmH2O/mL
   SpO2: 96%
   ABG: 7.47/34/89.[**Numeric Identifier 433**]/23/1
   Ve: 11.6 L/min
   PaO2 / FiO2: 148
   Physical Examination
   General Appearance: No acute distress, intubated, sedated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   48 K/uL
   149 mg/dL
   1.2 mg/dL
   23 mEq/L
   4.0 mEq/L
   31 mg/dL
   99 mEq/L
   132 mEq/L
   24.1 %
   13.6 K/uL
        [image002.jpg]
                             [**2150-12-13**]  03:52 PM
                             [**2150-12-13**]  07:05 PM
                             [**2150-12-13**]  10:28 PM
                             [**2150-12-13**]  10:45 PM
                             [**2150-12-14**]  12:14 AM
                             [**2150-12-14**]  06:57 AM
                             [**2150-12-14**]  02:54 PM
                             [**2150-12-14**]  03:10 PM
                             [**2150-12-15**]  02:07 AM
                             [**2150-12-15**]  02:25 AM
   WBC
   12.8
   16.7
   14.4
   13.6
   Hct
   23.2
   25.9
   24.4
   24.1
   Plt
   84
   70
   47
   48
   Cr
   1.7
   1.2
   0.8
   1.2
   TCO2
   17
   15
   15
   16
   16
   19
   25
   Glucose
   122
   143
   205
   194
   149
   Other labs: PT / PTT / INR:28.5/48.3/2.8, CK / CKMB /
   Troponin-T:128/7/0.09, ALT / AST:190/602, Alk Phos / T Bili:74/23.1,
   Amylase / Lipase:81/, D-dimer:[**Numeric Identifier 4697**] ng/mL, Fibrinogen:106 mg/dL, Lactic
   Acid:2.4 mmol/L, Albumin:3.2 g/dL, LDH:604 IU/L, Ca++:9.0 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Microbiology: Blood 12/6: C. perfingens
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ANEMIA, CHRONIC
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 THROMBOCYTOPENIA, CHRONIC
 CIRRHOSIS OF LIVER, OTHER
 HEPATITIS OTHER
 ACIDOSIS, METABOLIC
   60 yo man with HCV cirrhosis, here with peritonitis due to c.
   perfingens.
   1. Septic Shock/GPRs:  Still on 2 pressors but lactate down.  Will d/c
   vasopressin.
   2. Respiratory Failure: Will attempt to wean FIO2.
   3. Acute renal failure: Cr improved
   4. Oropharyngeal hemorrhage: touch base with ENT about D/C
   cisatracurium and removal of packing.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2150-12-13**] 09:14 AM
   Multi Lumen - [**2150-12-13**] 09:15 AM
   Arterial Line - [**2150-12-13**] 10:15 AM
   20 Gauge - [**2150-12-15**] 12:18 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2150-12-16 06:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -ENT removed packing; leave nose packing in place until they come back
   in 2 days (no OG tube or suction until then)
   -[**Last Name (un) **] stim test done yesterday,
   -hepatology rec'd: albumin, holding on that for now; also recommended
   paracentesis today
   -KUB: wet read, no perforation, but colon increasingly distended
   -into afib with RVR in the afternoon (HR to 120s), given dilt, and saw
   HR improve to 100s, had ECG done
   -id: continue zosyn, clinda, mica
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2150-12-14**] 08:00 AM
   Micafungin - [**2150-12-15**] 10:15 PM
   Piperacillin/Tazobactam (Zosyn) - [**2150-12-16**] 12:00 AM
   Clindamycin - [**2150-12-16**] 04:06 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2150-12-15**] 03:40 PM
   Diltiazem - [**2150-12-15**] 03:40 PM
   Other medications:
   Flowsheet Data as of  [**2150-12-16**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.5
   HR: 89 (82 - 122) bpm
   BP: 109/53(70) {97/44(62) - 128/62(82)} mmHg
   RR: 20 (16 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99.2 kg (admission): 91.7 kg
    CVP: 18 (16 - 33)mmHg
   Total In:
                                                                  2,638 mL
                                                                    242 mL
   PO:
   TF:
   IVF:
                                                                  1,747 mL
                                                                    242 mL
   Blood products:
                                                                    891 mL
   Total out:
                                                                  1,853 mL
                                                                    425 mL
   Urine:
                                                                  1,553 mL
                                                                    225 mL
   NG:
                                                                    300 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                    785 mL
                                                                   -183 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 25 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 96%
   ABG: 7.50/33/113/26/3
   Ve: 10.7 L/min
   PaO2 / FiO2: 188
   Physical Examination
   GEN: NAD, sedated, not tracking or following commands
   CV: RRR, no m/r/g
   PULM: rhonchi b/l
   ABD: soft, nt, obese/mild distension
   EXTR: 2+ edema U & LE
   Labs / Radiology
   30 K/uL
   8.3 g/dL
   78 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.3 mEq/L
   35 mg/dL
   100 mEq/L
   134 mEq/L
   24.4 %
   12.4 K/uL
        [image002.jpg]
                             [**2150-12-13**]  10:45 PM
                             [**2150-12-14**]  12:14 AM
                             [**2150-12-14**]  06:57 AM
                             [**2150-12-14**]  02:54 PM
                             [**2150-12-14**]  03:10 PM
                             [**2150-12-15**]  02:07 AM
                             [**2150-12-15**]  02:25 AM
                             [**2150-12-15**]  04:03 PM
                             [**2150-12-16**]  03:04 AM
                             [**2150-12-16**]  04:09 AM
   WBC
   16.7
   14.4
   13.6
   12.4
   Hct
   25.9
   24.4
   24.1
   24.4
   Plt
   70
   47
   48
   30
   Cr
   1.2
   0.8
   1.2
   0.9
   TCO2
   15
   16
   16
   19
   25
   24
   27
   Glucose
   143
   205
   194
   149
   56
   78
   Other labs: PT / PTT / INR:30.1/45.4/3.0, CK / CKMB /
   Troponin-T:128/7/0.09, ALT / AST:132/336, Alk Phos / T Bili:70/21.9
   (LFTs trending down), Amylase / Lipase:81/, Fibrinogen:144 mg/dL
   (trending up from 58 [**12-13**]), Lactic Acid:3.3 mmol/L (from 2.4 yesterday
   PM), Albumin:2.8 g/dL, LDH:392 IU/L, Ca++:9.2 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.7 mg/dL
   [**Last Name (un) 1398**] stim test 0min 14.7, 30min 18.8, 60min 20
   Imaging: KUB [**12-15**]: An overall hazy appearance of the abdomen is
   consistent with ascites.
   The transverse colon is predominantly gas-filled but is distended up to
   6.7 cm
   in diameter. There is no obvious evidence of perforation or free air.
   In the
   setting of C. diff colitis, these findings could represent toxic
   megacolon.
   CXR [**12-15**]:  In comparison with the study of [**12-13**], there is increased
   engorgement of pulmonary vessels with a generalized haziness
   bilaterally,
   consistent with layering pleural effusions. The tip of the endotracheal
   tube
   now lies approximately 3 cm above the carina. Right IJ catheter and
   nasogastric tube remain in place.
   Perihilar prominence, especially in the left suprahilar region, is
   again seen.
   This may merely be reflection of the elevated pulmonary venous
   pressure,
   though the possibility of the supervening pneumonia must be considered.
   CXR [**12-16**]: done
   Microbiology: [**12-13**] para fluid no growth
   [**12-14**] and [**12-15**] B cxrs pending
   [**12-13**] B cxr -   CLOSTRIDIUM PERFRINGENS.
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ANEMIA, CHRONIC
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 THROMBOCYTOPENIA, CHRONIC
 CIRRHOSIS OF LIVER, OTHER
 HEPATITIS OTHER
 ACIDOSIS, METABOLIC
   60 year old man with history of hepatitis C (s/p interferon rx with no
   response), cirrhosis, esophageal varices and hyponatremia admitted with
   dyspnea and diffuse abdominal pain, found to have peritonitis as well
   as a possibility of CAP.
   .
   Active issues
   .
   Sepsis: Suspect sepsis is due to SBP as below, also possibly due to
   pna. Will treat with abx as outlined below, pressors and IVF bolus to
   support BP. Mixed venous O2 sat in ED was 91%, so pRBCs were not
   administered, however hematocrit on admission
   was ~21, and pt was transfused. Hypothermia (current temp 95 with bear
   hugger), hyponatremia, hyperkalemia and hypoglycemia consistent with
   sepsis, but also concerning for adrenal insufficiency. Pt has not
   recently been on steroids and has no other RF for adrenal
   insufficiency.
   - Norepinephrine to titrate to MAP>60; vasopression dc
   - d/c cisatracurium
   - Continuing Zosyn/Clinda/Micafungin per ID recs; dc
ed Vanc
   - Monitor CVP (goal>8; ideal [**10-19**]) and SvO2 (goal>70%)
   - [**Last Name (un) 1398**] stim test without appropriate increase in cortisol; however,
   will hold off on steroids for now.
   - BCx consistent with clostridium perfringens
   - hold CT abdomen given clinical improvement
   .
   Peritonitis: ?SBP but without positive cultures.  Abdominal pain,
   prominent neutrophilia on ascitic fluid diff (17,000 WBC, 87% neuts)
   and significant left-shift on CBC with diff (33% bands) in the setting
   of a history of variceal bleeding are all consistent with SBP. Normally
   would treat with ceftriaxone, but given additional concerns for
   pneumonia will treat with cipro, pip-tazo and vancomycin.
   - Continue Zosyn/Clinda/Micafungin per ID recs
   - f/u GI/Liver recs
   - Albumin 1.5g/kg on day 1 (125g) and 1g/kg (75) on day 3 ([**12-17**]).
   - Hepatobiliary sx recs ([**12-15**]): recommend re-tapping him today.  If his
   WBC is still very high, he may need to be explored.
   - General surgery c/s for possible exploration, note pending
   .
   Respiratory Failure: Pt was intubated in the ED given hypotension,
   concern for developing respiratory failure given tachypnea. ABG in MICU
   indicates elevated PaO2 on current ventilator settings.
   - Maintain FiO2 at 60% for now, then decrease to 50% as tolerated
   - Decrease RR
   - ABG and lactate [**Hospital1 **] (lactate down-trending now)
   - Maintain on ventilator for now given sepsis.
   - Sedation with Fentanyl and Midazolam gtt
   .
   Dyspnea: The differential for the pt's dyspnea includes pneumonia,
   influenza, ascites or CHF. The pt had a left shift on CBC with diff and
   his girlfriend reported that he recently had a "respiratory infection"
   which raises concern for a post-viral pna or bacterial pna. Initial
   read of CXR raised concern for R LL infiltrate, however on final read
   there is no mention of an opacity. Tachypnea likely secondary to
   acidosis.
   - f/u sputum culture
   - ABGs as above
   - Continue ventilator support
   - Attempt to decrease FiO2 as aobe.
   .
   Epistaxis:  ENT consulted, patient s/p bilateral packing.
   - f/u ENT recs; packing removed yesterday. Remainder of packing to be
   removed tomorrow ([**12-18**]).
   .
   Anemia: Pt's recent baseline hematocrit appears to be ~25-30, and was
   21 on admission. Pt was noted to be guaiac positive on exam in ED, and
   had frank blood in NGT. Suspect that pt has chronic macrocytic anemia
   secondary to liver disease, with superimposed acute blood loss anemia
   from variceal bleed or bleeding ulcer. No schistocytes on smear to
   indicate hemolysis, however INR more elevated than in the past, and
   thrombocytopenia is more pronounced. GI did an EGD to evaluate for UGIB
   cause and no bleeding source was found.
   - Pt was on pantoprazole bolus and octreotide gtt for likely variceal
   bleeding: d/c
d now as HCT stable.
   - Transfuse as needed for falling Hct.
   - Continue IV PPI [**Hospital1 **]
   - Daily coags and CBC
   .
   Hepatitis C Cirrhosis: MELD on admission was 27, discriminate function
   was 61. On exam pt is jaundiced. LFT's similar to prior LFT's with the
   exception of bili, which is markedly elevated at 18. Reportedly the pt
   stopped drinking EtOH in [**Month (only) 11**]. Serum EtOH was negative.
   - Hepatology will follow patient
   - Hold lactulose, rifaximin for now, restart when PO's okay
   - Hold nadolol for now given hypotension, pressor requirement
   .
   Thrombocytopenia: Currently plts are 34, which is below baseline.
   Suspect that thrombocytopenia is due to poor synthetic function in the
   setting of liver disease. Pt has chronic epistaxis. Hemolysis is less
   likely.
   - Smear showed: no schistocytes, a few large platelets but many small
   platelets.  Likely bone marrow difficulty with production at the same
   time as it tries to increase production in the setting of platelet
   destruction.
   - Trend plts daily
   - Avoid heparin products in the setting of plt<100, GIB
   .
   Less Active Issues
   .
   Non-anion gap Metabolic Acidosis: pH on ABG 7.29. Pt has a normal anion
   gap in the setting of chronic hyponatremia. Suspect acidosis is
   secondary to lactic acidosis in the setting of sepsis, SBP.  s/p 2
   units PRBC transfusion.
   - frequent ABG's
   - hold maintenance fluids to avoid worsening of acidosis
   - add on alk phos and CEA to ascitic fluid analysis given GI/Liver
   service's concern for perforation
   - f/u renal recs, likely no need for HD now
   .
   Acute Renal Failure:  Patient
s acute renal failure likely [**2-9**] sepsis,
   monitor. F/u renal recs.
   - Now resolved.
   .
   FEN: Bolus IVF prn, replete electrolytes
   Prophylaxis: pneumoboots
   Access: R and L 20-g PIVs, R triple-lumen IJ, a-line
   Code:  Full (discussed with girlfriend)
   Communication: [**Name (NI) **] GF and son
   Contact Info: Girlfriend [**Name (NI) 105**] [**Name (NI) 1309**]  cell: [**Telephone/Fax (1) 9699**] home: [**Telephone/Fax (1) 9771**]
   Son [**Name (NI) **] [**Name (NI) 5320**] [**Telephone/Fax (1) 9701**]
   .
   Disposition: pending clinical improvement, ICU for now
   ICU Care
   Lines:
   18 Gauge - [**2150-12-13**] 09:14 AM
   Multi Lumen - [**2150-12-13**] 09:15 AM
   Arterial Line - [**2150-12-13**] 10:15 AM
   20 Gauge - [**2150-12-15**] 12:18 AM
   Code status: Full code

2150-12-16 11:43:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Septic Sock, C. perfingens
   peritonitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Remains on 0.1 of norepi
   24 Hour Events:
 EKG - At [**2150-12-15**] 03:02 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2150-12-14**] 08:00 AM
   Micafungin - [**2150-12-15**] 10:15 PM
   Clindamycin - [**2150-12-16**] 04:06 AM
   Piperacillin/Tazobactam (Zosyn) - [**2150-12-16**] 07:49 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Diltiazem - [**2150-12-15**] 03:40 PM
   Furosemide (Lasix) - [**2150-12-15**] 03:40 PM
   Pantoprazole (Protonix) - [**2150-12-16**] 10:30 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Tachycardia
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2150-12-16**] 11:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.7
C (96.3
   HR: 85 (82 - 122) bpm
   BP: 105/50(66) {97/44(62) - 125/62(80)} mmHg
   RR: 17 (4 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99.2 kg (admission): 91.7 kg
   CVP: 17 (16 - 33)mmHg
   Total In:
                                                                  2,638 mL
                                                                    478 mL
   PO:
   TF:
   IVF:
                                                                  1,747 mL
                                                                    478 mL
   Blood products:
                                                                    891 mL
   Total out:
                                                                  1,853 mL
                                                                    558 mL
   Urine:
                                                                  1,553 mL
                                                                    358 mL
   NG:
                                                                    300 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                    785 mL
                                                                    -80 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 23 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 95%
   ABG: 7.50/33/113/26/3
   Ve: 8.5 L/min
   PaO2 / FiO2: 188
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Non-tender, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   30 K/uL
   78 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.3 mEq/L
   35 mg/dL
   100 mEq/L
   134 mEq/L
   24.4 %
   12.4 K/uL
        [image002.jpg]
                             [**2150-12-13**]  10:45 PM
                             [**2150-12-14**]  12:14 AM
                             [**2150-12-14**]  06:57 AM
                             [**2150-12-14**]  02:54 PM
                             [**2150-12-14**]  03:10 PM
                             [**2150-12-15**]  02:07 AM
                             [**2150-12-15**]  02:25 AM
                             [**2150-12-15**]  04:03 PM
                             [**2150-12-16**]  03:04 AM
                             [**2150-12-16**]  04:09 AM
   WBC
   16.7
   14.4
   13.6
   12.4
   Hct
   25.9
   24.4
   24.1
   24.4
   Plt
   70
   47
   48
   30
   Cr
   1.2
   0.8
   1.2
   0.9
   TCO2
   15
   16
   16
   19
   25
   24
   27
   Glucose
   143
   205
   194
   149
   56
   78
   Other labs: PT / PTT / INR:30.1/45.4/3.0, CK / CKMB /
   Troponin-T:128/7/0.09, ALT / AST:132/336, Alk Phos / T Bili:70/21.9,
   Amylase / Lipase:81/, D-dimer:[**Numeric Identifier 4697**] ng/mL, Fibrinogen:144 mg/dL, Lactic
   Acid:3.3 mmol/L, Albumin:2.8 g/dL, LDH:392 IU/L, Ca++:9.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ANEMIA, CHRONIC
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 THROMBOCYTOPENIA, CHRONIC
 CIRRHOSIS OF LIVER, OTHER
 HEPATITIS OTHER
 ACIDOSIS, METABOLIC
   60 yo man with HCV cirrhosis, here with peritonitis due to c.
   perfingens.
   1. Septic Shock/GPRs:  On levophed alone - cont to try to wean.  Cont
   micafungin/clinda/zosyn
   2. Respiratory Failure: Will attempt to wean FIO2 - still 0.6.
   3. Oropharyngeal hemorrhage: touch base with ENT about D/C
   cisatracurium and removal of packing.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2150-12-13**] 09:14 AM
   Multi Lumen - [**2150-12-13**] 09:15 AM
   Arterial Line - [**2150-12-13**] 10:15 AM
   20 Gauge - [**2150-12-15**] 12:18 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2150-12-17 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2150-12-16**] 02:00 PM
   abdominal
 PARACENTESIS - At [**2150-12-16**] 03:30 PM
   for diagnostic purposes
   - decreased pt's tidal volume (500->400) and Fi02 (60%-->50%), with
   reasonable ABG taken 2 hours after change. Overnight, pt desated to
   high 80s, came up to 93% with suctioning. RT evaluated patient, made no
   changes. Most recent ABG showed: pH 7.46 pCO2 38 pO2 68 HCO3 28. CXR: ?
   incr fluid overload, ? diuresis.  Increased Fi02 to 60%.
   - pt also w. decr UOP overnight (20->15->10 in 3 hours), so was given
   250cc bolus with increased UOP.  Urine appeared concentrated, but CVP
   was 19. Bladder pressure 14.  Gave Lasix 20mg IV.
   - decreased levophed to 0.06 from 0.1 over last 24 hours.
   - did diagnostic paracentesis w. WBC 11K, 86% PMNs.
   - Renal: signing off, Cr at baseline
   - ID: Agree with plan to re-tap. If no sig improvement, rec surgical
   exploration.
   - Transplant sx: agrees with above.
   - Liver: If incr WBC or multiple organisms/fungus, would consider
   surgical exploration.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2150-12-14**] 08:00 AM
   Micafungin - [**2150-12-16**] 10:07 PM
   Piperacillin/Tazobactam (Zosyn) - [**2150-12-17**] 12:09 AM
   Clindamycin - [**2150-12-17**] 04:02 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-12-16**] 10:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-12-17**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 86 (71 - 87) bpm
   BP: 98/53(67) {88/47(60) - 125/63(83)} mmHg
   RR: 15 (4 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.4 kg (admission): 91.7 kg
   Height: 71 Inch
    CVP: 19 (16 - 26)mmHg
   Bladder pressure: 14 (14 - 14) mmHg
   Total In:
                                                                  1,909 mL
                                                                    524 mL
   PO:
   TF:
   IVF:
                                                                  1,111 mL
                                                                    524 mL
   Blood products:
                                                                    798 mL
   Total out:
                                                                  1,073 mL
                                                                    360 mL
   Urine:
                                                                    773 mL
                                                                    140 mL
   NG:
                                                                    300 mL
                                                                    220 mL
   Stool:
   Drains:
   Balance:
                                                                    836 mL
                                                                    164 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   Plateau: 17 cmH2O
   Compliance: 57.1 cmH2O/mL
   SpO2: 96%
   ABG: 7.46/38/68/28/2
   Ve: 7.5 L/min
   PaO2 / FiO2: 113
   Physical Examination
   General Appearance: GEN: NAD, sedated, not tracking or following
   commands
   CV: RRR, no m/r/g
   PULM: rhonchi b/l
   ABD: soft, nt, obese/mild distension
   EXTR: 2+ edema U & LE
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   55 K/uL
   8.3 g/dL
   79 mg/dL
   0.8 mg/dL
   28 mEq/L
   4.0 mEq/L
   46 mg/dL
   102 mEq/L
   136 mEq/L
   23.8 %
   9.9 K/uL
        [image002.jpg]
                             [**2150-12-15**]  02:07 AM
                             [**2150-12-15**]  02:25 AM
                             [**2150-12-15**]  04:03 PM
                             [**2150-12-16**]  03:04 AM
                             [**2150-12-16**]  04:09 AM
                             [**2150-12-16**]  05:58 PM
                             [**2150-12-16**]  10:09 PM
                            [**2150-12-17**]  02:56 AM
                            [**2150-12-17**]  03:07 AM
                            [**2150-12-17**]  06:21 AM
   WBC
   13.6
   12.4
   11.9
   9.9
   Hct
   24.1
   24.4
   23.7
   23.8
   Plt
   48
   30
   63
   55
   Cr
   1.2
   0.9
   0.9
   0.8
   TCO2
   25
   24
   27
   28
   29
   28
   Glucose
   149
   56
   78
   82
   79
   Other labs: PT / PTT / INR:27.1/44.7/2.6, CK / CKMB /
   Troponin-T:128/7/0.09, ALT / AST:100/234, Alk Phos / T Bili:73/22.2,
   Amylase / Lipase:81/, D-dimer:[**Numeric Identifier 4697**] ng/mL, Fibrinogen:180 mg/dL, Lactic
   Acid:1.9 mmol/L, Albumin:2.8 g/dL, LDH:325 IU/L, Ca++:9.2 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Fluid analysis / Other labs: [**2150-12-16**]
   3:53p
   -----------------------------------------------------------------------
   ---------
   PERITONEAL FLUID
   Ascites
   Chemistry   Protein
       Glucose
       LDH
   Amylase: 16
   Albumin: <1.0
   Triglyc: 15
   PERITONEAL FLUID
     Ascites     WBC  [**Numeric Identifier 4073**]    RBC  3850
     Poly  85    Lymph  0    Mono  6    EOs
     Macroph: 9
   Imaging: [**12-17**] cxr (my read) - minimally increased RLL opacity, no
   significant change from prior
   [**12-16**] abd us:  1. Cirrhosis. Patent portal vein with hepatopetal flow.
   2. Moderate ascites. Marked place for paracentesis in the left lower
   quadrant.
   3. Distended gallbladder without evidence of stones.
   Microbiology: [**12-16**] peritoneal fluid cx pending
   [**12-14**], [**12-15**] bcx pnd
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ANEMIA, CHRONIC
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 THROMBOCYTOPENIA, CHRONIC
 CIRRHOSIS OF LIVER, OTHER
 HEPATITIS OTHER
 ACIDOSIS, METABOLIC
   60 year old man with history of hepatitis C (s/p interferon rx with no
   response), cirrhosis, esophageal varices and hyponatremia admitted with
   dyspnea and diffuse abdominal pain, found to have peritonitis as well
   as a possibility of CAP.
   .
   Active issues
   .
   Sepsis: Suspect sepsis is due to SBP as below, also possibly due to
   pna. Will treat with abx as outlined below, pressors and IVF bolus to
   support BP. Mixed venous O2 sat in ED was 91%, so pRBCs were not
   administered, however hematocrit on admission
   was ~21, and pt was transfused. Hypothermia (current temp 95 with bear
   hugger), hyponatremia, hyperkalemia and hypoglycemia consistent with
   sepsis, but also concerning for adrenal insufficiency. Pt has not
   recently been on steroids and has no other RF for adrenal
   insufficiency.
   - Norepinephrine to titrate to MAP>60; vasopression dc
   - d/c cisatracurium
   - Continuing Zosyn/Clinda/Micafungin per ID recs; dc
ed Vanc
   - Monitor CVP (goal>8; ideal [**10-19**]) and SvO2 (goal>70%)
   - [**Last Name (un) 1398**] stim test without appropriate increase in cortisol; however,
   will hold off on steroids for now.
   - BCx consistent with clostridium perfringens
   - hold CT abdomen given clinical improvement
   .
   Peritonitis: ?SBP but without positive cultures.  Abdominal pain,
   prominent neutrophilia on ascitic fluid diff (17,000 WBC, 87% neuts)
   and significant left-shift on CBC with diff (33% bands) in the setting
   of a history of variceal bleeding are all consistent with SBP. Normally
   would treat with ceftriaxone, but given additional concerns for
   pneumonia will treat with cipro, pip-tazo and vancomycin.
   - Continue Zosyn/Clinda/Micafungin per ID recs
   - f/u GI/Liver recs
   - Albumin 1.5g/kg on day 1 (125g) and 1g/kg (75) on day 3 ([**12-17**]).
   - Hepatobiliary sx recs ([**12-15**]): recommend re-tapping him today.  If his
   WBC is still very high, he may need to be explored.
   - General surgery c/s for possible exploration, note pending
   .
   Respiratory Failure: Pt was intubated in the ED given hypotension,
   concern for developing respiratory failure given tachypnea. ABG in MICU
   indicates elevated PaO2 on current ventilator settings.
   - Maintain FiO2 at 60% for now, then decrease to 50% as tolerated
   - Decrease RR
   - ABG and lactate [**Hospital1 **] (lactate down-trending now)
   - Maintain on ventilator for now given sepsis.
   - Sedation with Fentanyl and Midazolam gtt
   .
   Dyspnea: The differential for the pt's dyspnea includes pneumonia,
   influenza, ascites or CHF. The pt had a left shift on CBC with diff and
   his girlfriend reported that he recently had a "respiratory infection"
   which raises concern for a post-viral pna or bacterial pna. Initial
   read of CXR raised concern for R LL infiltrate, however on final read
   there is no mention of an opacity. Tachypnea likely secondary to
   acidosis.
   - f/u sputum culture
   - ABGs as above
   - Continue ventilator support
   - Attempt to decrease FiO2 as aobe.
   .
   Epistaxis:  ENT consulted, patient s/p bilateral packing.
   - f/u ENT recs; packing removed yesterday. Remainder of packing to be
   removed tomorrow ([**12-18**]).
   .
   Anemia: Pt's recent baseline hematocrit appears to be ~25-30, and was
   21 on admission. Pt was noted to be guaiac positive on exam in ED, and
   had frank blood in NGT. Suspect that pt has chronic macrocytic anemia
   secondary to liver disease, with superimposed acute blood loss anemia
   from variceal bleed or bleeding ulcer. No schistocytes on smear to
   indicate hemolysis, however INR more elevated than in the past, and
   thrombocytopenia is more pronounced. GI did an EGD to evaluate for UGIB
   cause and no bleeding source was found.
   - Pt was on pantoprazole bolus and octreotide gtt for likely variceal
   bleeding: d/c
d now as HCT stable.
   - Transfuse as needed for falling Hct.
   - Continue IV PPI [**Hospital1 **]
   - Daily coags and CBC
   .
   Hepatitis C Cirrhosis: MELD on admission was 27, discriminate function
   was 61. On exam pt is jaundiced. LFT's similar to prior LFT's with the
   exception of bili, which is markedly elevated at 18. Reportedly the pt
   stopped drinking EtOH in [**Month (only) 11**]. Serum EtOH was negative.
   - Hepatology will follow patient
   - Hold lactulose, rifaximin for now, restart when PO's okay
   - Hold nadolol for now given hypotension, pressor requirement
   .
   Thrombocytopenia: Currently plts are 34, which is below baseline.
   Suspect that thrombocytopenia is due to poor synthetic function in the
   setting of liver disease. Pt has chronic epistaxis. Hemolysis is less
   likely.
   - Smear showed: no schistocytes, a few large platelets but many small
   platelets.  Likely bone marrow difficulty with production at the same
   time as it tries to increase production in the setting of platelet
   destruction.
   - Trend plts daily
   - Avoid heparin products in the setting of plt<100, GIB
   .
   Less Active Issues
   .
   Non-anion gap Metabolic Acidosis: pH on ABG 7.29. Pt has a normal anion
   gap in the setting of chronic hyponatremia. Suspect acidosis is
   secondary to lactic acidosis in the setting of sepsis, SBP.  s/p 2
   units PRBC transfusion.
   - frequent ABG's
   - hold maintenance fluids to avoid worsening of acidosis
   - add on alk phos and CEA to ascitic fluid analysis given GI/Liver
   service's concern for perforation
   - f/u renal recs, likely no need for HD now
   .
   Acute Renal Failure:  Patient
s acute renal failure likely [**2-9**] sepsis,
   monitor. F/u renal recs.
   - Now resolved.
   .
   FEN: Bolus IVF prn, replete electrolytes
   Prophylaxis: pneumoboots
   Access: R and L 20-g PIVs, R triple-lumen IJ, a-line
   Code:  Full (discussed with girlfriend)
   Communication: [**Name (NI) **] GF and son
   Contact Info: Girlfriend [**Name (NI) 105**] [**Name (NI) 1309**]  cell: [**Telephone/Fax (1) 9699**] home: [**Telephone/Fax (1) 9771**]
   Son [**Name (NI) **] [**Name (NI) 5320**] [**Telephone/Fax (1) 9701**]
   .
   Disposition: pending clinical improvement, ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-12-13**] 09:15 AM
   Arterial Line - [**2150-12-13**] 10:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2150-12-17 10:31:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure,
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Diagnostic paracentesis yesterday - WBC count 11K in fluid
   24 Hour Events:
 ULTRASOUND - At [**2150-12-16**] 02:00 PM
   abdominal
 PARACENTESIS - At [**2150-12-16**] 03:30 PM
   for diagnostic purposes
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2150-12-16**] 10:07 PM
   Clindamycin - [**2150-12-17**] 04:02 AM
   Piperacillin/Tazobactam (Zosyn) - [**2150-12-17**] 08:08 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-12-17**] 10:05 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2150-12-17**] 10:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 88 (71 - 89) bpm
   BP: 98/52(66) {88/47(60) - 125/63(83)} mmHg
   RR: 15 (13 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.4 kg (admission): 91.7 kg
   Height: 71 Inch
   CVP: 18 (16 - 26)mmHg
   Bladder pressure: 14 (14 - 14) mmHg
   Total In:
                                                                  1,909 mL
                                                                    669 mL
   PO:
   TF:
   IVF:
                                                                  1,111 mL
                                                                    669 mL
   Blood products:
                                                                    798 mL
   Total out:
                                                                  1,073 mL
                                                                    433 mL
   Urine:
                                                                    773 mL
                                                                    213 mL
   NG:
                                                                    300 mL
                                                                    220 mL
   Stool:
   Drains:
   Balance:
                                                                    836 mL
                                                                    236 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 17 cmH2O
   Plateau: 17 cmH2O
   Compliance: 57.1 cmH2O/mL
   SpO2: 94%
   ABG: 7.46/38/68/28/2
   Ve: 8.1 L/min
   PaO2 / FiO2: 113
   Physical Examination
   General Appearance: No acute distress, intubated, sedated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   55 K/uL
   79 mg/dL
   0.8 mg/dL
   28 mEq/L
   4.0 mEq/L
   46 mg/dL
   102 mEq/L
   136 mEq/L
   23.8 %
   9.9 K/uL
        [image002.jpg]
                             [**2150-12-15**]  02:07 AM
                             [**2150-12-15**]  02:25 AM
                             [**2150-12-15**]  04:03 PM
                             [**2150-12-16**]  03:04 AM
                             [**2150-12-16**]  04:09 AM
                             [**2150-12-16**]  05:58 PM
                             [**2150-12-16**]  10:09 PM
                            [**2150-12-17**]  02:56 AM
                            [**2150-12-17**]  03:07 AM
                            [**2150-12-17**]  06:21 AM
   WBC
   13.6
   12.4
   11.9
   9.9
   Hct
   24.1
   24.4
   23.7
   23.8
   Plt
   48
   30
   63
   55
   Cr
   1.2
   0.9
   0.9
   0.8
   TCO2
   25
   24
   27
   28
   29
   28
   Glucose
   149
   56
   78
   82
   79
   Other labs: PT / PTT / INR:27.1/44.7/2.6, CK / CKMB /
   Troponin-T:128/7/0.09, ALT / AST:100/234, Alk Phos / T Bili:73/22.2,
   Amylase / Lipase:81/, D-dimer:[**Numeric Identifier 4697**] ng/mL, Fibrinogen:180 mg/dL, Lactic
   Acid:1.9 mmol/L, Albumin:2.8 g/dL, LDH:325 IU/L, Ca++:9.2 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ANEMIA, CHRONIC
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 THROMBOCYTOPENIA, CHRONIC
 CIRRHOSIS OF LIVER, OTHER
 HEPATITIS OTHER
 ACIDOSIS, METABOLIC
   60 yo man with HCV cirrhosis, here with peritonitis due to c.
   perfingens.
   1. Septic Shock/GPRs:  There has been a lack of improvement in pressor
   requirement over last 24 hrs.  Will get a CTA abd to reeval.  Cont
   micafungin/clinda/zosyn.  Will rediscuss with surgery after CT results.
   2. Respiratory Failure: Unable to bring FIO2 below 0.6.  [**Month (only) 11**] be
   under-PEEPing him - will bring PEEP up to 15.
   3. Oropharyngeal hemorrhage: packing to be D/C'd topday
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-12-13**] 09:15 AM
   Arterial Line - [**2150-12-13**] 10:15 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2150-12-18 07:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Underwent CT abdomen
   - Discontinued Clinda, per ID recs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2150-12-17**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2150-12-18**] 12:03 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2150-12-17**] 10:12 AM
   Pantoprazole (Protonix) - [**2150-12-17**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-12-18**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.4
C (97.6
   HR: 77 (77 - 90) bpm
   BP: 95/50(65) {93/47(63) - 155/79(107)} mmHg
   RR: 18 (11 - 18) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.4 kg (admission): 91.7 kg
   Height: 71 Inch
    CVP: 17 (0 - 21)mmHg
   Total In:
                                                                  2,421 mL
                                                                    253 mL
   PO:
   TF:
   IVF:
                                                                  2,421 mL
                                                                    253 mL
   Blood products:
   Total out:
                                                                  1,318 mL
                                                                    580 mL
   Urine:
                                                                    898 mL
                                                                    380 mL
   NG:
                                                                    420 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  1,103 mL
                                                                   -327 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 19 cmH2O
   Compliance: 57.1 cmH2O/mL
   SpO2: 96%
   ABG: 7.47/41/107/27/5
   Ve: 6.8 L/min
   PaO2 / FiO2: 178
   Physical Examination
   GEN: nad, unresponsive to vocal or tactile stimuli
   CV; RRR, no m/r/g
   PULM; ctab however with ventilator breath sounds  harsher in upper lung
   fields anteriorly
   Abd; distended, soft, nt
   Extr: 2+ edema b/l pedal; jaundice
   Labs / Radiology
   38 K/uL
   9.0 g/dL
   86 mg/dL
   1.2 mg/dL
   27 mEq/L
   3.8 mEq/L
   54 mg/dL
   104 mEq/L
   140 mEq/L
   25.8 %
   10.5 K/uL
        [image002.jpg]
                             [**2150-12-16**]  03:04 AM
                             [**2150-12-16**]  04:09 AM
                             [**2150-12-16**]  05:58 PM
                             [**2150-12-16**]  10:09 PM
                            [**2150-12-17**]  02:56 AM
                            [**2150-12-17**]  03:07 AM
                            [**2150-12-17**]  06:21 AM
                            [**2150-12-17**]  04:42 PM
                            [**2150-12-18**]  02:47 AM
                            [**2150-12-18**]  03:05 AM
   WBC
   12.4
   11.9
   9.9
   10.5
   Hct
   24.4
   23.7
   23.8
   25.8
   Plt
   30
   63
   55
   38
   Cr
   0.9
   0.9
   0.8
   1.2
   TCO2
   27
   28
   29
   28
   29
   31
   Glucose
   78
   82
   79
   86
   Other labs: PT / PTT / INR:30.8/47.5/3.1, CK / CKMB /
   Troponin-T:128/7/0.09, ALT / AST:85/196, Alk Phos / T Bili:84/23.8,
   Amylase / Lipase:81/, D-dimer:[**Numeric Identifier 4697**] ng/mL, Fibrinogen:180 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:2.5 g/dL, LDH:308 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.2 mg/dL
   CT abdomen/pelvis:
   1. Liver cirrhosis with portal hypertension evidenced by ascites and
   many,
   including esophageal, varices.
   2. Indeterminate liver lesion is seen, which is new since the previous
   MRI
   dated [**2150-5-18**], however, is unchanged since previous CT dated
   [**2150-12-13**]. This should be further evaluated with MRI when the patient is
   more
   stable.
   3. High density material lying dependently in the fluid in the pelvis,
   which
   likely is due to a small amount of blood, probably from reccent
   paracentesis.
   4. Multiple poorly defined peripheral low density areas in the spleen,
   which
   is likely due to altered perfusion of the spleen; a finding that has
   been
   present since [**2150-5-8**].
   5. Moderate chronic stenosis of the celiac artery at its origin, with
   the
   enlargement of mild collaterals from the SMA. No evidence of mesenteric
   ischaemia.
   CXR [**12-17**]:
   Mild cardiomegaly is stable. Large bilateral pleural effusions are
   unchanged
   with adjacent atelectasis. Cardiac size is partially obscured by the
   pleural
   parenchymal abnormalities. There is mild pulmonary edema. ET, NG tube
   and
   right IJ catheter remain in place.
   No new micro.
   No AM CXR
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ANEMIA, CHRONIC
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 THROMBOCYTOPENIA, CHRONIC
 CIRRHOSIS OF LIVER, OTHER
 HEPATITIS OTHER
 ACIDOSIS, METABOLIC
   60 year old man with history of hepatitis C (s/p interferon rx with no
   response), cirrhosis, esophageal varices and hyponatremia admitted with
   dyspnea and diffuse abdominal pain, found to have peritonitis as well
   as a possibility of CAP.
   .
   Sepsis: Suspect sepsis is due to SBP as below, also possibly due to
   pna. Will treat with abx as outlined below, pressors and IVF bolus to
   support BP. Mixed venous O2 sat in ED was 91%, so pRBCs were not
   administered, however hematocrit on admission
   was ~21, and pt was transfused. Hypothermia (current temp 95 with bear
   hugger), hyponatremia, hyperkalemia and hypoglycemia consistent with
   sepsis, but also concerning for adrenal insufficiency. Pt has not
   recently been on steroids and has no other RF for adrenal
   insufficiency.  BCx grew Clostridium Perfringens [**12-13**].  d/c
   cisatracurium. s/p CT abdomen on [**12-17**].
   - Continuing Zosyn & Micafungin per ID recs; dc
ed Vanc and clindamycin
   - Norepinephrine to titrate to MAP>60; vasopression dc
   - Monitor CVP (goal [**10-19**]) and SvO2 (goal>70%)
   - [**Last Name (un) 1398**] stim test without appropriate increase in cortisol; start
   Hydrocort IV 50mg q6h today ([**12-18**])
   .
   Peritonitis: ?SBP but without positive cultures.  Abdominal pain,
   prominent neutrophilia on ascitic fluid diff (17,000 WBC, 87% neuts)
   and significant left-shift on CBC with diff (33% bands) in the setting
   of a history of variceal bleeding are all consistent with SBP. Normally
   would treat with ceftriaxone, but given additional concerns for
   pneumonia will treat with cipro, pip-tazo and vancomycin. Hepatobiliary
   sx recs ([**12-15**]): recommend re-tapping him today.  If his WBC is still
   very high, he may need to be explored.  WBC high but improved from
   prior, obtaining CT scan to further evaluate, as outlined above.
   - Continue Zosyn/Clinda/Micafungin per ID recs
   - f/u GI/Liver recs
   - f/u general surgery recs
   .
   Dyspnea/Respiratory Failure: Pt was intubated in the ED given
   hypotension, concern for developing respiratory failure given
   tachypnea. ABG in MICU indicates elevated PaO2 on current ventilator
   settings.  The differential for the pt's dyspnea includes pneumonia,
   influenza, ascites or CHF. The pt had a left shift on CBC with diff and
   his girlfriend reported that he recently had a "respiratory infection"
   which raises concern for a post-viral pna or bacterial pna. Initial
   read of CXR raised concern for R LL infiltrate, however on final read
   there is no mention of an opacity. Tachypnea likely secondary to
   acidosis.  Also evidence of volume overload and CHF given edema, CXR
   consistent with fluid overload, and elevated CVP.
   - Consider Lasix diuresis tomorrow for volume overload, hold for now
   given had IV contrast dye load from CT scan on [**12-17**] so want to protect
   kidneys
   - Maintain on ventilator; Decrease FiO2, keep PEEP steady as given
   abdominal distention feel he needs this PEEP level.
   - ABG and lactate daily (lactate down-trending now)
   - Change from fentanyl and midazolam (concern with ARF that these
   medications are going to not be cleared for a while and may potentiate
   AMS as well as ileus); change to propofol
   - f/u sputum culture
   .
   Epistaxis:  ENT consulted, patient s/p bilateral packing.
   - f/u ENT recs
   - Give FFP prior to packing removal today ([**12-18**]) by ENT
   .
   Anemia: Pt's recent baseline hematocrit appears to be ~25-30, and was
   21 on admission. Pt was noted to be guaiac positive on exam in ED, and
   had frank blood in NGT. Suspect that pt has chronic macrocytic anemia
   secondary to liver disease, with superimposed acute blood loss anemia
   from variceal bleed or bleeding ulcer. No schistocytes on smear to
   indicate hemolysis, however INR more elevated than in the past, and
   thrombocytopenia is more pronounced. GI did an EGD to evaluate for UGIB
   cause and no bleeding source was found.  Pt was on pantoprazole bolus
   and octreotide gtt for likely variceal bleeding: d/c
d now as HCT
   stable.
   - Continue IV PPI [**Hospital1 **]
   - Daily coags and CBC; Transfuse as needed for falling Hct.
   .
   Hepatitis C Cirrhosis: MELD on admission was 27, discriminate function
   was 61. On exam pt is jaundiced. LFT's similar to prior LFT's with the
   exception of bili, which is markedly elevated at 18. Reportedly the pt
   stopped drinking EtOH in [**Month (only) 11**]. Serum EtOH was negative.
   - Hepatology will follow patient
   - Hold lactulose, rifaximin for now, restart when PO's okay
   - Hold nadolol for now given hypotension, pressor requirement
   .
   Less Active Issues
   .
   Thrombocytopenia: Currently plts are 34, which is below baseline.
   Suspect that thrombocytopenia is due to poor synthetic function in the
   setting of liver disease. Pt has chronic epistaxis. Hemolysis is less
   likely.  Smear showed: no schistocytes, a few large platelets but many
   small platelets.  Likely bone marrow difficulty with production at the
   same time as it tries to increase production in the setting of platelet
   destruction.
   - Trend plts daily
   - Avoid heparin products in the setting of plt<100, GIB
   .
   Non-anion gap Metabolic Acidosis: Resolved. pH on ABG 7.29. Pt has a
   normal anion gap in the setting of chronic hyponatremia. Suspect
   acidosis is secondary to lactic acidosis in the setting of sepsis,
   SBP.  s/p 2 units PRBC transfusion.
   - frequent ABG's
   - hold maintenance fluids to avoid worsening of acidosis
   - add on alk phos and CEA to ascitic fluid analysis given GI/Liver
   service's concern for perforation
   - f/u renal recs, likely no need for HD now
   .
   Acute Renal Failure:  Patient
s acute renal failure likely [**2-9**] sepsis,
   monitor. F/u renal recs.
   - Now resolved.
   - s/p IV contrast dye load on [**12-17**], watch Cr and hold on diuresis.
   .
   FEN: Hold on IVF today given peripheral edema, replete electrolytes
   Prophylaxis: pneumoboots
   Access: R and L 20-g PIVs, R triple-lumen IJ, a-line
   Code:  Full (discussed with girlfriend)
   Communication: [**Name (NI) **] GF and son
   Contact Info: Girlfriend [**Name (NI) 105**] [**Name (NI) 1309**]  cell: [**Telephone/Fax (1) 9699**] home: [**Telephone/Fax (1) 9771**]
   Son [**Name (NI) **] [**Name (NI) 5320**] [**Telephone/Fax (1) 9701**]
   .
   Disposition: pending clinical improvement, ICU for now
   ICU Care
   Lines:
   Multi Lumen - [**2150-12-13**] 09:15 AM
   Arterial Line - [**2150-12-13**] 10:15 AM
   20 Gauge - [**2150-12-17**] 12:29 PM

2150-12-18 09:40:00 Physician Attending Progress Note
Chief Complaint: C. perfringens peritonitis, Septic shock, respiratory
   failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   On 0.08 of levophed
   24 Hour Events:
   CTA abd yesterday with no evidence of bowel pathology.  There was a
   stenosis of the celiac artery detected.
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2150-12-17**] 12:02 PM
   Micafungin - [**2150-12-17**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2150-12-18**] 08:00 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2150-12-17**] 10:12 AM
   Pantoprazole (Protonix) - [**2150-12-17**] 10:00 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2150-12-18**] 09:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.1
C (96.9
   HR: 83 (77 - 90) bpm
   BP: 108/53(71) {95/47(64) - 155/79(107)} mmHg
   RR: 16 (11 - 18) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.4 kg (admission): 91.7 kg
   Height: 71 Inch
   CVP: 16 (0 - 18)mmHg
   Total In:
                                                                  2,421 mL
                                                                    376 mL
   PO:
   TF:
   IVF:
                                                                  2,421 mL
                                                                    376 mL
   Blood products:
   Total out:
                                                                  1,318 mL
                                                                    650 mL
   Urine:
                                                                    898 mL
                                                                    450 mL
   NG:
                                                                    420 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  1,103 mL
                                                                   -274 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 22 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 96%
   ABG: 7.47/41/107/27/5
   Ve: 7.5 L/min
   PaO2 / FiO2: 178
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Non-tender, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   38 K/uL
   86 mg/dL
   1.2 mg/dL
   27 mEq/L
   3.8 mEq/L
   54 mg/dL
   104 mEq/L
   140 mEq/L
   25.8 %
   10.5 K/uL
        [image002.jpg]
                             [**2150-12-16**]  03:04 AM
                             [**2150-12-16**]  04:09 AM
                             [**2150-12-16**]  05:58 PM
                             [**2150-12-16**]  10:09 PM
                            [**2150-12-17**]  02:56 AM
                            [**2150-12-17**]  03:07 AM
                            [**2150-12-17**]  06:21 AM
                            [**2150-12-17**]  04:42 PM
                            [**2150-12-18**]  02:47 AM
                            [**2150-12-18**]  03:05 AM
   WBC
   12.4
   11.9
   9.9
   10.5
   Hct
   24.4
   23.7
   23.8
   25.8
   Plt
   30
   63
   55
   38
   Cr
   0.9
   0.9
   0.8
   1.2
   TCO2
   27
   28
   29
   28
   29
   31
   Glucose
   78
   82
   79
   86
   Other labs: PT / PTT / INR:30.8/47.5/3.1, CK / CKMB /
   Troponin-T:128/7/0.09, ALT / AST:85/196, Alk Phos / T Bili:84/23.8,
   Amylase / Lipase:81/, D-dimer:[**Numeric Identifier 4697**] ng/mL, Fibrinogen:180 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:2.5 g/dL, LDH:308 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ANEMIA, CHRONIC
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 THROMBOCYTOPENIA, CHRONIC
 CIRRHOSIS OF LIVER, OTHER
 HEPATITIS OTHER
 ACIDOSIS, METABOLIC
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ANEMIA, CHRONIC
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 THROMBOCYTOPENIA, CHRONIC
 CIRRHOSIS OF LIVER, OTHER
 HEPATITIS OTHER
 ACIDOSIS, METABOLIC
   60 yo man with HCV cirrhosis, here with peritonitis due to c.
   perfingens.
   1. Septic Shock/GPRs: Continues to have levophed requirement.  Given
   [**First Name9 (NamePattern2) 9814**] [**Last Name (un) **] stim results, will start hydrocort 50mg q6hrs.  CTA abd
   reassusring for no ongoing severe intrabdominal pathology driving
   hypotension.  Cont micafungin/clinda/zosyn.
   2. Respiratory Failure: PEEP up to 12 --> will wean FIO2 to 50%.
   3. Oropharyngeal hemorrhage: ENT to D/C nasal packing today
   4. Acute renal failure: Cr up today.  Will hold on any attempt to
   diurese.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-12-13**] 09:15 AM
   Arterial Line - [**2150-12-13**] 10:15 AM
   20 Gauge - [**2150-12-17**] 12:29 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2150-12-19 07:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: cirrhosis, peritonititis, CAP
   24 Hour Events:
   - ENT, packing removed, continue epistaxis precautions, appointment
   with Dr. [**First Name (STitle) 4381**] (ENT, ORL) 1 week post discharge
   - girlfriend updated
   - [**Name2 (NI) **] [**Name (NI) 9829**] this AM, increased FiO2 to 70% and PEEP 12->15, with
   improvement.  Now, PEEP decreased back to 12, but Fi02 still 70%.
   - Still on Levophed
   - All pressors off x 24 hours
 pt still unresponsive except to painful
   stim
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2150-12-17**] 12:02 PM
   Micafungin - [**2150-12-18**] 10:19 PM
   Piperacillin/Tazobactam (Zosyn) - [**2150-12-19**] 12:00 AM
   Infusions:
   Levophed drip
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-12-18**] 11:00 PM
   Midazolam (Versed) - [**2150-12-19**] 03:30 AM
   Flowsheet Data as of  [**2150-12-19**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 85 (72 - 94) bpm
   BP: 116/54(74) {74/38(50) - 141/68(93)} mmHg
   RR: 15 (0 - 18) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.1 kg (admission): 91.7 kg
   Height: 71 Inch
    CVP: 15 (14 - 19)mmHg
   Total In:
                                                                  1,432 mL
                                                                    445 mL
   PO:
   TF:
   IVF:
                                                                    858 mL
                                                                    445 mL
   Blood products:
                                                                    574 mL
   Total out:
                                                                  1,780 mL
                                                                    465 mL
   Urine:
                                                                  1,380 mL
                                                                    265 mL
   NG:
                                                                    400 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                   -348 mL
                                                                    -20 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 21 cmH2O
   Plateau: 24 cmH2O
   SpO2: 95%
   ABG: 7.44/44/92.[**Numeric Identifier 641**]/27/4
   Ve: 8 L/min
   PaO2 / FiO2: 133
   Physical Examination
   General Appearance: intubated, does not follow commands or track, NAD,
   PERRL
   Cardiovascular: RRR, no m/g/r
   Respiratory / Chest: CTAB, no wheezes/rales, equal BS b/l
   Abdominal: Soft, NT, moderately distended/obese; rare BS
   Extremities: trace pitting edema b/l
   Labs / Radiology
   34 K/uL
   9.6 g/dL
   120 mg/dL
   1.5 mg/dL
   27 mEq/L
   4.6 mEq/L
   59 mg/dL
   104 mEq/L
   141 mEq/L
   27.4 %
   8.3 K/uL
        [image002.jpg]
                             [**2150-12-16**]  05:58 PM
                             [**2150-12-16**]  10:09 PM
                            [**2150-12-17**]  02:56 AM
                            [**2150-12-17**]  03:07 AM
                            [**2150-12-17**]  06:21 AM
                            [**2150-12-17**]  04:42 PM
                            [**2150-12-18**]  02:47 AM
                            [**2150-12-18**]  03:05 AM
                            [**2150-12-19**]  02:40 AM
                            [**2150-12-19**]  04:06 AM
   WBC
   11.9
   9.9
   10.5
   8.3
   Hct
   23.7
   23.8
   25.8
   27.4
   Plt
   63
   55
   38
   34
   Cr
   0.9
   0.8
   1.2
   1.5
   TCO2
   28
   29
   28
   29
   31
   31
   Glucose
   82
   79
   86
   120
   Other labs: PT / PTT / INR:31.7/48.4/3.2, CK / CKMB /
   Troponin-T:128/7/0.09, ALT / AST:70/153, Alk Phos / T Bili:90/23.5,
   Amylase / Lipase:81/34, D-dimer:[**Numeric Identifier 4697**] ng/mL, Fibrinogen:142 mg/dL,
   Lactic Acid:1.7 mmol/L, Albumin:2.5 g/dL, LDH:295 IU/L, Ca++:9.5 mg/dL,
   Mg++:2.5 mg/dL, PO4:5.8 mg/dL
   Imaging: CXR [**12-19**] ? slightly improved bilat infiltrates
   Microbiology: [**12-16**] peritoneal fluid - prelim no growth
   [**12-14**], [**12-15**] b cxrs - pending
   [**12-13**] BLOOD CULTURE       CLOSTRIDIUM PERFRINGENS
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ANEMIA, CHRONIC
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 THROMBOCYTOPENIA, CHRONIC
 CIRRHOSIS OF LIVER, OTHER
 HEPATITIS OTHER
 ACIDOSIS, METABOLIC
   60 year old man with history of hepatitis C (s/p interferon rx with no
   response), cirrhosis, esophageal varices and hyponatremia admitted with
   dyspnea and diffuse abdominal pain, found to have peritonitis as well
   as a possibility of CAP.
   .
   Sepsis: Suspect sepsis is due to SBP as below, also possibly due to
   pna. Will treat with abx as outlined below, pressors and IVF bolus to
   support BP. Mixed venous O2 sat in ED was 91%, so pRBCs were not
   administered, however hematocrit on admission
   was ~21, and pt was transfused. Hypothermia (current temp 95 with bear
   hugger), hyponatremia, hyperkalemia and hypoglycemia consistent with
   sepsis, but also concerning for adrenal insufficiency. Pt has not
   recently been on steroids and has no other RF for adrenal
   insufficiency.  BCx grew Clostridium Perfringens [**12-13**].  d/c
   cisatracurium. s/p CT abdomen on [**12-17**].
   - Continuing Zosyn & Micafungin per ID recs; dc
ed Vanc and clindamycin
   - Norepinephrine to titrate to MAP>60; vasopression dc
 pressors
   off
   - Monitor CVP (goal [**10-19**]) and SvO2 (goal>70%)
   - [**Last Name (un) 1398**] stim test without appropriate increase in cortisol; start
   Hydrocort IV 50mg q6h today ([**12-18**])
   .
   Peritonitis: ?SBP but without positive cultures.  Abdominal pain,
   prominent neutrophilia on ascitic fluid diff (17,000 WBC, 87% neuts)
   and significant left-shift on CBC with diff (33% bands) in the setting
   of a history of variceal bleeding are all consistent with SBP. Normally
   would treat with ceftriaxone, but given additional concerns for
   pneumonia will treat with cipro, pip-tazo and vancomycin. Hepatobiliary
   sx recs ([**12-15**]): recommend re-tapping him today.  If his WBC is still
   very high, he may need to be explored.  WBC high but improved from
   prior, obtaining CT scan to further evaluate, as outlined above.
   - Continue Zosyn /Micafungin per ID recs
   - f/u GI/Liver recs
   - f/u general surgery recs
   .
   Dyspnea/Respiratory Failure: Pt was intubated in the ED given
   hypotension, concern for developing respiratory failure given
   tachypnea. ABG in MICU indicates elevated PaO2 on current ventilator
   settings.  The differential for the pt's dyspnea includes pneumonia,
   influenza, ascites or CHF. The pt had a left shift on CBC with diff and
   his girlfriend reported that he recently had a "respiratory infection"
   which raises concern for a post-viral pna or bacterial pna. Initial
   read of CXR raised concern for R LL infiltrate, however on final read
   there is no mention of an opacity. Tachypnea likely secondary to
   acidosis.  Also evidence of volume overload and CHF given edema, CXR
   consistent with fluid overload, and elevated CVP.
   - hold for diuresis for now given had IV contrast dye load from CT scan
   on [**12-17**] and has incr Cr over last 2 days
   -  Maintain on ventilator; Decrease FiO2, try to increase PEEP as given
   abdominal distention feel he needs a lot of PEEP.
   - Place esophageal balloon
   - ABG and lactate daily (lactate down-trending now)
   - All sedation off x 24 hours on [**12-19**]
   - f/u sputum culture
   .
   Acute Renal Failure:  Patient initially had elevated Cr, thought to be
   due to sepsis which resolved).  Pt
s creatinine has been rising again x
   2 days (during this hospitalization, Cr 1.7 -> 0.8 -> today 1.5
   [**12-19**]).  ARF most likely due to aggressive diuresis in last several
   days plus IV contrast load for CT abd.  However, hepatorenal syndrome
   is also a possibility.
   - F/u renal/hepatology recs.
   - will give IV albumin 1g/kg.
   - monitor UOP closely
   .
   Altered mental status: Pt is still with decreased mental status despite
   being off of sedation x 1 day on [**12-19**]. Neurologic exam difficult, but
   no obvious deficit. The most likely etiology at this point is stage 4
   hepatic encephalopathy, given patient
s severe liver disease and rising
   bilirubin.
   - Restart lactulose today.  Titrate to 3 BMs daily.
   - Can add back Rifaxamin if no improvement with lactulose alone.
   - Can consider head CT, and additional AMS w/u if no improvement with
   tx of hepatic encephalopathy.
   .
   Epistaxis:  ENT consulted, patient s/p bilateral packing.
   - f/u ENT recs
   - cont Epistaxis precautions
   .
   Anemia: Pt's recent baseline hematocrit appears to be ~25-30, and was
   21 on admission. Pt was noted to be guaiac positive on exam in ED, and
   had frank blood in NGT. Suspect that pt has chronic macrocytic anemia
   secondary to liver disease, with superimposed acute blood loss anemia
   from variceal bleed or bleeding ulcer. No schistocytes on smear to
   indicate hemolysis, however INR more elevated than in the past, and
   thrombocytopenia is more pronounced. GI did an EGD to evaluate for UGIB
   cause and no bleeding source was found.  Pt was on pantoprazole bolus
   and octreotide gtt for likely variceal bleeding: d/c
d now as HCT
   stable.
   - Continue IV PPI [**Hospital1 **]
   - Daily coags and CBC; Transfuse as needed for falling Hct.
   .
   Hepatitis C Cirrhosis: MELD on admission was 27, discriminate function
   was 61. On exam pt is jaundiced. LFT's similar to prior LFT's with the
   exception of bili, which is markedly elevated at 18. Reportedly the pt
   stopped drinking EtOH in [**Month (only) 11**]. Serum EtOH was negative.
   - F/u Hepatology recs
   - Restarting lactulose today
   - Hold nadolol for now given hypotension, pressor requirement
   .
   Less Active Issues
   .
   Thrombocytopenia: Currently plts are 34, which is below baseline.
   Suspect that thrombocytopenia is due to poor synthetic function in the
   setting of liver disease. Pt has chronic epistaxis. Hemolysis is less
   likely.  Smear showed: no schistocytes, a few large platelets but many
   small platelets.  Likely bone marrow difficulty with production at the
   same time as it tries to increase production in the setting of platelet
   destruction.
   - Trend plts daily
   - Avoid heparin products in the setting of plt<100, GIB
   .
   Non-anion gap Metabolic Acidosis: Resolved. pH on ABG 7.29. Pt has a
   normal anion gap in the setting of chronic hyponatremia. Suspect
   acidosis is secondary to lactic acidosis in the setting of sepsis,
   SBP.  s/p 2 units PRBC transfusion.
   - frequent ABG's
   - hold maintenance fluids to avoid worsening of acidosis
   - add on alk phos and CEA to ascitic fluid analysis given GI/Liver
   service's concern for perforation
   - f/u renal recs, likely no need for HD now
   .
   FEN: Hold on IVF today given peripheral edema, replete electrolytes
   Prophylaxis: pneumoboots
   Access: R and L 20-g PIVs, R triple-lumen IJ, a-line
   Code:  Full (discussed with girlfriend)
   Communication: [**Name (NI) **] GF and son
   Contact Info: Girlfriend [**Name (NI) 105**] [**Name (NI) 1309**]  cell: [**Telephone/Fax (1) 9699**] home: [**Telephone/Fax (1) 9771**]
   Son [**Name (NI) **] [**Name (NI) 5320**] [**Telephone/Fax (1) 9701**]
   .
   Disposition: pending clinical improvement, ICU for now

2150-12-19 10:31:00 Physician Attending Progress Note
Chief Complaint: C. perfringens peritonitis, Septi shock, respiratory
   failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Remains on 0.1 of levophed
   24 Hour Events:
   FIO2 increased to .7 overnight for desat
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2150-12-17**] 12:02 PM
   Micafungin - [**2150-12-18**] 10:19 PM
   Piperacillin/Tazobactam (Zosyn) - [**2150-12-19**] 08:08 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2150-12-19**] 03:30 AM
   Pantoprazole (Protonix) - [**2150-12-19**] 10:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2150-12-19**] 10:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.6
   HR: 85 (72 - 94) bpm
   BP: 105/46(64) {74/38(50) - 141/68(93)} mmHg
   RR: 17 (0 - 20) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.1 kg (admission): 91.7 kg
   Height: 71 Inch
   CVP: 8 (8 - 19)mmHg
   Total In:
                                                                  1,432 mL
                                                                    591 mL
   PO:
   TF:
   IVF:
                                                                    858 mL
                                                                    591 mL
   Blood products:
                                                                    574 mL
   Total out:
                                                                  1,780 mL
                                                                    565 mL
   Urine:
                                                                  1,380 mL
                                                                    365 mL
   NG:
                                                                    400 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                   -348 mL
                                                                     26 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   SpO2: 95%
   ABG: 7.44/44/92.[**Numeric Identifier 641**]/27/4
   Ve: 8.1 L/min
   PaO2 / FiO2: 133
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Non-tender, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   34 K/uL
   120 mg/dL
   1.5 mg/dL
   27 mEq/L
   4.6 mEq/L
   59 mg/dL
   104 mEq/L
   141 mEq/L
   27.4 %
   8.3 K/uL
        [image002.jpg]
                             [**2150-12-16**]  05:58 PM
                             [**2150-12-16**]  10:09 PM
                            [**2150-12-17**]  02:56 AM
                            [**2150-12-17**]  03:07 AM
                            [**2150-12-17**]  06:21 AM
                            [**2150-12-17**]  04:42 PM
                            [**2150-12-18**]  02:47 AM
                            [**2150-12-18**]  03:05 AM
                            [**2150-12-19**]  02:40 AM
                            [**2150-12-19**]  04:06 AM
   WBC
   11.9
   9.9
   10.5
   8.3
   Hct
   23.7
   23.8
   25.8
   27.4
   Plt
   63
   55
   38
   34
   Cr
   0.9
   0.8
   1.2
   1.5
   TCO2
   28
   29
   28
   29
   31
   31
   Glucose
   82
   79
   86
   120
   Other labs: PT / PTT / INR:31.7/48.4/3.2, CK / CKMB /
   Troponin-T:128/7/0.09, ALT / AST:70/153, Alk Phos / T Bili:90/23.5,
   Amylase / Lipase:81/34, D-dimer:[**Numeric Identifier 4697**] ng/mL, Fibrinogen:142 mg/dL,
   Lactic Acid:1.7 mmol/L, Albumin:2.5 g/dL, LDH:295 IU/L, Ca++:9.5 mg/dL,
   Mg++:2.5 mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ANEMIA, CHRONIC
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 THROMBOCYTOPENIA, CHRONIC
 CIRRHOSIS OF LIVER, OTHER
 HEPATITIS OTHER
 ACIDOSIS, METABOLIC
   60 yo man with HCV cirrhosis, here with peritonitis due to c.
   perfingens.
   1. Septic Shock/GPRs: Continues to have levophed requirement.  Cont
   hydrocort 50mg q6hrs.  Cont micafungin/zosyn.  Will try albumin
   challenge today
   2. Respiratory Failure: Likely being under-PEEP's.  Will do esophageal
   balloon study to optimize PEEP and try to decrease FIO2.
   3. Cirrhosis: Bilirubin continues to be high.  Restart lactulose
   4. Acute renal failure: Cr continues to rise.  Had dye load 2 days
   ago.  Concern over heptorenal.  Send urine lytes.  Albumin challenge as
   above.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-12-13**] 09:15 AM
   Arterial Line - [**2150-12-13**] 10:15 AM
   20 Gauge - [**2150-12-17**] 12:29 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 34 minutes
   Patient is critically ill

2150-12-20 08:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - ARF: Concern for over-diuresis/contrast load versus hepatorenal
   syndrome. Urine lytes showed urine Na < 10, Cr 81 (FENa 0.1%); urine
   eos Negative. Gave pt albumin 1g/kg with increased UOP and improved BPs
   (weaned neo from 0.1 to 0.04).  Also started octreotide drip.  Can
   consider starting Midodrine, pending hepatology recs for hepatorenal
   syndrome.
   - AMS: started patient on lactulose. -- BMs.
   - Respiratory failure: placed esophageal balloon.
   - ID: dc'ed micafungin per ID recs.
   - Transplant surgery: recommends repeat diagnostic paracentesis in AM.
   trying to evaluate whether the patient is moving in the right direction
   and whether there is a small bowel perf not seen on CT abd for which
   ex-lap is indicated (although pt would be an extremely poor surgical
   candiate). Repeat lactate 2.9 -> 2.2 (up from 1.7 on [**12-17**]).
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2150-12-17**] 12:02 PM
   Micafungin - [**2150-12-18**] 10:19 PM
   Piperacillin/Tazobactam (Zosyn) - [**2150-12-20**] 12:10 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Octreotide - 25 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2150-12-19**] 11:45 AM
   Pantoprazole (Protonix) - [**2150-12-19**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-12-20**] 08:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 85 (76 - 96) bpm
   BP: 122/59(80) {98/45(62) - 156/81(111)} mmHg
   RR: 17 (4 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.3 kg (admission): 91.7 kg
   Height: 71 Inch
    CVP: 17 (8 - 22)mmHg
   Total In:
                                                                  1,469 mL
                                                                    212 mL
   PO:
   TF:
   IVF:
                                                                  1,017 mL
                                                                    204 mL
   Blood products:
                                                                    392 mL
                                                                      8 mL
   Total out:
                                                                    910 mL
                                                                    277 mL
   Urine:
                                                                    710 mL
                                                                    277 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                    559 mL
                                                                    -65 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 24 cmH2O
   SpO2: 96%
   ABG: 7.42/42/91.[**Numeric Identifier **]/27/2
   Ve: 6.2 L/min
   PaO2 / FiO2: 184
   Physical Examination
   General Appearance: intubated, does not follow commands or track, NAD
   Cardiovascular: RRR, GII systolic murmer at LSB and apex
   Pulm: CTAB, no wheezes/rales, equal BS b/l
   Abdominal: Soft, NT, distended and tense; quiet BS
   Extremities: 1+ pitting edema b/l
   Labs / Radiology
   37 K/uL
   8.1 g/dL
   163 mg/dL
   1.5 mg/dL
   27 mEq/L
   4.4 mEq/L
   79 mg/dL
   102 mEq/L
   141 mEq/L
   23.4 %
   7.8 K/uL
        [image002.jpg]
                            [**2150-12-17**]  06:21 AM
                            [**2150-12-17**]  04:42 PM
                            [**2150-12-18**]  02:47 AM
                            [**2150-12-18**]  03:05 AM
                            [**2150-12-19**]  02:40 AM
                            [**2150-12-19**]  04:06 AM
                            [**2150-12-19**]  04:35 PM
                            [**2150-12-19**]  06:18 PM
                            [**2150-12-19**]  10:05 PM
                            [**2150-12-20**]  02:27 AM
   WBC
   10.5
   8.3
   7.8
   Hct
   25.8
   27.4
   23.4
   Plt
   38
   34
   37
   Cr
   1.2
   1.5
   1.5
   TCO2
   28
   29
   31
   31
   31
   30
   28
   Glucose
   86
   120
   163
   Other labs: PT / PTT / INR:42.8/55.8/4.5, CK / CKMB /
   Troponin-T:128/7/0.09, ALT / AST:55/115, Alk Phos / T Bili:70/24.5,
   Amylase / Lipase:81/34, Differential-Neuts:69.5 %, Lymph:22.2 %,
   Mono:7.1 %, Eos:0.4 %, D-dimer:[**Numeric Identifier 4697**] ng/mL, Fibrinogen:132 mg/dL,
   Lactic Acid:2.2 mmol/L, Albumin:3.6 g/dL, LDH:254 IU/L, Ca++:10.1
   mg/dL, Mg++:2.9 mg/dL, PO4:6.5 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ANEMIA, CHRONIC
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 THROMBOCYTOPENIA, CHRONIC
 CIRRHOSIS OF LIVER, OTHER
 HEPATITIS OTHER
 ACIDOSIS, METABOLIC
   60 year old man with history of hepatitis C (s/p interferon rx with no
   response), cirrhosis, esophageal varices and hyponatremia admitted with
   dyspnea and diffuse abdominal pain, found to have peritonitis as well
   as a possibility of CAP.
   .
   Sepsis: Suspect sepsis is due to SBP as below, also possibly due to
   pna. Will treat with abx as outlined below, pressors and IVF bolus to
   support BP. Mixed venous O2 sat in ED was 91%, so pRBCs were not
   administered, however hematocrit on admission
   was ~21, and pt was transfused. Hypothermia (current temp 95 with bear
   hugger), hyponatremia, hyperkalemia and hypoglycemia consistent with
   sepsis, but also concerning for adrenal insufficiency. Pt has not
   recently been on steroids and has no other RF for adrenal
   insufficiency.  BCx grew Clostridium Perfringens [**12-13**].  d/c
   cisatracurium. s/p CT abdomen on [**12-17**].
   - Continuing Zosyn per ID recs; dc
ed Vanc, Clindamycin, Micafungin
   - Attempt to wean Norepinephrine to titrate to MAP>60; vasopression
   dc
   - Start Midodrine per ID recs to help wean off pressors
   - Continue Octreotide
   - [**Last Name (un) 1398**] stim test without appropriate increase in cortisol; started
   Hydrocort IV 50mg q6h today ([**12-18**]).  Wean [**12-20**] to Hydrocort IV 25mg
   q6h.
   - Monitor CVP (goal [**10-19**])
   .
   Peritonitis: ?SBP but without positive cultures.  Abdominal pain,
   prominent neutrophilia on ascitic fluid diff (17,000 WBC, 87% neuts)
   and significant left-shift on CBC with diff (33% bands) in the setting
   of a history of variceal bleeding are all consistent with SBP. Normally
   would treat with ceftriaxone, but given additional concerns for
   pneumonia will treat with cipro, pip-tazo and vancomycin. Hepatobiliary
   sx recs ([**12-15**]): recommend re-tapping him today.  If his WBC is still
   very high, he may need to be explored.  WBC high but improved from
   prior, obtaining CT scan to further evaluate, as outlined above.
   - Continue Zosyn as above
   - f/u GI/Liver recs
   - f/u ID recs
   - f/u transplant surgery recs
   - Consider repeat paracentesis to trend WBC count and abdominal
   pressure preventing lung expansion
   .
   Dyspnea/Respiratory Failure: Pt was intubated in the ED given
   hypotension, concern for developing respiratory failure given
   tachypnea. ABG in MICU indicates elevated PaO2 on current ventilator
   settings.  The differential for the pt's dyspnea includes pneumonia,
   influenza, ascites or CHF. The pt had a left shift on CBC with diff and
   his girlfriend reported that he recently had a "respiratory infection"
   which raises concern for a post-viral pna or bacterial pna. Initial
   read of CXR raised concern for R LL infiltrate, however on final read
   there is no mention of an opacity. Tachypnea likely secondary to
   acidosis.  Also evidence of volume overload and CHF given edema, CXR
   consistent with fluid overload, and elevated CVP.
   -  Maintain on ventilator; Decrease FiO2 from 50% to 40% today.
   Increased PEEP [**12-19**] given abdominal distention causing likely lung
   compression.
   - Esophageal balloon in place
   - ABG and lactate daily (lactate down-trending now)
   - All sedation off on [**12-19**]
   - f/u sputum culture
   - hold for diuresis for now given had IV contrast dye load from CT scan
   on [**12-17**] and has incr Cr over last 2 days
   .
   Acute Renal Failure:  Patient initially had elevated Cr, thought to be
   due to sepsis which resolved).  Pt
s creatinine has been rising again x
   2 days (during this hospitalization, Cr 1.7 -> 0.8 -> today 1.5
   [**12-19**]).  ARF most likely due to aggressive diuresis in last several
   days plus IV contrast load for CT abd.  However, hepatorenal syndrome
   is also a possibility, given Midodrine, Octreotide, Albumin.
   - F/u renal recs.
   - f/u hepatology recs
   - IVF 1L D5W today for free water
   - IV albumin 50g if UOP decreases
   - monitor UOP closely
   .
   Altered mental status: Pt is still with decreased mental status despite
   being off of sedation x 1 day on [**12-19**]. Neurologic exam difficult, but
   no obvious deficit. The most likely etiology at this point is stage 4
   hepatic encephalopathy, given patient
s severe liver disease and rising
   bilirubin.
   - Titrate up Lactulose to 3 BMs daily.
   - Re-start Rifaxamin
   - Can consider head CT, and additional AMS w/u if no improvement with
   tx of hepatic encephalopathy.
   .
   Epistaxis:  ENT consulted, patient s/p bilateral packing.
   - f/u ENT recs
   - cont Epistaxis precautions
   .
   Anemia: Pt's recent baseline hematocrit appears to be ~25-30, and was
   21 on admission. Pt was noted to be guaiac positive on exam in ED, and
   had frank blood in NGT. Suspect that pt has chronic macrocytic anemia
   secondary to liver disease, with superimposed acute blood loss anemia
   from variceal bleed or bleeding ulcer. No schistocytes on smear to
   indicate hemolysis, however INR more elevated than in the past, and
   thrombocytopenia is more pronounced. GI did an EGD to evaluate for UGIB
   cause and no bleeding source was found.  Pt was on pantoprazole bolus
   and octreotide gtt for likely variceal bleeding: d/c
d now as HCT
   stable.
   - Continue IV PPI [**Hospital1 **]
   - [**Hospital1 **] coags and CBC; Transfuse as needed for falling Hct.
   - 2 units FFP prior to any procedures (paracentesis)
   .
   Hepatitis C Cirrhosis: MELD on admission was 27, discriminate function
   was 61. On exam pt is jaundiced. LFT's similar to prior LFT's with the
   exception of bili, which is markedly elevated at 18. Reportedly the pt
   stopped drinking EtOH in [**Month (only) 11**]. Serum EtOH was negative.
   - F/u Hepatology recs
   - lactulose and Rifaximin
   - Hold nadolol for now given hypotension, pressor requirement
   .
   Less Active Issues
   .
   Thrombocytopenia: Currently plts are 34, which is below baseline.
   Suspect that thrombocytopenia is due to poor synthetic function in the
   setting of liver disease. Pt has chronic epistaxis. Hemolysis is less
   likely.  Smear showed: no schistocytes, a few large platelets but many
   small platelets.  Likely bone marrow difficulty with production at the
   same time as it tries to increase production in the setting of platelet
   destruction.
   - Trend plts daily
   - Avoid heparin products in the setting of plt<100, GIB
   .
   Non-anion gap Metabolic Acidosis: Resolved. pH on ABG 7.29. Pt has a
   normal anion gap in the setting of chronic hyponatremia. Suspect
   acidosis is secondary to lactic acidosis in the setting of sepsis,
   SBP.  s/p 2 units PRBC transfusion.
   - frequent ABG's
   - hold maintenance fluids to avoid worsening of acidosis
   - add on alk phos and CEA to ascitic fluid analysis given GI/Liver
   service's concern for perforation
   - f/u renal recs, likely no need for HD now
   .
   FEN: Hold on IVF today given peripheral edema, replete electrolytes
   Prophylaxis: pneumoboots
   Access: R and L 20-g PIVs, R triple-lumen IJ, a-line
   Code:  Full (discussed with girlfriend)
   Communication: [**Name (NI) **] GF and son
   Contact Info: Girlfriend [**Name (NI) 105**] [**Name (NI) 1309**]  cell: [**Telephone/Fax (1) 9699**] home: [**Telephone/Fax (1) 9771**]
   Son [**Name (NI) **] [**Name (NI) 5320**] [**Telephone/Fax (1) 9701**]
   .
   Disposition: pending clinical improvement, ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-12-13**] 09:15 AM
   Arterial Line - [**2150-12-13**] 10:15 AM
   20 Gauge - [**2150-12-17**] 12:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2150-12-20 09:46:00 Physician Attending Progress Note
Chief Complaint: C. perfringens peritonits, Septic shock, Respiratory
   failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Not waking up off sedation yest
   24 Hour Events:
   Esophageal balloon study - PEEP adjusted to 15.  FIO2 subsequently
   weaned to 0.5
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2150-12-17**] 12:02 PM
   Micafungin - [**2150-12-18**] 10:19 PM
   Piperacillin/Tazobactam (Zosyn) - [**2150-12-20**] 08:27 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Octreotide - 25 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2150-12-19**] 11:45 AM
   Pantoprazole (Protonix) - [**2150-12-19**] 10:00 PM
   Other medications:
   per ICU resident
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechaniucal ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2150-12-20**] 09:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 86 (76 - 96) bpm
   BP: 113/55(74) {98/45(62) - 156/81(111)} mmHg
   RR: 15 (4 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.3 kg (admission): 91.7 kg
   Height: 71 Inch
   CVP: 16 (8 - 22)mmHg
   Total In:
                                                                  1,469 mL
                                                                    330 mL
   PO:
   TF:
   IVF:
                                                                  1,017 mL
                                                                    322 mL
   Blood products:
                                                                    392 mL
                                                                      8 mL
   Total out:
                                                                    910 mL
                                                                    347 mL
   Urine:
                                                                    710 mL
                                                                    347 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                    559 mL
                                                                    -17 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 24 cmH2O
   SpO2: 96%
   ABG: 7.43/46/98.[**Numeric Identifier 500**]/27/4
   Ve: 6.2 L/min
   PaO2 / FiO2: 196
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Non-tender, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   37 K/uL
   163 mg/dL
   1.5 mg/dL
   27 mEq/L
   4.4 mEq/L
   79 mg/dL
   102 mEq/L
   141 mEq/L
   23.4 %
   7.8 K/uL
        [image002.jpg]
                            [**2150-12-17**]  04:42 PM
                            [**2150-12-18**]  02:47 AM
                            [**2150-12-18**]  03:05 AM
                            [**2150-12-19**]  02:40 AM
                            [**2150-12-19**]  04:06 AM
                            [**2150-12-19**]  04:35 PM
                            [**2150-12-19**]  06:18 PM
                            [**2150-12-19**]  10:05 PM
                            [**2150-12-20**]  02:27 AM
                            [**2150-12-20**]  08:26 AM
   WBC
   10.5
   8.3
   7.8
   Hct
   25.8
   27.4
   23.4
   Plt
   38
   34
   37
   Cr
   1.2
   1.5
   1.5
   TCO2
   29
   31
   31
   31
   30
   28
   32
   Glucose
   86
   120
   163
   Other labs: PT / PTT / INR:42.8/55.8/4.5, CK / CKMB /
   Troponin-T:128/7/0.09, ALT / AST:55/115, Alk Phos / T Bili:70/24.5,
   Amylase / Lipase:81/34, Differential-Neuts:69.5 %, Lymph:22.2 %,
   Mono:7.1 %, Eos:0.4 %, D-dimer:[**Numeric Identifier 4697**] ng/mL, Fibrinogen:132 mg/dL,
   Lactic Acid:2.2 mmol/L, Albumin:3.6 g/dL, LDH:254 IU/L, Ca++:10.1
   mg/dL, Mg++:2.9 mg/dL, PO4:6.5 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ANEMIA, CHRONIC
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 THROMBOCYTOPENIA, CHRONIC
 CIRRHOSIS OF LIVER, OTHER
 HEPATITIS OTHER
 ACIDOSIS, METABOLIC
   60 yo man with HCV cirrhosis, here with peritonitis due to c.
   perfingens.
   1. Septic Shock/GPRs: Levophed starting to wean down
 may be able to
   get off today.    Decrease hydrocort to 25mg q6hrs.  Cont Zosyn, D/C
   micafungin.
   2. Respiratory Failure: Cont PEEP of 15
 eso balloon in place.  Wean
   FIO2 as tolerated
   3. Cirrhosis: Lactulose.  Bilrubin high
   4. Acute renal failure: Cr continues to rise.  Had dye load 2 days
   ago.  Concern over heptorenal.  Send urine lytes.  Albumin challenge as
   above.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-12-13**] 09:15 AM
   Arterial Line - [**2150-12-13**] 10:15 AM
   20 Gauge - [**2150-12-17**] 12:29 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 34 minutes
   Patient is critically ill

2150-12-21 07:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Started Midrodrine, continued Octreotide, started Rifaximin
   - Surgery and ID recommend diagnostic tap, Renal and Liver recs pnd
   - Micafungin d/c'ed
   - NGT put out 200cc bloody discharge in 2 hours (same color as this
   morning, but more volume) but most recent Hct 6 hours ago stable.
   Changed Octreotide to drip, gave 3 units FFP, 1 unit platelets, 1 unit
   PRBC, T&C x3 units, fyi'ed liver.  Checking 10pm and 4am CBC and coags.
   - Hct check at 23:00 22.3 <- 24.1 at 14:00.  NGT cleared with FFP.
   Written for q6h cbc and coag checks.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2150-12-18**] 10:19 PM
   Piperacillin/Tazobactam (Zosyn) - [**2150-12-20**] 11:50 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-12-20**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-12-21**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 81 (72 - 87) bpm
   BP: 113/53(72) {100/48(65) - 123/60(81)} mmHg
   RR: 17 (0 - 18) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102 kg (admission): 91.7 kg
   Height: 71 Inch
    CVP: 17 (9 - 21)mmHg
   Total In:
                                                                  2,211 mL
                                                                    469 mL
   PO:
   TF:
   IVF:
                                                                    751 mL
                                                                     34 mL
   Blood products:
                                                                  1,189 mL
                                                                    375 mL
   Total out:
                                                                  1,527 mL
                                                                    387 mL
   Urine:
                                                                    727 mL
                                                                    187 mL
   NG:
                                                                    800 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                    684 mL
                                                                     82 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   Compliance: 57.1 cmH2O/mL
   SpO2: 94%
   ABG: 7.44/45/81.[**Numeric Identifier 8**]/29/5
   Ve: 6.1 L/min
   PaO2 / FiO2: 205
   Physical Examination
   General Appearance: intubated, grimaces to pain, biting ETT, NAD
   Cardiovascular: RRR
   Pulm: CTAB, no wheezes/rales, equal BS b/l
   Abdominal: Soft, NT, distended and tense; quiet BS
   Extremities: 2+ pitting edema b/l
   Labs / Radiology
   55 K/uL
   8.6 g/dL
   150 mg/dL
   1.8 mg/dL
   29 mEq/L
   3.8 mEq/L
   99 mg/dL
   105 mEq/L
   145 mEq/L
   24.3 %
   8.5 K/uL
        [image002.jpg]
                            [**2150-12-19**]  06:18 PM
                            [**2150-12-19**]  10:05 PM
                            [**2150-12-20**]  02:27 AM
                            [**2150-12-20**]  08:26 AM
                            [**2150-12-20**]  02:22 PM
                            [**2150-12-20**]  02:32 PM
                            [**2150-12-20**]  10:00 PM
                            [**2150-12-20**]  10:53 PM
                            [**2150-12-21**]  03:59 AM
                            [**2150-12-21**]  04:05 AM
   WBC
   7.8
   7.2
   6.9
   8.5
   Hct
   23.4
   24.1
   22.3
   24.3
   Plt
   37
   30
   60
   55
   Cr
   1.5
   1.5
   1.8
   TCO2
   30
   28
   32
   32
   32
   Glucose
   163
   159
   194
   150
   Other labs: PT / PTT / INR:26.4/43.3/2.6, CK / CKMB /
   Troponin-T:128/7/0.09, ALT / AST:47/94, Alk Phos / T Bili:72/23.4,
   Amylase / Lipase:81/63, Differential-Neuts:69.5 %, Lymph:22.2 %,
   Mono:7.1 %, Eos:0.4 %, D-dimer:[**Numeric Identifier 4697**] ng/mL, Fibrinogen:110 mg/dL,
   Lactic Acid:2.0 mmol/L, Albumin:3.6 g/dL, LDH:270 IU/L, Ca++:10.0
   mg/dL, Mg++:3.0 mg/dL, PO4:6.0 mg/dL
   Imaging: [**12-21**] CXR - blunting of left costrophrenic angle, stable
   bilateral basilar infiltrates, minimal improvement of LUL diffuse
   haziness.  Otherwise stable.
   Microbiology: .
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ANEMIA, CHRONIC
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 THROMBOCYTOPENIA, CHRONIC
 CIRRHOSIS OF LIVER, OTHER
 HEPATITIS OTHER
 ACIDOSIS, METABOLIC
   60 year old man with history of hepatitis C (s/p interferon rx with no
   response), cirrhosis, esophageal varices and hyponatremia admitted with
   dyspnea and diffuse abdominal pain, found to have peritonitis as well
   as a possibility of CAP.
   .
   Sepsis: Suspect sepsis is due to SBP as below, also possibly due to
   pna. Will treat with abx as outlined below, pressors and IVF bolus to
   support BP. Mixed venous O2 sat in ED was 91%, so pRBCs were not
   administered, however hematocrit on admission
   was ~21, and pt was transfused. Hypothermia (current temp 95 with bear
   hugger), hyponatremia, hyperkalemia and hypoglycemia consistent with
   sepsis, but also concerning for adrenal insufficiency. Pt has not
   recently been on steroids and has no other RF for adrenal
   insufficiency.  BCx grew Clostridium Perfringens [**12-13**].  d/c
   cisatracurium. s/p CT abdomen on [**12-17**].
   - Continuing Zosyn per ID recs; dc
ed Vanc, Clindamycin, Micafungin
   - Continue Octreotide gtt
   - Continue Midodrine per ID recs to help wean off pressors
   - Pressors off as of [**12-20**]
   - [**Last Name (un) 1398**] stim test without appropriate increase in cortisol; started
   Hydrocort IV 50mg q6h today ([**12-18**]).  Weaned [**12-20**] to Hydrocort IV 25mg
   q6h.  D/C
ed Hydrocort [**12-21**].
   - Monitor CVP (goal [**10-19**])
   .
   Peritonitis: ?SBP but without positive cultures.  Abdominal pain,
   prominent neutrophilia on ascitic fluid diff (17,000 WBC, 87% neuts)
   and significant left-shift on CBC with diff (33% bands) in the setting
   of a history of variceal bleeding are all consistent with SBP. Normally
   would treat with ceftriaxone, but given additional concerns for
   pneumonia will treat with cipro, pip-tazo and vancomycin. Hepatobiliary
   sx recs ([**12-15**]): recommend re-tapping him today.  If his WBC is still
   very high, he may need to be explored.  WBC high but improved from
   prior, obtaining CT scan to further evaluate, as outlined above.
   - Continue Zosyn as above
   - Abdomen continues to be significantly distended; consider
   Metoclopramide/Reglan if patient begins having bowel sounds to increase
   gastric motility and improve abdominal distension
   - f/u GI/Liver recs
   - f/u ID recs
   - f/u transplant surgery recs
   - Consider repeat paracentesis to trend WBC count and abdominal
   pressure preventing lung expansion
   .
   Dyspnea/Respiratory Failure: Pt was intubated in the ED given
   hypotension, concern for developing respiratory failure given
   tachypnea. ABG in MICU indicates elevated PaO2 on current ventilator
   settings.  The differential for the pt's dyspnea includes pneumonia,
   influenza, ascites or CHF. The pt had a left shift on CBC with diff and
   his girlfriend reported that he recently had a "respiratory infection"
   which raises concern for a post-viral pna or bacterial pna. Initial
   read of CXR raised concern for R LL infiltrate, however on final read
   there is no mention of an opacity. Tachypnea likely secondary to
   acidosis.  Also evidence of volume overload and CHF given edema, CXR
   consistent with fluid overload, and elevated CVP.
   -  Maintain on ventilator; Decrease FiO2 from 50% to 40% today.
   Increased PEEP [**12-19**] given abdominal distention causing likely lung
   compression.  Attempt to decrease PEEP from 15 to 12 given patient
   tolerated weaning of FIO2.
   - Esophageal balloon in place
   - ABG and lactate daily (lactate down-trending now)
   - All sedation off on [**12-19**]
   - f/u sputum culture
   - hold for diuresis for now given had IV contrast dye load from CT scan
   on [**12-17**] and has incr Cr over last 2 days
   .
   Acute Renal Failure:  Patient initially had elevated Cr, thought to be
   due to sepsis which resolved).  Pt
s creatinine has been rising again x
   2 days (during this hospitalization, Cr 1.7 -> 0.8 -> today 1.5
   [**12-19**]).  ARF most likely due to aggressive diuresis in last several
   days plus IV contrast load for CT abd.  However, hepatorenal syndrome
   is also a possibility, given Midodrine, Octreotide, Albumin.  Improved
   UOP [**12-21**].
   - F/u renal recs.
   - f/u hepatology recs
   - Given pt has nl sodium, hold on IVF today
   - IV albumin 50g if UOP decreases
   - monitor UOP closely
   .
   Altered mental status: Pt is still with decreased mental status despite
   being off of sedation x 1 day on [**12-19**]. Neurologic exam difficult, but
   no obvious deficit. The most likely etiology at this point is stage 4
   hepatic encephalopathy, given patient
s severe liver disease and rising
   bilirubin.
   - Titrate up Lactulose to 3 BMs daily.
   - Continue Rifaxamin
   - Can consider head CT, and additional AMS w/u if no improvement with
   tx of hepatic encephalopathy.
   .
   Epistaxis:  ENT consulted, patient s/p bilateral packing.
   - cont Epistaxis precautions
   .
   Anemia: Pt's recent baseline hematocrit appears to be ~25-30, and was
   21 on admission. Pt was noted to be guaiac positive on exam in ED, and
   had frank blood in NGT. Suspect that pt has chronic macrocytic anemia
   secondary to liver disease, with superimposed acute blood loss anemia
   from variceal bleed or bleeding ulcer. No schistocytes on smear to
   indicate hemolysis, however INR more elevated than in the past, and
   thrombocytopenia is more pronounced. GI did an EGD to evaluate for UGIB
   cause and no bleeding source was found.  Pt was on pantoprazole bolus
   and octreotide gtt for likely variceal bleeding: d/c
d now as HCT
   stable.
   - Continue IV PPI [**Hospital1 **]
   - [**Hospital1 **] coags and CBC; Transfuse as needed for falling Hct.
   - 2 units FFP prior to any procedures (paracentesis)
   .
   Hepatitis C Cirrhosis: MELD on admission was 27, discriminate function
   was 61. On exam pt is jaundiced. LFT's similar to prior LFT's with the
   exception of bili, which is markedly elevated at 18. Reportedly the pt
   stopped drinking EtOH in [**Month (only) 11**]. Serum EtOH was negative.
   - F/u Hepatology recs
   - lactulose and Rifaximin
   - Hold nadolol for now given hypotension, pressor requirement
   .
   Less Active Issues
   .
   Thrombocytopenia: Currently plts are 34, which is below baseline.
   Suspect that thrombocytopenia is due to poor synthetic function in the
   setting of liver disease. Pt has chronic epistaxis. Hemolysis is less
   likely.  Smear showed: no schistocytes, a few large platelets but many
   small platelets.  Likely bone marrow difficulty with production at the
   same time as it tries to increase production in the setting of platelet
   destruction.
   - Trend plts daily
   - Avoid heparin products in the setting of plt<100, GIB
   .
   Non-anion gap Metabolic Acidosis: Resolved. pH on ABG 7.29. Pt has a
   normal anion gap in the setting of chronic hyponatremia. Suspect
   acidosis is secondary to lactic acidosis in the setting of sepsis,
   SBP.  s/p 2 units PRBC transfusion.
   - frequent ABG's
   - hold maintenance fluids to avoid worsening of acidosis
   - add on alk phos and CEA to ascitic fluid analysis given GI/Liver
   service's concern for perforation
   - f/u renal recs, likely no need for HD now
   .
   FEN: Hold on IVF today given peripheral edema, replete electrolytes.
   Initiate TPN today and consult nutrition.
   Prophylaxis: pneumoboots
   Access: R and L 20-g PIVs, R triple-lumen IJ, a-line
   Code:  Full (discussed with girlfriend)
   Communication: [**Name (NI) **] GF and son
   Contact Info: Girlfriend [**Name (NI) 105**] [**Name (NI) 1309**]  cell: [**Telephone/Fax (1) 9699**] home: [**Telephone/Fax (1) 9771**]
   Son [**Name (NI) **] [**Name (NI) 5320**] [**Telephone/Fax (1) 9701**]
   .
   Disposition: pending clinical improvement, ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-12-13**] 09:15 AM
   Arterial Line - [**2150-12-13**] 10:15 AM
   20 Gauge - [**2150-12-17**] 12:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2150-12-21 11:29:00 Physician Attending Progress Note
Chief Complaint: Septic shock, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   More awake today but not following coommands
   24 Hour Events:
   NG tube bloody output overnight - 3 units FFP, 1 unit pRBCs
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2150-12-18**] 10:19 PM
   Piperacillin/Tazobactam (Zosyn) - [**2150-12-20**] 11:50 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-12-21**] 11:08 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Respiratory: mechanical ventilation
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2150-12-21**] 11:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.2
C (97.2
   HR: 74 (72 - 87) bpm
   BP: 137/60(86) {100/48(65) - 140/65(92)} mmHg
   RR: 16 (0 - 18) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102 kg (admission): 91.7 kg
   Height: 71 Inch
   CVP: 15 (9 - 21)mmHg
   Total In:
                                                                  2,211 mL
                                                                    501 mL
   PO:
   TF:
   IVF:
                                                                    751 mL
                                                                     66 mL
   Blood products:
                                                                  1,189 mL
                                                                    375 mL
   Total out:
                                                                  1,527 mL
                                                                    647 mL
   Urine:
                                                                    727 mL
                                                                    447 mL
   NG:
                                                                    800 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                    684 mL
                                                                   -146 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   Compliance: 80 cmH2O/mL
   SpO2: 95%
   ABG: 7.44/45/81.[**Numeric Identifier 8**]/29/5
   Ve: 7.2 L/min
   PaO2 / FiO2: 205
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   55 K/uL
   150 mg/dL
   1.8 mg/dL
   29 mEq/L
   3.8 mEq/L
   99 mg/dL
   105 mEq/L
   145 mEq/L
   24.3 %
   8.5 K/uL
        [image002.jpg]
                            [**2150-12-19**]  06:18 PM
                            [**2150-12-19**]  10:05 PM
                            [**2150-12-20**]  02:27 AM
                            [**2150-12-20**]  08:26 AM
                            [**2150-12-20**]  02:22 PM
                            [**2150-12-20**]  02:32 PM
                            [**2150-12-20**]  10:00 PM
                            [**2150-12-20**]  10:53 PM
                            [**2150-12-21**]  03:59 AM
                            [**2150-12-21**]  04:05 AM
   WBC
   7.8
   7.2
   6.9
   8.5
   Hct
   23.4
   24.1
   22.3
   24.3
   Plt
   37
   30
   60
   55
   Cr
   1.5
   1.5
   1.8
   TCO2
   30
   28
   32
   32
   32
   Glucose
   163
   159
   194
   150
   Other labs: PT / PTT / INR:26.4/43.3/2.6, CK / CKMB /
   Troponin-T:128/7/0.09, ALT / AST:47/94, Alk Phos / T Bili:72/23.4,
   Amylase / Lipase:81/63, Differential-Neuts:69.5 %, Lymph:22.2 %,
   Mono:7.1 %, Eos:0.4 %, D-dimer:[**Numeric Identifier 4697**] ng/mL, Fibrinogen:110 mg/dL,
   Lactic Acid:2.0 mmol/L, Albumin:3.6 g/dL, LDH:270 IU/L, Ca++:10.0
   mg/dL, Mg++:3.0 mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ANEMIA, CHRONIC
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 THROMBOCYTOPENIA, CHRONIC
 CIRRHOSIS OF LIVER, OTHER
 HEPATITIS OTHER
 ACIDOSIS, METABOLIC
   60 yo man with HCV cirrhosis, here with peritonitis due to c.
   perfingens.
   1. Septic Shock/GPRs: Pressors now off.  Cont Zosyn x14 days.  Will d/c
   hydrocortisone.
   2. Respiratory Failure: FIO2 down to 0.4 - PEEP is currently at 15.
   3. Cirrhosis: Lactulose and rifaxamin.  Cont octreotide plus
   midodrine.  Hepatology following.  Trend Hct given bloody NGT output -
   seems to have stopped after FFP.
   4. Acute renal failure: Cr up today but urine output remains adequate
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-12-13**] 09:15 AM
   Arterial Line - [**2150-12-13**] 10:15 AM
   20 Gauge - [**2150-12-17**] 12:29 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 34 minutes
   Patient is critically ill

2150-12-22 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: ESLD, acute renal failure, peritonitis, respiratory
   failure
   24 Hour Events:
   - ID and hepat recommend para - held off as would not alter management
   - TPN started
   - PEEP decr from 15 to 13 (ordered for AM ABG)
   - started daily albumin
   - having BM's (guiac positive)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2150-12-22**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-12-21**] 10:05 PM
   Other medications:
   Flowsheet Data as of  [**2150-12-22**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 108 (74 - 109) bpm
   BP: 142/69(94) {128/58(81) - 171/82(114)} mmHg
   RR: 20 (5 - 23) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 102 kg (admission): 91.7 kg
   Height: 71 Inch
    CVP: 0 (0 - 28)mmHg
   Total In:
                                                                  1,236 mL
                                                                    571 mL
   PO:
   TF:
   IVF:
                                                                    340 mL
                                                                    186 mL
   Blood products:
                                                                    425 mL
   Total out:
                                                                  1,587 mL
                                                                    630 mL
   Urine:
                                                                  1,337 mL
                                                                    580 mL
   NG:
                                                                    250 mL
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                   -351 mL
                                                                    -59 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 40%
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   Compliance: 80 cmH2O/mL
   SpO2: 95%
   ABG: 7.46/41/81.[**Numeric Identifier **]/29/4
   Ve: 11 L/min
   PaO2 / FiO2: 203
   Physical Examination
   General Appearance: intubated, grimaces to pain, biting ETT, NAD
   Cardiovascular: RRR
   Pulm: CTAB, no wheezes/rales, equal BS b/l
   Abdominal: Soft, NT, distended and tense; quiet BS
   Extremities: 2+ pitting edema b/l
   Labs / Radiology
   53 K/uL
   8.8 g/dL
   202 mg/dL
   1.8 mg/dL
   29 mEq/L
   3.4 mEq/L
   109 mg/dL
   107 mEq/L
   146 mEq/L
   25.8 %
   11.7 K/uL
        [image002.jpg]
                            [**2150-12-20**]  02:22 PM
                            [**2150-12-20**]  02:32 PM
                            [**2150-12-20**]  10:00 PM
                            [**2150-12-20**]  10:53 PM
                            [**2150-12-21**]  03:59 AM
                            [**2150-12-21**]  04:05 AM
                            [**2150-12-21**]  11:12 AM
                            [**2150-12-21**]  04:34 PM
                            [**2150-12-22**]  02:49 AM
                            [**2150-12-22**]  03:10 AM
   WBC
   7.2
   6.9
   8.5
   8.7
   8.3
   11.7
   Hct
   24.1
   22.3
   24.3
   24.8
   25.0
   25.8
   Plt
   30
   60
   55
   57
   47
   53
   Cr
   1.5
   1.8
   1.8
   TCO2
   32
   32
   30
   Glucose
   159
   194
   150
   202
   Other labs: PT / PTT / INR:39.5/71.0/4.1, CK / CKMB /
   Troponin-T:128/7/0.09, ALT / AST:47/87, Alk Phos / T Bili:76/26.7,
   Amylase / Lipase:81/63, Differential-Neuts:69.5 %, Lymph:22.2 %,
   Mono:7.1 %, Eos:0.4 %, D-dimer:[**Numeric Identifier 4697**] ng/mL, Fibrinogen:111 mg/dL,
   Lactic Acid:2.3 mmol/L, Albumin:3.4 g/dL, LDH:293 IU/L, Ca++:10.1
   mg/dL, Mg++:3.4 mg/dL, PO4:4.5 mg/dL
   Imaging: [**12-21**] CXR There is no change in pulmonary edema, bilateral
   pleural effusions and
   cardiomediastinal silhouette.
   [**12-22**] CXR improved bilat infiltrates
   Microbiology: None new
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 ANEMIA, CHRONIC
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 THROMBOCYTOPENIA, CHRONIC
 CIRRHOSIS OF LIVER, OTHER
 HEPATITIS OTHER
 ACIDOSIS, METABOLIC
   60 year old man with history of hepatitis C (s/p interferon rx with no
   response), cirrhosis, esophageal varices and hyponatremia admitted with
   dyspnea and diffuse abdominal pain, found to have peritonitis as well
   as a possibility of CAP.
   .
   Sepsis: Suspect sepsis is due to SBP as below, also possibly due to
   pna. Will treat with abx as outlined below, pressors and IVF bolus to
   support BP. Mixed venous O2 sat in ED was 91%, so pRBCs were not
   administered, however hematocrit on admission was ~21, and pt was
   transfused. Hypothermia (current temp 95 with bear hugger),
   hyponatremia, hyperkalemia and hypoglycemia consistent with sepsis, but
   also concerning for adrenal insufficiency. Pt has not recently been on
   steroids and has no other RF for adrenal insufficiency.  BCx grew
   Clostridium Perfringens [**12-13**].  d/c
ed cisatracurium. s/p CT abdomen on
   [**12-17**].
   - Continuing Zosyn per ID recs; dc
ed Vanc, Clindamycin, Micafungin
   - Continue Octreotide gtt
   - Continue Midodrine per ID recs to help wean off pressors
   - Pressors off as of [**12-20**]
   - [**Last Name (un) 1398**] stim test without appropriate increase in cortisol; started
   Hydrocort IV 50mg q6h today ([**12-18**]).  Weaned [**12-20**] to Hydrocort IV 25mg
   q6h.  D/C
ed Hydrocort [**12-21**].
   - Monitor CVP (goal [**10-19**])
   .
   Peritonitis: ?SBP but without positive cultures.  Abdominal pain,
   prominent neutrophilia on ascitic fluid diff (17,000 WBC, 87% neuts)
   and significant left-shift on CBC with diff (33% bands) in the setting
   of a history of variceal bleeding are all consistent with SBP. Normally
   would treat with ceftriaxone, but given additional concerns for
   pneumonia will treat with cipro, pip-tazo and vancomycin. Hepatobiliary
   sx recs ([**12-15**]): recommend re-tapping him today.  If his WBC is still
   very high, he may need to be explored.  WBC high but improved from
   prior, obtaining CT scan to further evaluate, as outlined above.
   - Continue Zosyn as above
   - Abdomen continues to be significantly distended; consider
   Metoclopramide/Reglan if patient begins having bowel sounds to increase
   gastric motility and improve abdominal distension
   - f/u GI/Liver recs
   - f/u ID recs
   - f/u transplant surgery recs
   - Consider repeat paracentesis to trend WBC count and abdominal
   pressure preventing lung expansion
   .
   Dyspnea/Respiratory Failure: Pt was intubated in the ED given
   hypotension, concern for developing respiratory failure given
   tachypnea. ABG in MICU indicates elevated PaO2 on current ventilator
   settings.  The differential for the pt's dyspnea includes pneumonia,
   influenza, ascites or CHF. The pt had a left shift on CBC with diff and
   his girlfriend reported that he recently had a "respiratory infection"
   which raises concern for a post-viral pna or bacterial pna. Initial
   read of CXR raised concern for R LL infiltrate, however on final read
   there is no mention of an opacity. Tachypnea likely secondary to
   acidosis.  Also evidence of volume overload and CHF given edema, CXR
   consistent with fluid overload, and elevated CVP.
   -  Maintain on ventilator; Decrease FiO2 from 50% to 40% today.
   Increased PEEP [**12-19**] given abdominal distention causing likely lung
   compression.  Attempt to decrease PEEP from 15 to 12 given patient
   tolerated weaning of FIO2.
   - Esophageal balloon in place
   - ABG and lactate daily (lactate down-trending now)
   - All sedation off on [**12-19**]
   - f/u sputum culture
   - hold for diuresis for now given had IV contrast dye load from CT scan
   on [**12-17**] and has incr Cr over last 2 days
   .
   Acute Renal Failure:  Patient initially had elevated Cr, thought to be
   due to sepsis which resolved).  Pt
s creatinine has been rising again x
   2 days (during this hospitalization, Cr 1.7 -> 0.8 -> today 1.5
   [**12-19**]).  ARF most likely due to aggressive diuresis in last several
   days plus IV contrast load for CT abd.  However, hepatorenal syndrome
   is also a possibility, given Midodrine, Octreotide, Albumin.  Improved
   UOP [**12-21**].
   - F/u renal recs.
   - f/u hepatology recs
   - Given pt has nl sodium, hold on IVF today
   - IV albumin 50g if UOP decreases
   - monitor UOP closely
   .
   Altered mental status: Pt is still with decreased mental status despite
   being off of sedation x 1 day on [**12-19**]. Neurologic exam difficult, but
   no obvious deficit. The most likely etiology at this point is stage 4
   hepatic encephalopathy, given patient
s severe liver disease and rising
   bilirubin.
   - Titrate up Lactulose to 3 BMs daily.
   - Continue Rifaxamin
   - Can consider head CT, and additional AMS w/u if no improvement with
   tx of hepatic encephalopathy.
   .
   Epistaxis:  ENT consulted, patient s/p bilateral packing.
   - cont Epistaxis precautions
   .
   Anemia: Pt's recent baseline hematocrit appears to be ~25-30, and was
   21 on admission. Pt was noted to be guaiac positive on exam in ED, and
   had frank blood in NGT. Suspect that pt has chronic macrocytic anemia
   secondary to liver disease, with superimposed acute blood loss anemia
   from variceal bleed or bleeding ulcer. No schistocytes on smear to
   indicate hemolysis, however INR more elevated than in the past, and
   thrombocytopenia is more pronounced. GI did an EGD to evaluate for UGIB
   cause and no bleeding source was found.  Pt was on pantoprazole bolus
   and octreotide gtt for likely variceal bleeding: d/c
d now as HCT
   stable.
   - Continue IV PPI [**Hospital1 **]
   - [**Hospital1 **] coags and CBC; Transfuse as needed for falling Hct.
   - 2 units FFP prior to any procedures (paracentesis)
   .
   Hepatitis C Cirrhosis: MELD on admission was 27, discriminate function
   was 61. On exam pt is jaundiced. LFT's similar to prior LFT's with the
   exception of bili, which is markedly elevated at 18. Reportedly the pt
   stopped drinking EtOH in [**Month (only) 11**]. Serum EtOH was negative.
   - F/u Hepatology recs
   - lactulose and Rifaximin
   - Hold nadolol for now given hypotension, pressor requirement
   .
   Less Active Issues
   .
   Thrombocytopenia: Currently plts are 34, which is below baseline.
   Suspect that thrombocytopenia is due to poor synthetic function in the
   setting of liver disease. Pt has chronic epistaxis. Hemolysis is less
   likely.  Smear showed: no schistocytes, a few large platelets but many
   small platelets.  Likely bone marrow difficulty with production at the
   same time as it tries to increase production in the setting of platelet
   destruction.
   - Trend plts daily
   - Avoid heparin products in the setting of plt<100, GIB
   .
   Non-anion gap Metabolic Acidosis: Resolved. pH on ABG 7.29. Pt has a
   normal anion gap in the setting of chronic hyponatremia. Suspect
   acidosis is secondary to lactic acidosis in the setting of sepsis,
   SBP.  s/p 2 units PRBC transfusion.
   - frequent ABG's
   - hold maintenance fluids to avoid worsening of acidosis
   - add on alk phos and CEA to ascitic fluid analysis given GI/Liver
   service's concern for perforation
   - f/u renal recs, likely no need for HD now
   .
   FEN: Hold on IVF today given peripheral edema, replete electrolytes.
   Initiate TPN today and consult nutrition.
   Prophylaxis: pneumoboots
   Access: R and L 20-g PIVs, R triple-lumen IJ, a-line
   Code:  Full (discussed with girlfriend)
   Communication: [**Name (NI) **] GF and son
   Contact Info: Girlfriend [**Name (NI) 105**] [**Name (NI) 1309**]  cell: [**Telephone/Fax (1) 9699**] home: [**Telephone/Fax (1) 9771**]
   Son [**Name (NI) **] [**Name (NI) 5320**] [**Telephone/Fax (1) 9701**]
   .
   Disposition: pending clinical improvement, ICU for now

2150-12-22 09:19:00 Physician Attending Progress Note
Chief Complaint: Peritonitis, Septic shock, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Not awake though responsive to pain
   24 Hour Events:
   Desat to 80s after decrease in PEEP to 12 yesterday - back up to 15
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2150-12-22**] 08:06 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-12-21**] 10:05 PM
   Other medications:
   per ICU resdient note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Nutritional Support: Parenteral nutrition
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2150-12-22**] 09:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 107 (74 - 109) bpm
   BP: 140/68(92) {137/60(86) - 171/82(114)} mmHg
   RR: 20 (5 - 23) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 102 kg (admission): 91.7 kg
   Height: 71 Inch
   CVP: 190 (0 - 190)mmHg
   Total In:
                                                                  1,236 mL
                                                                    852 mL
   PO:
   TF:
   IVF:
                                                                    340 mL
                                                                    342 mL
   Blood products:
                                                                    425 mL
   Total out:
                                                                  1,587 mL
                                                                    810 mL
   Urine:
                                                                  1,337 mL
                                                                    760 mL
   NG:
                                                                    250 mL
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                   -351 mL
                                                                     42 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 40%
   PIP: 22 cmH2O
   Plateau: 23 cmH2O
   Compliance: 51.3 cmH2O/mL
   SpO2: 94%
   ABG: 7.46/41/81.[**Numeric Identifier **]/29/4
   Ve: 10.7 L/min
   PaO2 / FiO2: 203
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   53 K/uL
   202 mg/dL
   1.8 mg/dL
   29 mEq/L
   3.4 mEq/L
   109 mg/dL
   107 mEq/L
   146 mEq/L
   25.8 %
   11.7 K/uL
        [image002.jpg]
                            [**2150-12-20**]  02:22 PM
                            [**2150-12-20**]  02:32 PM
                            [**2150-12-20**]  10:00 PM
                            [**2150-12-20**]  10:53 PM
                            [**2150-12-21**]  03:59 AM
                            [**2150-12-21**]  04:05 AM
                            [**2150-12-21**]  11:12 AM
                            [**2150-12-21**]  04:34 PM
                            [**2150-12-22**]  02:49 AM
                            [**2150-12-22**]  03:10 AM
   WBC
   7.2
   6.9
   8.5
   8.7
   8.3
   11.7
   Hct
   24.1
   22.3
   24.3
   24.8
   25.0
   25.8
   Plt
   30
   60
   55
   57
   47
   53
   Cr
   1.5
   1.8
   1.8
   TCO2
   32
   32
   30
   Glucose
   159
   194
   150
   202
   Other labs: PT / PTT / INR:39.5/71.0/4.1, CK / CKMB /
   Troponin-T:128/7/0.09, ALT / AST:47/87, Alk Phos / T Bili:76/26.7,
   Amylase / Lipase:81/63, Differential-Neuts:69.5 %, Lymph:22.2 %,
   Mono:7.1 %, Eos:0.4 %, D-dimer:[**Numeric Identifier 4697**] ng/mL, Fibrinogen:111 mg/dL,
   Lactic Acid:2.3 mmol/L, Albumin:3.4 g/dL, LDH:293 IU/L, Ca++:10.1
   mg/dL, Mg++:3.4 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ANEMIA, CHRONIC
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 THROMBOCYTOPENIA, CHRONIC
 CIRRHOSIS OF LIVER, OTHER
 HEPATITIS OTHER
 ACIDOSIS, METABOLIC
   60 yo man with HCV cirrhosis, here with peritonitis due to c.
   perfingens.
   1. Septic Shock/GPRs: Pressors off.  Cont midodrine/octretide.  Cont
   Zosyn x14 days.
   2. Respiratory Failure: FIO2 down to 0.4 - PEEP is currently at 15.
   Still requires high PEEP - will try again todayto dcrease.  Change mode
   to PSV.  Will try to diurese
   3. Cirrhosis: Lactulose and rifaxamin.  Cont octreotide plus
   midodrine.  Hepatology following.  Hct stable
   4. Acute renal failure: Cr stable today
 making urine, but general Cr
   trend heading up
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2150-12-21**] 04:41 PM 40.[**Telephone/Fax (5) 554**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-12-13**] 09:15 AM
   Arterial Line - [**2150-12-13**] 10:15 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 34 minutes
   Patient is critically ill

2150-12-23 07:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Pt switched from AC ventilation to PSV ventilation.
   - Hypernatremia: Na increased from 146 -> 149 while pt was receiving D5
   at 100 ml/hr for 1000 ml; wrote pt for a 2nd liter of D5 at the same
   rate.
   - Volume status: Attempted to diurese pt w. Lasix 40mg IV w. good urine
   output (3050mL), cumulative fluid balance -50 (minus 1L D5).
   - ID: recommended changing zosyn to clinda and cipro, as less
   nephrotoxic.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2150-12-22**] 04:00 PM
   Ciprofloxacin - [**2150-12-22**] 10:00 PM
   Clindamycin - [**2150-12-22**] 10:00 PM
   Infusions:
   Octreotide - 25 mcg/hour
   Other ICU medications:
   Fentanyl - [**2150-12-22**] 10:00 AM
   Furosemide (Lasix) - [**2150-12-22**] 10:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-12-23**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.3
C (99.2
   HR: 105 (98 - 112) bpm
   BP: 135/68(91) {126/56(81) - 165/76(105)} mmHg
   RR: 12 (7 - 22) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 101.1 kg (admission): 91.7 kg
   Height: 71 Inch
    CVP: 20 (15 - 25)mmHg
   Total In:
                                                                  3,693 mL
                                                                  1,188 mL
   PO:
   TF:
   IVF:
                                                                  2,293 mL
                                                                    833 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                  3,350 mL
                                                                  2,110 mL
   Urine:
                                                                  3,300 mL
                                                                    910 mL
   NG:
                                                                     50 mL
                                                                    200 mL
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                    343 mL
                                                                   -922 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 814 (453 - 969) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 15 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 95%
   ABG: 7.49/42/87.[**Numeric Identifier 274**]/29/7
   Ve: 9.7 L/min
   PaO2 / FiO2: 220
   Physical Examination
   General Appearance: intubated, minimally interactive, follows commands
   Cardiovascular: RRR, no m/g/r
   Pulm: CTAB, no wheezes/rales, equal BS b/l
   Abdominal: Soft, NT, distended and tense with mild improvement from
   prior; no BS
   Extremities: 2+ pitting edema b/l LE
   Labs / Radiology
   46 K/uL
   8.4 g/dL
   204 mg/dL
   1.2 mg/dL
   29 mEq/L
   3.1 mEq/L
   96 mg/dL
   113 mEq/L
   150 mEq/L
   24.4 %
   16.4 K/uL
        [image002.jpg]
                            [**2150-12-21**]  04:05 AM
                            [**2150-12-21**]  11:12 AM
                            [**2150-12-21**]  04:34 PM
                            [**2150-12-22**]  02:49 AM
                            [**2150-12-22**]  03:10 AM
                            [**2150-12-22**]  12:14 PM
                            [**2150-12-22**]  05:00 PM
                            [**2150-12-22**]  05:03 PM
                            [**2150-12-23**]  02:02 AM
                            [**2150-12-23**]  02:37 AM
   WBC
   8.7
   8.3
   11.7
   16.4
   Hct
   24.8
   25.0
   25.8
   24.4
   Plt
   57
   47
   53
   46
   Cr
   1.8
   1.5
   1.2
   TCO2
   32
   30
   31
   32
   33
   Glucose
   202
   204
   Other labs: PT / PTT / INR:42.0/49.0/4.4, CK / CKMB /
   Troponin-T:128/7/0.09, ALT / AST:47/92, Alk Phos / T Bili:75/27.9,
   Amylase / Lipase:81/63, Differential-Neuts:69.5 %, Lymph:22.2 %,
   Mono:7.1 %, Eos:0.4 %, D-dimer:[**Numeric Identifier 4697**] ng/mL, Fibrinogen:111 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:3.3 g/dL, LDH:319 IU/L, Ca++:10.1
   mg/dL, Mg++:3.2 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR [**12-23**] - (my read) Increased diffuse left lung opacity and
   increased vascular prominence, and increased blunting of left
   costophrenic angle, consistent with fluid overload.
   Microbiology: [**12-23**] C diff pnd
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ANEMIA, CHRONIC
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 THROMBOCYTOPENIA, CHRONIC
 CIRRHOSIS OF LIVER, OTHER
 HEPATITIS OTHER
 ACIDOSIS, METABOLIC
   60 year old man with history of hepatitis C (s/p interferon rx with no
   response), cirrhosis, esophageal varices and hyponatremia admitted with
   dyspnea and diffuse abdominal pain, found to have peritonitis as well
   as a possibility of CAP.
   .
   Sepsis: Suspect sepsis is due to SBP as below, also possibly due to
   pna. Will treat with abx as outlined below, pressors and IVF bolus to
   support BP. Mixed venous O2 sat in ED was 91%, so pRBCs were not
   administered, however hematocrit on admission was ~21, and pt was
   transfused. Hypothermia (current temp 95 with bear hugger),
   hyponatremia, hyperkalemia and hypoglycemia consistent with sepsis, but
   also concerning for adrenal insufficiency. Pt has not recently been on
   steroids and has no other RF for adrenal insufficiency.  BCx grew
   Clostridium Perfringens [**12-13**].  d/c
ed cisatracurium. s/p CT abdomen on
   [**12-17**].  Pressors off as of [**12-20**].  Steroids dc
ed as of [**12-21**].
   - Switched Zosyn to Cipro/Clinda 12/15 per ID recs; dc
ed Vanc,
   Clindamycin, Micafungin
   - Continue Octreotide gtt and Midodrine per hepatology recs
   .
   Peritonitis: ?SBP but without positive cultures.  Abdominal pain,
   prominent neutrophilia on ascitic fluid diff (17,000 WBC, 87% neuts)
   and significant left-shift on CBC with diff (33% bands) in the setting
   of a history of variceal bleeding are all consistent with SBP. Normally
   would treat with ceftriaxone, but given additional concerns for
   pneumonia will treat with cipro, pip-tazo and vancomycin. Hepatobiliary
   sx recs ([**12-15**]): recommend re-tapping him today.  If his WBC is still
   very high, he may need to be explored.  WBC high but improved from
   prior, obtaining CT scan to further evaluate, as outlined above.
   - Cipro/Clinda as above
   - Abdomen continues to be significantly distended; holding
   Metoclopramide/Regla for now, but could consider if patient begins
   having increased bowel sounds to help increase gastric motility and
   improve abdominal distension
   - f/u GI/Liver recs
   - f/u ID recs
   - f/u transplant surgery recs
   - holding on repeat paracentesis as will not alter clinical management
   at this time
   .
   Dyspnea/Respiratory Failure: Pt was intubated in the ED given
   hypotension, concern for developing respiratory failure given
   tachypnea. ABG in MICU indicates elevated PaO2 on current ventilator
   settings.  The differential for the pt's dyspnea includes pneumonia,
   influenza, ascites or CHF. The pt had a left shift on CBC with diff and
   his girlfriend reported that he recently had a "respiratory infection"
   which raises concern for a post-viral pna or bacterial pna. Initial
   read of CXR raised concern for R LL infiltrate, however on final read
   there is no mention of an opacity. Tachypnea likely secondary to
   acidosis.  Also evidence of volume overload and CHF given edema, CXR
   consistent with fluid overload, and elevated CVP.
   - Maintain on ventilator; transitioning pt to PSV today ([**12-22**]).
   Attempt to decrease PEEP from 15 -> 12
   - ABG and lactate daily (lactate down-trending now)
   - All sedation off on [**12-19**]
   - f/u sputum culture
   - diurese today with lasix 40mg, goal 1-1.5L out
   - PM lytes
   .
   Leukocytosis:  Most likely etiology is C. diff given antibiotics and
   leukocytosis with low grade fever.  No clear evidence of infection.
   - f/u C. diff
   - Consider pan culture if develops fever or leukocytosis worsens
   .
   Hypernatremia:  Likely insensitivity to Aldosterone vs. hepatorenal
   syndrome, given patient has received free water yesterday without
   sodium response.
   - D5W 2L today
   - Consider free water flushes if hypernatremia fails to improve, but
   hold for now
   - Lasix 40mg IV x1
   - Spironolactone 100mg daily to diurese sodium off
   - Goal I/O -1.5-2L today
   .
   Gynecomastia:  Gynecomastia [**2-9**] liver failure and increased estrogen,
   but marked tenderness of areolar region b/l is concerning.
   - Consult liver regarding tenderness, and whether this occurs with
   gynecomastia
   - Prolactin level
   - Discuss with GF whether pt had tenderness at baseline, as pt has been
   non-responsive until recently
   .
   Acute Renal Failure:  Patient initially had elevated Cr, thought to be
   due to sepsis which resolved).  Pt
s creatinine has been rising again x
   2 days (during this hospitalization, Cr 1.7 -> 0.8 -> today 1.5
   [**12-19**]).  ARF most likely due to aggressive diuresis in last several
   days plus IV contrast load for CT abd.  However, hepatorenal syndrome
   is also a possibility, given Midodrine, Octreotide, Albumin.  Improved
   UOP [**12-21**].
   - F/u renal recs.
   - f/u hepatology recs
   - daily IV albumin 50g IV daily
   - monitor UOP closely
   - check urine lytes
   - decreased dose of Octreotide by
 for HRS dosing
   - diurese today with lasix 40mg, goal 1-1.5L out
   - PM lytes
   .
   Altered mental status: Pt is still with decreased mental status despite
   being off of sedation x 1 day on [**12-19**]. Neurologic exam difficult, but
   no obvious deficit. The most likely etiology at this point is stage 4
   hepatic encephalopathy, given patient
s severe liver disease and rising
   bilirubin.
   - Titrate up Lactulose to 3 BMs daily.
   - Continue Rifaxamin
   - Can consider head CT, and additional AMS w/u if no improvement with
   tx of hepatic encephalopathy.
   .
   Anemia: Pt's recent baseline hematocrit appears to be ~25-30, and was
   21 on admission. Pt was noted to be guaiac positive on exam in ED, and
   had frank blood in NGT. Suspect that pt has chronic macrocytic anemia
   secondary to liver disease, with superimposed acute blood loss anemia
   from variceal bleed or bleeding ulcer. No schistocytes on smear to
   indicate hemolysis, however INR more elevated than in the past, and
   thrombocytopenia is more pronounced. GI did an EGD to evaluate for UGIB
   cause and no bleeding source was found.  Pt was on pantoprazole bolus
   and octreotide gtt for likely variceal bleeding: d/c
d now as HCT
   stable.
   - Continue IV PPI [**Hospital1 **]
   - Daily coags and CBC; Transfuse as needed for falling Hct.
   - 2 units FFP prior to any procedures (paracentesis)
   .
   Hepatitis C Cirrhosis: MELD on admission was 27, discriminate function
   was 61. On exam pt is jaundiced. LFT's similar to prior LFT's with the
   exception of bili, which is markedly elevated at 18. Reportedly the pt
   stopped drinking EtOH in [**Month (only) 11**]. Serum EtOH was negative.
   - F/u Hepatology recs
   - lactulose and Rifaximin
   - Hold nadolol for now given hypotension, pressor requirement
   .
   #. Tachycardia
 think likely due to pain component, as patient appears
   uncomfortable and thrashes about when tachycardic
   - fentanyl boluses prn
   .
   Less Active Issues
   .
   Epistaxis:  ENT consulted, patient s/p bilateral packing.
   - cont Epistaxis precautions
   .
   Thrombocytopenia: Currently plts are 34, which is below baseline.
   Suspect that thrombocytopenia is due to poor synthetic function in the
   setting of liver disease. Pt has chronic epistaxis. Hemolysis is less
   likely.  Smear showed: no schistocytes, a few large platelets but many
   small platelets.  Likely bone marrow difficulty with production at the
   same time as it tries to increase production in the setting of platelet
   destruction.
   - Trend plts daily
   - Avoid heparin products in the setting of plt<100, GIB
   .
   Non-anion gap Metabolic Acidosis: Resolved. pH on ABG 7.29. Pt has a
   normal anion gap in the setting of chronic hyponatremia. Suspect
   acidosis is secondary to lactic acidosis in the setting of sepsis,
   SBP.  s/p 2 units PRBC transfusion.
   - frequent ABG's
   - hold maintenance fluids to avoid worsening of acidosis
   - add on alk phos and CEA to ascitic fluid analysis given GI/Liver
   service's concern for perforation
   - f/u renal recs, likely no need for HD now
   .
   FEN: Hold on IVF today given peripheral edema, replete electrolytes.
   Initiate TPN today and consult nutrition.
   Prophylaxis: pneumoboots
   Access: R and L 20-g PIVs, R triple-lumen IJ, a-line
   Code:  Full (discussed with girlfriend)
   Communication: [**Name (NI) **] GF and son
   Contact Info: Girlfriend [**Name (NI) 105**] [**Name (NI) 1309**]  cell: [**Telephone/Fax (1) 9699**] home: [**Telephone/Fax (1) 9771**]
   Son [**Name (NI) **] [**Name (NI) 5320**] [**Telephone/Fax (1) 9701**]
   .
   Disposition: pending clinical improvement, ICU for now
   ICU Care
   Nutrition:
   TPN without Lipids - [**2150-12-22**] 04:40 PM 40.[**Telephone/Fax (5) 4104**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-12-13**] 09:15 AM
   Arterial Line - [**2150-12-13**] 10:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2150-12-23 09:48:00 Physician Attending Progress Note
Chief Complaint: Septic shock, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Cr improved today
   24 Hour Events:
   History obtained from Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2150-12-22**] 04:00 PM
   Clindamycin - [**2150-12-22**] 10:00 PM
   Ciprofloxacin - [**2150-12-23**] 08:13 AM
   Infusions:
   Octreotide - 25 mcg/hour
   Other ICU medications:
   Fentanyl - [**2150-12-22**] 10:00 AM
   Furosemide (Lasix) - [**2150-12-22**] 10:20 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2150-12-23**] 09:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.4
   HR: 103 (98 - 110) bpm
   BP: 136/69(93) {126/56(81) - 165/76(105)} mmHg
   RR: 12 (7 - 20) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 101.1 kg (admission): 91.7 kg
   Height: 71 Inch
   CVP: 20 (15 - 25)mmHg
   Total In:
                                                                  3,693 mL
                                                                  1,535 mL
   PO:
   TF:
   IVF:
                                                                  2,293 mL
                                                                  1,041 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                  3,350 mL
                                                                  2,450 mL
   Urine:
                                                                  3,300 mL
                                                                  1,250 mL
   NG:
                                                                     50 mL
                                                                    200 mL
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                    343 mL
                                                                   -915 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 814 (453 - 969) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 15 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 95%
   ABG: 7.49/42/87.[**Numeric Identifier 274**]/29/7
   Ve: 9.7 L/min
   PaO2 / FiO2: 220
   Physical Examination
   General Appearance: No acute distress, intubated, sedated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Non-tender, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, more awake
   Labs / Radiology
   8.4 g/dL
   46 K/uL
   204 mg/dL
   1.2 mg/dL
   29 mEq/L
   3.1 mEq/L
   96 mg/dL
   113 mEq/L
   150 mEq/L
   24.4 %
   16.4 K/uL
        [image002.jpg]
                            [**2150-12-21**]  04:05 AM
                            [**2150-12-21**]  11:12 AM
                            [**2150-12-21**]  04:34 PM
                            [**2150-12-22**]  02:49 AM
                            [**2150-12-22**]  03:10 AM
                            [**2150-12-22**]  12:14 PM
                            [**2150-12-22**]  05:00 PM
                            [**2150-12-22**]  05:03 PM
                            [**2150-12-23**]  02:02 AM
                            [**2150-12-23**]  02:37 AM
   WBC
   8.7
   8.3
   11.7
   16.4
   Hct
   24.8
   25.0
   25.8
   24.4
   Plt
   57
   47
   53
   46
   Cr
   1.8
   1.5
   1.2
   TCO2
   32
   30
   31
   32
   33
   Glucose
   202
   204
   Other labs: PT / PTT / INR:42.0/49.0/4.4, CK / CKMB /
   Troponin-T:128/7/0.09, ALT / AST:47/92, Alk Phos / T Bili:75/27.9,
   Amylase / Lipase:81/63, Differential-Neuts:69.5 %, Lymph:22.2 %,
   Mono:7.1 %, Eos:0.4 %, D-dimer:[**Numeric Identifier 4697**] ng/mL, Fibrinogen:111 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:3.3 g/dL, LDH:319 IU/L, Ca++:10.1
   mg/dL, Mg++:3.2 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ANEMIA, CHRONIC
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 THROMBOCYTOPENIA, CHRONIC
 CIRRHOSIS OF LIVER, OTHER
 HEPATITIS OTHER
 ACIDOSIS, METABOLIC
   60 yo man with HCV cirrhosis, here with peritonitis due to c.
   perfingens.
   1. Septic Shock/GPRs: Pressors off.  Cont midodrine/octretide.  Cont
   Zosyn x14 days.
   2. Respiratory Failure: FIO2 down to 0.4 - PEEP is currently at 15 but
   on PSV 5.  Try to wean PEEP
   3. Cirrhosis: Lactulose and rifaxamin.  Cont octreotide plus
   midodrine.  Hepatology following.  Hct stable
   4. Acute renal failure: Cr improving - cont to attempt to diuresis.
   fH20 repletion - Na still high
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2150-12-22**] 04:40 PM 40.[**Telephone/Fax (5) 4104**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-12-13**] 09:15 AM
   Arterial Line - [**2150-12-13**] 10:15 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 34 minutes
   Patient is critically ill
   Addendum: Pt also has bilateral breast tenderness on exam but no
   erythema or warmth.  Will cont to follow.

2150-12-24 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - D5W x2L
   - Lasix, Spironolactone initiated
   - PM Na 150, free water flushes initiated 200mg q6h
   - TPN orders placed per nutrition recs
   - C. diff negative
   - Prolactin level sent
   - Renal consulted
   - Liver:  Tamoxifen 20mg daily for gynecomastia
   - Started SC Heparin daily for anti-coagulation effect since Tamoxifen
   is pro-thrombogenic
   - Decreasing PEEP
   - Nighttime Na 149, written for another 2L D5W, increased free water
   flushes to 300cc q6h, and written for Lasix 60mg IV x1 as he did not
   put out significantly to Lasix 40mg IV in AM.
   - Cr decreased
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2150-12-22**] 04:00 PM
   Ciprofloxacin - [**2150-12-23**] 08:00 PM
   Clindamycin - [**2150-12-24**] 06:00 AM
   Infusions:
   Octreotide - 25 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-12-23**] 10:00 AM
   Furosemide (Lasix) - [**2150-12-24**] 12:20 AM
   Heparin Sodium (Prophylaxis) - [**2150-12-24**] 06:00 AM
   Fentanyl - [**2150-12-24**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-12-24**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.7
   HR: 104 (97 - 110) bpm
   BP: 117/58(77) {111/57(75) - 139/72(95)} mmHg
   RR: 19 (5 - 19) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 101.5 kg (admission): 91.7 kg
   Height: 71 Inch
    CVP: 18 (18 - 21)mmHg
   Total In:
                                                                  5,364 mL
                                                                  2,323 mL
   PO:
   TF:
   IVF:
                                                                  3,656 mL
                                                                  1,571 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                  5,000 mL
                                                                  2,770 mL
   Urine:
                                                                  3,800 mL
                                                                  1,820 mL
   NG:
                                                                    200 mL
                                                                    100 mL
   Stool:
                                                                  1,000 mL
                                                                    850 mL
   Drains:
   Balance:
                                                                    364 mL
                                                                   -447 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 506 (506 - 681) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 18 cmH2O
   SpO2: 95%
   ABG: 7.48/42/82.[**Numeric Identifier **]/28/6 Metab alkalosis (contraction alkalosis?)
   Ve: 9.8 L/min
   PaO2 / FiO2: 207
   Physical Examination
   GEN
   CV
   PULM
   ABD
   EXTR
   Labs / Radiology
   53 K/uL
   8.3 g/dL
   184 mg/dL
   0.4 mg/dL
   28 mEq/L
   4.3 mEq/L
   78 mg/dL
   112 mEq/L
   147 mEq/L
   24.8 %
   19.9 K/uL
        [image002.jpg] Cr dropped from 0.9 to 0.4
                            [**2150-12-22**]  12:14 PM
                            [**2150-12-22**]  05:00 PM
                            [**2150-12-22**]  05:03 PM
                            [**2150-12-23**]  02:02 AM
                            [**2150-12-23**]  02:37 AM
                            [**2150-12-23**]  01:05 PM
                            [**2150-12-23**]  03:20 PM
                            [**2150-12-23**]  10:19 PM
                            [**2150-12-24**]  03:44 AM
                            [**2150-12-24**]  03:59 AM
   WBC
   16.4
   19.9
   Hct
   24.4
   24.8
   Plt
   46
   53
   Cr
   1.5
   1.2
   0.9
   0.4
   TCO2
   31
   32
   33
   30
   32
   32
   Glucose
   [**Telephone/Fax (3) 9924**]
   Other labs: PT / PTT / INR:41.4/58.2/4.4, CK / CKMB /
   Troponin-T:128/7/0.09, ALT / AST:49/102, Alk Phos / T Bili:79/32.6,
   Amylase / Lipase:81/63, Differential-Neuts:69.5 %, Lymph:22.2 %,
   Mono:7.1 %, Eos:0.4 %, D-dimer:[**Numeric Identifier 4697**] ng/mL, Fibrinogen:111 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:3.2 g/dL, LDH:326 IU/L, Ca++:10.0
   mg/dL, Mg++:2.6 mg/dL, PO4:1.8 mg/Dl
   LFTs stable except TBili from 27.9 to 32.6
   Prolactin =29 (nl = [**4-22**])
   Cxr; improved clarity of right hemidiaphragm, continued vascular
   plumpness at b/l hila
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 ACUTE PAIN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ANEMIA, CHRONIC
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 THROMBOCYTOPENIA, CHRONIC
 CIRRHOSIS OF LIVER, OTHER
 HEPATITIS OTHER
 ACIDOSIS, METABOLIC
   60 year old man with history of hepatitis C (s/p interferon rx with no
   response), cirrhosis, esophageal varices and hyponatremia admitted with
   dyspnea and diffuse abdominal pain, found to have peritonitis as well
   as a possibility of CAP.
   .
   Sepsis: Suspect sepsis is due to SBP as below, also possibly due to
   pna. Will treat with abx as outlined below, pressors and IVF bolus to
   support BP. Mixed venous O2 sat in ED was 91%, so pRBCs were not
   administered, however hematocrit on admission was ~21, and pt was
   transfused. Hypothermia (current temp 95 with bear hugger),
   hyponatremia, hyperkalemia and hypoglycemia consistent with sepsis, but
   also concerning for adrenal insufficiency. Pt has not recently been on
   steroids and has no other RF for adrenal insufficiency.  BCx grew
   Clostridium Perfringens [**12-13**].  d/c
ed cisatracurium. s/p CT abdomen on
   [**12-17**].  Pressors off as of [**12-20**].  Steroids dc
ed as of [**12-21**].
   - Switched Zosyn to Cipro/Clinda 12/15 per ID recs; dc
ed Vanc,
   Clindamycin, Micafungin
   - Continue Octreotide gtt and Midodrine per hepatology recs
   .
   Peritonitis: ?SBP but without positive cultures.  Abdominal pain,
   prominent neutrophilia on ascitic fluid diff (17,000 WBC, 87% neuts)
   and significant left-shift on CBC with diff (33% bands) in the setting
   of a history of variceal bleeding are all consistent with SBP. Normally
   would treat with ceftriaxone, but given additional concerns for
   pneumonia will treat with cipro, pip-tazo and vancomycin. Hepatobiliary
   sx recs ([**12-15**]): recommend re-tapping him today.  If his WBC is still
   very high, he may need to be explored.  WBC high but improved from
   prior, obtaining CT scan to further evaluate, as outlined above.
   - Cipro/Clinda as above
   - Abdomen continues to be significantly distended; holding
   Metoclopramide/Regla for now, but could consider if patient begins
   having increased bowel sounds to help increase gastric motility and
   improve abdominal distension
   - f/u GI/Liver recs
   - f/u ID recs
   - f/u transplant surgery recs
   - holding on repeat paracentesis as will not alter clinical management
   at this time
   .
   Dyspnea/Respiratory Failure: Pt was intubated in the ED given
   hypotension, concern for developing respiratory failure given
   tachypnea. ABG in MICU indicates elevated PaO2 on current ventilator
   settings.  The differential for the pt's dyspnea includes pneumonia,
   influenza, ascites or CHF. The pt had a left shift on CBC with diff and
   his girlfriend reported that he recently had a "respiratory infection"
   which raises concern for a post-viral pna or bacterial pna. Initial
   read of CXR raised concern for R LL infiltrate, however on final read
   there is no mention of an opacity. Tachypnea likely secondary to
   acidosis.  Also evidence of volume overload and CHF given edema, CXR
   consistent with fluid overload, and elevated CVP.
   - Maintain on ventilator; transitioning pt to PSV today ([**12-22**]).
   Attempt to decrease PEEP from 15 -> 12
   - ABG and lactate daily (lactate down-trending now)
   - All sedation off on [**12-19**]
   - f/u sputum culture
   - diurese today with lasix 40mg, goal 1-1.5L out
   - PM lytes
   .
   Leukocytosis:  Most likely etiology is C. diff given antibiotics and
   leukocytosis with low grade fever.  No clear evidence of infection.
   - f/u C. diff
   - Consider pan culture if develops fever or leukocytosis worsens
   .
   Hypernatremia:  Likely insensitivity to Aldosterone vs. hepatorenal
   syndrome, given patient has received free water yesterday without
   sodium response.
   - D5W 2L today
   - Cont. free water flushes
   - Lasix 40mg IV x1
   - Spironolactone 100mg daily to diurese sodium off
   - Goal I/O -1.5-2L today
   .
   Gynecomastia:  Gynecomastia [**2-9**] liver failure and increased estrogen,
   but marked tenderness of areolar region b/l is concerning. Prolactin
   elevated.
   - cont tamoxifen
   - discuss with GF whether pt had tenderness at baseline, as pt has been
   non-responsive until recently
   - consider endocrine consult
   .
   Acute Renal Failure:  Patient initially had elevated Cr, thought to be
   due to sepsis which resolved).  Pt
s creatinine has been rising again x
   2 days (during this hospitalization, Cr 1.7 -> 0.8 -> today 1.5
   [**12-19**]).  ARF most likely due to aggressive diuresis in last several
   days plus IV contrast load for CT abd.  However, hepatorenal syndrome
   is also a possibility, given Midodrine, Octreotide, Albumin.  Improved
   UOP [**12-21**].
   - F/u renal recs.
   - f/u hepatology recs
   - daily IV albumin 50g IV daily
   - monitor UOP closely
   - check urine lytes
   - decreased dose of Octreotide by
 for HRS dosing
   - diurese today with lasix 40mg, goal 1-1.5L out
   - PM lytes
   .
   Altered mental status: Pt is still with decreased mental status despite
   being off of sedation x 1 day on [**12-19**]. Neurologic exam difficult, but
   no obvious deficit. The most likely etiology at this point is stage 4
   hepatic encephalopathy, given patient
s severe liver disease and rising
   bilirubin.
   - Titrate up Lactulose to 3 BMs daily.
   - Continue Rifaxamin
   - Can consider head CT, and additional AMS w/u if no improvement with
   tx of hepatic encephalopathy.
   .
   Anemia: Pt's recent baseline hematocrit appears to be ~25-30, and was
   21 on admission. Pt was noted to be guaiac positive on exam in ED, and
   had frank blood in NGT. Suspect that pt has chronic macrocytic anemia
   secondary to liver disease, with superimposed acute blood loss anemia
   from variceal bleed or bleeding ulcer. No schistocytes on smear to
   indicate hemolysis, however INR more elevated than in the past, and
   thrombocytopenia is more pronounced. GI did an EGD to evaluate for UGIB
   cause and no bleeding source was found.  Pt was on pantoprazole bolus
   and octreotide gtt for likely variceal bleeding: d/c
d now as HCT
   stable.
   - Continue IV PPI [**Hospital1 **]
   - Daily coags and CBC; Transfuse as needed for falling Hct.
   - 2 units FFP prior to any procedures (paracentesis)
   .
   Hepatitis C Cirrhosis: MELD on admission was 27, discriminate function
   was 61. On exam pt is jaundiced. LFT's similar to prior LFT's with the
   exception of bili, which is markedly elevated at 18. Reportedly the pt
   stopped drinking EtOH in [**Month (only) 11**]. Serum EtOH was negative.
   - F/u Hepatology recs
   - lactulose and Rifaximin
   - Hold nadolol for now given hypotension, pressor requirement
   .
   #. Tachycardia
 think likely due to pain component, as patient appears
   uncomfortable and thrashes about when tachycardic
   - fentanyl boluses prn
   .
   Less Active Issues
   .
   Epistaxis:  ENT consulted, patient s/p bilateral packing.
   - cont Epistaxis precautions
   .
   Thrombocytopenia: Currently plts are 34, which is below baseline.
   Suspect that thrombocytopenia is due to poor synthetic function in the
   setting of liver disease. Pt has chronic epistaxis. Hemolysis is less
   likely.  Smear showed: no schistocytes, a few large platelets but many
   small platelets.  Likely bone marrow difficulty with production at the
   same time as it tries to increase production in the setting of platelet
   destruction.
   - Trend plts daily
   - Avoid heparin products in the setting of plt<100, GIB
   .
   Non-anion gap Metabolic Acidosis: Resolved. pH on ABG 7.29. Pt has a
   normal anion gap in the setting of chronic hyponatremia. Suspect
   acidosis is secondary to lactic acidosis in the setting of sepsis,
   SBP.  s/p 2 units PRBC transfusion.
   - frequent ABG's
   - hold maintenance fluids to avoid worsening of acidosis
   - add on alk phos and CEA to ascitic fluid analysis given GI/Liver
   service's concern for perforation
   - f/u renal recs, likely no need for HD now
   .
   FEN: Hold on IVF today given peripheral edema, replete electrolytes.
   TPN.
   Prophylaxis: pneumoboots, SQH
   Access: R and L 20-g PIVs, R triple-lumen IJ, a-line
   Code:  Full (discussed with girlfriend)
   Communication: [**Name (NI) **] GF and son
   Contact Info: Girlfriend [**Name (NI) 105**] [**Name (NI) 1309**]  cell: [**Telephone/Fax (1) 9699**] home: [**Telephone/Fax (1) 9771**]
   Son [**Name (NI) **] [**Name (NI) 5320**] [**Telephone/Fax (1) 9701**]
   .
   Disposition: pending clinical improvement, ICU for now
   ICU Care
   Nutrition:
   TPN without Lipids - [**2150-12-23**] 05:02 PM 41.[**Telephone/Fax (3) 17**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-12-13**] 09:15 AM
   Arterial Line - [**2150-12-13**] 10:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2150-12-24 11:08:00 Physician Attending Progress Note
Chief Complaint: Septic shock, Cirrhosis, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   More awake this AM
   24 Hour Events:
   PEEP weaned down to 10
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2150-12-22**] 04:00 PM
   Clindamycin - [**2150-12-24**] 06:00 AM
   Ciprofloxacin - [**2150-12-24**] 08:43 AM
   Infusions:
   Octreotide - 25 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2150-12-24**] 12:20 AM
   Heparin Sodium (Prophylaxis) - [**2150-12-24**] 06:00 AM
   Pantoprazole (Protonix) - [**2150-12-24**] 10:26 AM
   Fentanyl - [**2150-12-24**] 10:50 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Nutritional Support: Parenteral nutrition
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2150-12-24**] 11:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.7
   HR: 103 (97 - 116) bpm
   BP: 125/63(83) {111/57(75) - 139/72(95)} mmHg
   RR: 19 (5 - 21) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 101.5 kg (admission): 91.7 kg
   Height: 71 Inch
   CVP: 22 (18 - 348)mmHg
   Total In:
                                                                  5,364 mL
                                                                  3,725 mL
   PO:
   TF:
   IVF:
                                                                  3,656 mL
                                                                  2,407 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                  5,000 mL
                                                                  3,110 mL
   Urine:
                                                                  3,800 mL
                                                                  2,160 mL
   NG:
                                                                    200 mL
                                                                    100 mL
   Stool:
                                                                  1,000 mL
                                                                    850 mL
   Drains:
   Balance:
                                                                    364 mL
                                                                    615 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 356 (356 - 681) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 18 cmH2O
   SpO2: 95%
   ABG: 7.47/39/104/28/4
   Ve: 19.3 L/min
   PaO2 / FiO2: 260
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: scleral icterus
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Non-tender, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, more awake with
   some response to commands
   Labs / Radiology
   8.3 g/dL
   53 K/uL
   184 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.9 mEq/L
   78 mg/dL
   112 mEq/L
   142 mEq/L
   24.8 %
   19.9 K/uL
        [image002.jpg]
                            [**2150-12-22**]  05:00 PM
                            [**2150-12-22**]  05:03 PM
                            [**2150-12-23**]  02:02 AM
                            [**2150-12-23**]  02:37 AM
                            [**2150-12-23**]  01:05 PM
                            [**2150-12-23**]  03:20 PM
                            [**2150-12-23**]  10:19 PM
                            [**2150-12-24**]  03:44 AM
                            [**2150-12-24**]  03:59 AM
                            [**2150-12-24**]  10:23 AM
   WBC
   16.4
   19.9
   Hct
   24.4
   24.8
   Plt
   46
   53
   Cr
   1.5
   1.2
   0.9
   0.4
   TCO2
   32
   33
   30
   32
   32
   29
   Glucose
   [**Telephone/Fax (3) 9924**]
   Other labs: PT / PTT / INR:41.4/58.2/4.4, CK / CKMB /
   Troponin-T:128/7/0.09, ALT / AST:49/102, Alk Phos / T Bili:79/32.6,
   Amylase / Lipase:81/63, Differential-Neuts:69.5 %, Lymph:22.2 %,
   Mono:7.1 %, Eos:0.4 %, D-dimer:[**Numeric Identifier 4697**] ng/mL, Fibrinogen:111 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:3.2 g/dL, LDH:326 IU/L, Ca++:10.0
   mg/dL, Mg++:2.6 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 ACUTE PAIN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ANEMIA, CHRONIC
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 THROMBOCYTOPENIA, CHRONIC
 CIRRHOSIS OF LIVER, OTHER
 HEPATITIS OTHER
 ACIDOSIS, METABOLIC
   60 yo man with HCV cirrhosis, here with peritonitis due to c.
   perfingens.
   1. Septic Shock/GPRs: Pressors off.  Cont midodrine/octretide.  Cont
   cipro/clinda.  WBC increased.  Will do diagnostic paracentesis,
   pan-culture
   2. Respiratory Failure: FIO2 down to 0.4 - PEEP able to be weaned to 10
   today.  Increased secretions but may actually represent some
   mobilization - will send sputum culture.
   3. Cirrhosis: Lactulose and rifaxamin.  Cont octreotide plus
   midodrine.  Hepatology following.
   4. Acute renal failure: Cr improved  - cont to attempt to diuresis.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2150-12-23**] 05:02 PM 41.[**Telephone/Fax (3) 17**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-12-13**] 09:15 AM
   Arterial Line - [**2150-12-13**] 10:15 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 34 minutes
   Patient is critically ill

2150-12-25 07:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2150-12-24**] 11:31 AM
 BLOOD CULTURED - At [**2150-12-24**] 11:32 AM
   Two sets of cultures sent. Per MICU Team okay to draw from A-line and
   CVL.
 STOOL CULTURE - At [**2150-12-24**] 11:33 AM
   Sent for C-diff
 ULTRASOUND - At [**2150-12-24**] 12:10 PM
 PARACENTESIS - At [**2150-12-24**] 04:12 PM Diagnostic paracentesis. Only
   fluid for cultures removed.
   - did diagnostic para, RLQ
   - girlfriend updated, per girlfriend, pt had painful gynecomastia prior
   to this hospitalization
   - hepatology: if Cr stable in AM, could d/c octreotide (but would
   continue midodrine); d/c albumin (done); broaden antibiotics (given
   leukocytosis over last 5 days); check cbc with diff in AM
   - I>>O, so given extra 40IV lasix in evening
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2150-12-22**] 04:00 PM
   Ciprofloxacin - [**2150-12-24**] 08:00 PM
   Clindamycin - [**2150-12-25**] 06:08 AM
   Infusions:
   Octreotide - 25 mcg/hour
   Other ICU medications:
   Fentanyl - [**2150-12-24**] 10:50 AM
   Furosemide (Lasix) - [**2150-12-24**] 09:00 PM
   Pantoprazole (Protonix) - [**2150-12-24**] 09:45 PM
   Other medications:
   Flowsheet Data as of  [**2150-12-25**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.8
C (98.2
   HR: 76 (76 - 118) bpm
   BP: 108/46(65) {100/46(63) - 139/67(92)} mmHg
   RR: 15 (15 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.5 kg (admission): 91.7 kg
   Height: 71 Inch
    CVP: 14 (13 - 22)mmHg
   Total In:
                                                                  7,040 mL
                                                                    644 mL
   PO:
   TF:
   IVF:
                                                                  4,385 mL
                                                                     82 mL
   Blood products:
   Total out:
                                                                  6,940 mL
                                                                  1,270 mL
   Urine:
                                                                  5,140 mL
                                                                    870 mL
   NG:
                                                                    350 mL
   Stool:
                                                                  1,450 mL
                                                                    400 mL
   Drains:
   Balance:
                                                                    100 mL
                                                                   -626 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 530 (356 - 696) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 44
   PIP: 14 cmH2O
   SpO2: 96%
   ABG: 7.45/44/66/29/5
   Ve: 9.2 L/min
   PaO2 / FiO2: 165
   Physical Examination
   GEN
 alert, interactive, denies pain or SOB, nad, answers
   appropriately, denies pain
   CV
 rrr, no murmurs
   PULM - CTAB
   CHEST
 TTP at b/l nipples
   ABD
 distended, +bs, firm, but non-tender
   EXTR
 2+ b/l edema legs
   Labs / Radiology
   71 K/uL
   7.5 g/dL
   122 mg/dL
   1.0 mg/dL
   29 mEq/L
   4.5 mEq/L
   69 mg/dL
   107 mEq/L
   140 mEq/L
   23.0 %
   18.9 K/uL
         [image002.jpg]
                            [**2150-12-23**]  02:37 AM
                            [**2150-12-23**]  01:05 PM
                            [**2150-12-23**]  03:20 PM
                            [**2150-12-23**]  10:19 PM
                            [**2150-12-24**]  03:44 AM
                            [**2150-12-24**]  03:59 AM
                            [**2150-12-24**]  10:23 AM
                            [**2150-12-24**]  09:22 PM
                            [**2150-12-25**]  02:23 AM
                            [**2150-12-25**]  02:33 AM
   WBC
   19.9
   18.7
   18.9
   Hct
   24.8
   27.0
   23.0
   Plt
   53
   64
   71
   Cr
   0.9
   0.4
   1.0
   TCO2
   33
   30
   32
   32
   29
   32
   Glucose
   149
   184
   122
   Other labs: PT / PTT / INR:41.3/58.9/4.4, CK / CKMB /
   Troponin-T:128/7/0.09, ALT / AST:56/133, Alk Phos / T Bili:85/37.0,
   Amylase / Lipase:81/63, Differential-Neuts:73.0 %, Band:0.0 %,
   Lymph:12.0 %, Mono:7.0 %, Eos:2.0 %, D-dimer:[**Numeric Identifier 4697**] ng/mL,
   Fibrinogen:111 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:3.2 g/dL, LDH:350
   IU/L, Ca++:10.3 mg/dL, Mg++:2.2 mg/dL, PO4:2.0 mg/dL
   Fluid analysis / Other labs: WBC  500;  RBC  [**Numeric Identifier 9949**]
     Poly  16;    Lymph  40;    Mono  32;  Bands: 1; Mesothe: 6; Macroph:
   5
   Imaging: CXR [**12-24**] There are low lung volumes.
   Moderate pulmonary edema is stable. Small-to-moderate bilateral pleural
   effusions, larger on the left side, are unchanged. They are associated
   with
   adjacent atelectasis larger in the left retrocardiac area. Mild
   cardiomegaly
   is stable.
   CXR [**12-25**] unchanged (my read)
   Microbiology: Peritoneal fluid gram stain - no orgs, no PMN
   None new, sputum, blood, urine cxrs pending
   Cdiff neg x 2
   Assessment and Plan
   60 year old man with history of hepatitis C (s/p interferon rx with no
   response), cirrhosis, esophageal varices and hyponatremia admitted with
   dyspnea and diffuse abdominal pain, found to have peritonitis as well
   as a possibility of CAP.
   .
   Sepsis/leukocytosis: Suspect sepsis is due to SBP as below, also
   possibly due to pna. Will treat with abx as outlined below, pressors
   and IVF bolus to support BP. Mixed venous O2 sat in ED was 91%, so
   pRBCs were not administered, however hematocrit on admission was ~21,
   and pt was transfused. Hypothermia (current temp 95 with bear hugger),
   hyponatremia, hyperkalemia and hypoglycemia consistent with sepsis, but
   also concerning for adrenal insufficiency. Pt has not recently been on
   steroids and has no other RF for adrenal insufficiency.  BCx grew
   Clostridium Perfringens [**12-13**].  d/c
ed cisatracurium. s/p CT abdomen on
   [**12-17**].  Pressors off as of [**12-20**].  Steroids dc
ed as of [**12-21**].
   - Switched Zosyn to Cipro/Clinda 12/15 per ID recs; dc
ed Vanc,
   Clindamycin, Micafungin; = continue cipro/clinda for now
   - Peritoneal infection appears adequately treated, given recent para
   with WBC 86 (<250).
   - Leukocytosis: Unclear source at present
sputum, blood, urine cultures
   are pending. C. diff has been negative x 2.  As pt has been clinically
   improving over same period, will continue to monitor and keep only
   Cipro/Clinda for now.
   - Broaden abx if pt spikes a fever or decompensate (add back
   Vanc/Zosyn).
   - Discontinuing Octreotide gtt per hepatology recs
   - Continuing Midodrine
   - monitor fever curve, low-grade temps, tachycardia
   - will try to discontinue lines, as patient improves clinically.
   .
   Peritonitis: ?SBP but without positive cultures.  Abdominal pain,
   prominent neutrophilia on ascitic fluid diff (17,000 WBC, 87% neuts)
   and significant left-shift on CBC with diff (33% bands) in the setting
   of a history of variceal bleeding are all consistent with SBP. Normally
   would treat with ceftriaxone, but given additional concerns for
   pneumonia will treat with cipro, pip-tazo and vancomycin. Hepatobiliary
   sx recs ([**12-15**]): recommend re-tapping him today.  If his WBC is still
   very high, he may need to be explored.  WBC high but improved from
   prior, obtaining CT scan to further evaluate, as outlined above.
   - Cipro/Clinda as above
   - Abdomen continues to be significantly distended; holding
   Metoclopramide/Regla for now
   - f/u GI/Liver recs
   - f/u transplant surgery recs
   - results of recent paracentesis do not suggest on-going intraabdominal
   infection.
   .
   Dyspnea/Respiratory Failure: Pt was intubated in the ED given
   hypotension, concern for developing respiratory failure given
   tachypnea. ABG in MICU indicates elevated PaO2 on current ventilator
   settings.  The differential for the pt's dyspnea includes pneumonia,
   influenza, ascites or CHF. The pt had a left shift on CBC with diff and
   his girlfriend reported that he recently had a "respiratory infection"
   which raises concern for a post-viral pna or bacterial pna. Initial
   read of CXR raised concern for R LL infiltrate, however on final read
   there is no mention of an opacity. Tachypnea likely secondary to
   acidosis.  Also evidence of volume overload and CHF given edema, CXR
   consistent with fluid overload, and elevated CVP.
   - Continue on PSV with current PEEP of 10 today, as tolerated
   - ABG and lactate daily (lactate down-trending now)
   - All sedation off since [**12-19**]
   - diurese today with lasix 40mg, goal 0.5-1L negative today
   - 5pm lytes
   - continue 100mg daily spironolactone
   - will check an SBT with ABG before and after
   .
   Hypernatremia:  Likely insensitivity to Aldosterone vs. hepatorenal
   syndrome. Currently resolved.
   - Will continue free water flushes at 300cc q6h.
    - pm electrolyte check
   -  diuresis as above with lasix and spironolactone.
   .
   Altered mental status: Pt is still with decreased mental status despite
   being off of sedation x 1 day on [**12-19**]. Neurologic exam difficult, but
   no obvious deficit. The most likely etiology at this point is stage 4
   hepatic encephalopathy, given patient
s severe liver disease and rising
   bilirubin. Improved.
   - Titrate up Lactulose to 3 BMs daily.
   - Continue Rifaxamin
   - Can consider head CT, additional AMS w/u if no improvement with tx of
   hepatic encephalopathy.
   .
   Anemia: Pt's recent baseline hematocrit appears to be ~25-30, and was
   21 on admission. Pt was noted to be guaiac positive on exam in ED, and
   had frank blood in NGT. Suspect that pt has chronic macrocytic anemia
   secondary to liver disease, with superimposed acute blood loss anemia
   from variceal bleed or bleeding ulcer. No schistocytes on smear to
   indicate hemolysis, however INR more elevated than in the past, and
   thrombocytopenia is more pronounced. GI did an EGD to evaluate for UGIB
   cause and no bleeding source was found.  Pt was on pantoprazole bolus
   and octreotide gtt for likely variceal bleeding: d/c
d now as HCT
   stable.
   - Continue IV PPI [**Hospital1 **]
   - Daily coags and CBC; Transfuse as needed for falling Hct.
   - 2 units FFP prior to any procedures
   - Checking direct bilirubin today ([**12-25**]), as pt w. decr HCT and
   increased total bili, to rule out hemolysis.
   .
   Hepatitis C Cirrhosis: MELD on admission was 27, discriminate function
   was 61. On exam pt is jaundiced. LFT's similar to prior LFT's with the
   exception of bili, which is markedly elevated at 18. Reportedly the pt
   stopped drinking EtOH in [**Month (only) 11**]. Serum EtOH was negative.
   - F/u Hepatology recs
   - lactulose and Rifaximin
   - Hold nadolol for now given hypotension, pressor requirement
   .
   #. Tachycardia
 think likely due to pain component, as patient appears
   uncomfortable and thrashes about when tachycardic
   - fentanyl boluses prn
   - culture of infection
   - telemetry
   .
   Less Active Issues
   .
   . Gynecomastia:  Gynecomastia [**2-9**] liver failure and increased estrogen.
   Prolactin elevated. Pt has a history of painful gynecomastia, per pt
   girlfriend.
   - cont tamoxifen
   .
   Acute Renal Failure:  Resolved. Redose meds.
   Patient initially had elevated Cr, thought to be due to sepsis which
   resolved).  Pt
s creatinine has been rising again x 2 days (during this
   hospitalization, Cr 1.7 -> 0.8 -> today 1.5 [**12-19**]).  ARF most likely
   due to aggressive diuresis in last several days plus IV contrast load
   for CT abd.  However, hepatorenal syndrome is also a possibility, given
   Midodrine, Octreotide, Albumin.  Improved UOP [**12-21**].
   - F/u renal recs.
   - f/u hepatology recs
   - d/c albumin
   - monitor UOP closely
   - d/c octreotide
   - diuresis as above
   .
   Epistaxis:  ENT consulted, patient s/p bilateral packing.
   - cont Epistaxis precautions
   .
   Thrombocytopenia: Currently plts are 34, which is below baseline.
   Suspect that thrombocytopenia is due to poor synthetic function in the
   setting of liver disease. Pt has chronic epistaxis. Hemolysis is less
   likely.  Smear showed: no schistocytes, a few large platelets but many
   small platelets.  Likely bone marrow difficulty with production at the
   same time as it tries to increase production in the setting of platelet
   destruction.
   - Trend plts daily
   - Avoid heparin products in the setting of plt<100, GIB
   .
   Non-anion gap Metabolic Acidosis: Resolved. pH on ABG 7.29. Pt has a
   normal anion gap in the setting of chronic hyponatremia. Suspect
   acidosis is secondary to lactic acidosis in the setting of sepsis,
   SBP.  s/p 2 units PRBC transfusion.
   - frequent ABG's
   - hold maintenance fluids to avoid worsening of acidosis
   - add on alk phos and CEA to ascitic fluid analysis given GI/Liver
   service's concern for perforation
   - f/u renal recs, likely no need for HD now
   .
   FEN: D5W today, replete electrolytes.  TPN.
   Prophylaxis: pneumoboots, SQH
   Access: R triple-lumen IJ, a-line
   Code:  Full (discussed with girlfriend)
   Communication: [**Name (NI) **] GF and son
   Contact Info: Girlfriend [**Name (NI) 105**] [**Name (NI) 1309**]  cell: [**Telephone/Fax (1) 9699**] home: [**Telephone/Fax (1) 9771**]
   Son [**Name (NI) **] [**Name (NI) 5320**] [**Telephone/Fax (1) 9701**]
   .
   Disposition: pending clinical improvement, ICU for now
   ICU Care
   Nutrition: TPN without Lipids - [**2150-12-24**] 04:48 PM 58.[**Telephone/Fax (5) 4167**]
   mL/hour
   Lines:
   Multi Lumen - [**2150-12-13**] 09:15 AM
   Arterial Line - [**2150-12-13**] 10:15 AM
   Code status: Full code
   Disposition: ICU

2150-12-25 10:24:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   More alert today, answering yes/no question
   24 Hour Events:
 URINE CULTURE - At [**2150-12-24**] 11:31 AM
 BLOOD CULTURED - At [**2150-12-24**] 11:32 AM
   Two sets of cultures sent. Per MICU Team okay to draw from A-line and
   CVL.
 STOOL CULTURE - At [**2150-12-24**] 11:33 AM
   Sent for C-diff
 ULTRASOUND - At [**2150-12-24**] 12:10 PM
 PARACENTESIS - At [**2150-12-24**] 04:12 PM
   Diagnostic paracentesis. Only fluid for cultures removed.
   History obtained from [**Hospital 31**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2150-12-22**] 04:00 PM
   Clindamycin - [**2150-12-25**] 06:08 AM
   Ciprofloxacin - [**2150-12-25**] 08:12 AM
   Infusions:
   Octreotide - 25 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2150-12-24**] 09:00 PM
   Pantoprazole (Protonix) - [**2150-12-24**] 09:45 PM
   Fentanyl - [**2150-12-25**] 07:50 AM
   Heparin Sodium (Prophylaxis) - [**2150-12-25**] 08:13 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Parenteral nutrition
   Respiratory: mechanical ventilation
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2150-12-25**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.1
C (97
   HR: 106 (76 - 118) bpm
   BP: 145/72(97) {100/46(63) - 145/74(97)} mmHg
   RR: 20 (15 - 30) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 101.5 kg (admission): 91.7 kg
   Height: 71 Inch
   CVP: 14 (13 - 21)mmHg
   Total In:
                                                                  7,040 mL
                                                                  1,306 mL
   PO:
   TF:
   IVF:
                                                                  4,385 mL
                                                                    293 mL
   Blood products:
   Total out:
                                                                  6,940 mL
                                                                  1,400 mL
   Urine:
                                                                  5,140 mL
                                                                  1,000 mL
   NG:
                                                                    350 mL
   Stool:
                                                                  1,450 mL
                                                                    400 mL
   Drains:
   Balance:
                                                                    100 mL
                                                                    -94 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 503 (503 - 696) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 44
   PIP: 14 cmH2O
   SpO2: 95%
   ABG: 7.45/44/66/29/5
   Ve: 14.4 L/min
   PaO2 / FiO2: 165
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: scleral icterus
   Head, Ears, Nose, Throat: Normocephalic, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Non-tender, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, still appears
   quite confused, but more awake
   Labs / Radiology
   7.5 g/dL
   71 K/uL
   122 mg/dL
   1.0 mg/dL
   29 mEq/L
   4.5 mEq/L
   69 mg/dL
   107 mEq/L
   140 mEq/L
   23.0 %
   18.9 K/uL
        [image002.jpg]
                            [**2150-12-23**]  02:37 AM
                            [**2150-12-23**]  01:05 PM
                            [**2150-12-23**]  03:20 PM
                            [**2150-12-23**]  10:19 PM
                            [**2150-12-24**]  03:44 AM
                            [**2150-12-24**]  03:59 AM
                            [**2150-12-24**]  10:23 AM
                            [**2150-12-24**]  09:22 PM
                            [**2150-12-25**]  02:23 AM
                            [**2150-12-25**]  02:33 AM
   WBC
   19.9
   18.7
   18.9
   Hct
   24.8
   27.0
   23.0
   Plt
   53
   64
   71
   Cr
   0.9
   0.4
   1.0
   TCO2
   33
   30
   32
   32
   29
   32
   Glucose
   149
   184
   122
   Other labs: PT / PTT / INR:41.3/58.9/4.4, CK / CKMB /
   Troponin-T:128/7/0.09, ALT / AST:56/133, Alk Phos / T Bili:85/37.0,
   Amylase / Lipase:81/63, Differential-Neuts:73.0 %, Band:0.0 %,
   Lymph:12.0 %, Mono:7.0 %, Eos:2.0 %, D-dimer:[**Numeric Identifier 4697**] ng/mL,
   Fibrinogen:111 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:3.2 g/dL, LDH:350
   IU/L, Ca++:10.3 mg/dL, Mg++:2.2 mg/dL, PO4:2.0 mg/dL
   Fluid analysis / Other labs: Ascites - [**Numeric Identifier 9949**] RBCs, 500 WBCs
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 ACUTE PAIN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ANEMIA, CHRONIC
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 THROMBOCYTOPENIA, CHRONIC
 CIRRHOSIS OF LIVER, OTHER
 HEPATITIS OTHER
 ACIDOSIS, METABOLIC
   60 yo man with HCV cirrhosis, here with peritonitis due to c.
   perfingens.
   1. Septic Shock/GPRs: Pressors off.  D/C octretide.  Cont
   cipro/clinda.  Peripheral WBC still elevated - awaiting most recent cx
   results.  Asicites with significant RBCs but WBCs down.
   2. Respiratory Failure: PEEP coming down - now at 8.  RSBI 44 this AM
   --> will do SBT
   3. Cirrhosis: Lactulose and rifaxamin.  Cont midodrine.
   4. Acute renal failure: Cr stable overall --> value of 0.4 yesterday is
   an outlying value that may be lab error
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2150-12-24**] 04:48 PM 58.[**Telephone/Fax (5) 4167**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-12-13**] 09:15 AM
   Arterial Line - [**2150-12-13**] 10:15 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 34 minutes
   Patient is critically ill

2150-12-26 07:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2150-12-25**] 04:33 PM
   - extubated
   - very encephalopathic (thinks he's on a space ship--the starry
   backdrop on his TV probably doesn't help).
   - Given rising total bili, we looked at pt's smear, which showed
   spherocytes, target cells, burr cells, no schistocytes. Sent Coombs
   test and direct bili (19.1), to eval for hemolysis. also obtained Abd
   US to eval for patency of portal vasculature: showed patent portal
   vasculature, no intrahepatic duct dilitation, CBD borderline at 7mm,
   likely calculus in GB, GB distension, but without wall changes
   suggestive of cholecystitis.
   - coombs test came back positive -- ? drug-induced hemolytic anemia (as
   t. bili started to rise after zosyn change to cipro/flagyl on night of
   [**12-22**]). will need to discuss utility of steroids at rouunds.
   - pt will need NGT tube placement (dobhoff) for PO lactulose, rifamixin
   and tube feeds. IR today?
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2150-12-25**] 08:00 PM
   Clindamycin - [**2150-12-26**] 06:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2150-12-25**] 07:50 AM
   Heparin Sodium (Prophylaxis) - [**2150-12-25**] 08:13 AM
   Furosemide (Lasix) - [**2150-12-25**] 11:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-12-26**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.8
C (96.5
   HR: 95 (89 - 111) bpm
   BP: 122/58(78) {113/52(73) - 145/74(97)} mmHg
   RR: 19 (14 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.6 kg (admission): 91.7 kg
   Height: 71 Inch
    CVP: 16 (7 - 32)mmHg
   Total In:
                                                                  2,557 mL
                                                                    625 mL
   PO:
   TF:
   IVF:
                                                                    599 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  3,725 mL
                                                                    440 mL
   Urine:
                                                                  2,625 mL
                                                                    440 mL
   NG:
   Stool:
                                                                  1,100 mL
   Drains:
   Balance:
                                                                 -1,168 mL
                                                                    185 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 656 (503 - 656) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 12 cmH2O
   SpO2: 96%
   ABG: 7.44/41/81.[**Numeric Identifier **]/27/3
   Ve: 11.5 L/min
   PaO2 / FiO2: 203
   Physical Examination
   GEN
 alert, interactive, delirious and inappropriate, A&Ox0-1
   CV
 rrr, no murmurs
   PULM - CTAB
   CHEST
 TTP at b/l nipples
   ABD
 firm, distended, non-tender, +bs
   EXTR
 2+ b/l edema legs
   Labs / Radiology
   71 K/uL
   7.1 g/dL
   106 mg/dL
   0.8 mg/dL
   27 mEq/L
   5.3 mEq/L
   67 mg/dL
   111 mEq/L
   143 mEq/L
   23.0 %
   17.5 K/uL
        [image002.jpg]
                            [**2150-12-24**]  03:59 AM
                            [**2150-12-24**]  10:23 AM
                            [**2150-12-24**]  09:22 PM
                            [**2150-12-25**]  02:23 AM
                            [**2150-12-25**]  02:33 AM
                            [**2150-12-25**]  02:14 PM
                            [**2150-12-25**]  04:03 PM
                            [**2150-12-25**]  04:22 PM
                            [**2150-12-26**]  03:13 AM
                            [**2150-12-26**]  03:29 AM
   WBC
   18.7
   18.9
   17.5
   17.5
   Hct
   27.0
   23.0
   23.7
   23.0
   Plt
   64
   71
   60
   71
   Cr
   1.0
   1.1
   0.8
   TCO2
   32
   29
   32
   29
   30
   29
   Glucose
   122
   111
   106
   Other labs: PT / PTT / INR:36.9/56.9/3.8, CK / CKMB /
   Troponin-T:128/7/0.09, ALT / AST:63/155, Alk Phos / T Bili:91/40.1,
   Amylase / Lipase:81/63, Differential-Neuts:73.0 %, Band:0.0 %,
   Lymph:12.0 %, Mono:7.0 %, Eos:2.0 %, D-dimer:[**Numeric Identifier 4697**] ng/mL,
   Fibrinogen:111 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:3.0 g/dL, LDH:385
   IU/L, Ca++:10.7 mg/dL, Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR [**12-26**] - (my read) marked improvement of diffuse left sided
   opacity. Pulmonary vascular congestion
   [**12-25**] Abdominal US -
   1. Limited scan due to patient body habitus and inability to
   breath-hold. The
   hepatic vasculature is patent.
   2. Moderate amount of ascites is seen.
   3. A calculus and echogenic debris is seen within the gallbladder.
   4. No intrahepatic biliary duct dilatation. The CBD is minimally
   dilated.
   Microbiology: [**12-24**] Bcx ntd
   [**12-24**] Ucx neg
   [**12-24**] C. diff neg
   [**12-24**] Peritoneal fluid ntd
   [**2150-12-24**] 11:36 am SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2150-12-24**]):
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):
         RARE GROWTH Commensal Respiratory Flora.
         YEAST.    SPARSE GROWTH.
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 ACUTE PAIN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ANEMIA, CHRONIC
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 THROMBOCYTOPENIA, CHRONIC
 CIRRHOSIS OF LIVER, OTHER
 HEPATITIS OTHER
 ACIDOSIS, METABOLIC
   60 year old man with history of hepatitis C (s/p interferon rx with no
   response), cirrhosis, esophageal varices and hyponatremia admitted with
   dyspnea and diffuse abdominal pain, found to have peritonitis as well
   as a possibility of CAP.
   .
   Sepsis/leukocytosis: Suspect sepsis is due to SBP as below, also
   possibly due to pna. Will treat with abx as outlined below, pressors
   and IVF bolus to support BP. Mixed venous O2 sat in ED was 91%, so
   pRBCs were not administered, however hematocrit on admission was ~21,
   and pt was transfused. Hypothermia (current temp 95 with bear hugger),
   hyponatremia, hyperkalemia and hypoglycemia consistent with sepsis, but
   also concerning for adrenal insufficiency. Pt has not recently been on
   steroids and has no other RF for adrenal insufficiency.  BCx grew
   Clostridium Perfringens [**12-13**].  d/c
ed cisatracurium. s/p CT abdomen on
   [**12-17**].  Pressors off as of [**12-20**].  Steroids dc
ed as of [**12-21**].
   Octreotide discontinued per hepatology.  Switched Zosyn to Cipro/Clinda
   12/15 per ID recs; dc
ed Vanc, Clindamycin, Micafungin
   - Continue cipro/clinda for now, continue for 3 week course
   - Discontinue Midodrine to determine if pressures hold
   - Peritoneal infection appears adequately treated, given recent para
   with WBC 86 (<250).
   - Leukocytosis: Unclear source at present
sputum, blood, urine cultures
   are pending. C. diff has been negative x 2.  As pt has been clinically
   improving over same period, will continue to monitor and keep only
   Cipro/Clinda for now.
   - Broaden abx if pt spikes a fever or decompensate (add back
   Vanc/Zosyn).
   - monitor fever curve, low-grade temps, tachycardia
   - will try to discontinue lines, as patient improves clinically.
   .
   Peritonitis: ?SBP but without positive cultures.  Abdominal pain,
   prominent neutrophilia on ascitic fluid diff (17,000 WBC, 87% neuts)
   and significant left-shift on CBC with diff (33% bands) in the setting
   of a history of variceal bleeding are all consistent with SBP. Normally
   would treat with ceftriaxone, but given additional concerns for
   pneumonia will treat with cipro, pip-tazo and vancomycin. Hepatobiliary
   sx recs ([**12-15**]): recommend re-tapping him today.  If his WBC is still
   very high, he may need to be explored.  WBC high but improved from
   prior, obtaining CT scan to further evaluate, as outlined above.
   - Cipro/Clinda as above
   - Abdomen continues to be significantly distended; holding
   Metoclopramide/Regla for now
   - f/u GI/Liver recs
   - f/u transplant surgery recs
   - results of recent paracentesis do not suggest on-going intraabdominal
   infection.
   .
   Altered mental status: Pt is still with decreased mental status despite
   being off of sedation x 1 day on [**12-19**]. Neurologic exam difficult, but
   no obvious deficit. The most likely etiology at this point is stage 4
   hepatic encephalopathy, given patient
s severe liver disease and rising
   bilirubin. Patient delirious since prior to extubation, unclear cause.
   - Titrate up Lactulose to 3 BMs daily.
   - Continue Rifaxamin
   - Can consider head CT, additional AMS w/u if no improvement with tx of
   hepatic encephalopathy.
   .
   Dyspnea/Respiratory Failure: Pt was intubated in the ED given
   hypotension, concern for developing respiratory failure given
   tachypnea. ABG in MICU indicates elevated PaO2 on current ventilator
   settings.  The differential for the pt's dyspnea includes pneumonia,
   influenza, ascites or CHF. The pt had a left shift on CBC with diff and
   his girlfriend reported that he recently had a "respiratory infection"
   which raises concern for a post-viral pna or bacterial pna. Initial
   read of CXR raised concern for R LL infiltrate, however on final read
   there is no mention of an opacity. Tachypnea likely secondary to
   acidosis.  Also evidence of volume overload and CHF given edema, CXR
   consistent with fluid overload, and elevated CVP. All sedation off
   since [**12-19**].
   - ABG and lactate daily (lactate down-trending now)
   - Diurese today with lasix 40mg, goal -1L negative today
   - 5pm lytes
   - continue 100mg daily spironolactone
   - will check an SBT with ABG before and after
   .
   Hypernatremia:  Likely insensitivity to Aldosterone vs. hepatorenal
   syndrome. Currently resolved.  Now hyponatremic.
   - Will continue free water flushes at 300cc q6h.
    - pm electrolyte check
   -  diuresis as above with lasix and spironolactone.
   .
   Anemia: Pt's recent baseline hematocrit appears to be ~25-30, and was
   21 on admission. Pt was noted to be guaiac positive on exam in ED, and
   had frank blood in NGT. Suspect that pt has chronic macrocytic anemia
   secondary to liver disease, with superimposed acute blood loss anemia
   from variceal bleed or bleeding ulcer. No schistocytes on smear to
   indicate hemolysis, however INR more elevated than in the past, and
   thrombocytopenia is more pronounced. GI did an EGD to evaluate for UGIB
   cause and no bleeding source was found.  Pt was on pantoprazole bolus
   and octreotide gtt for likely variceal bleeding: d/c
d now as HCT
   stable.
   - Continue IV PPI [**Hospital1 **]
   - Daily coags and CBC; Transfuse as needed for falling Hct.
   - 2 units FFP prior to any procedures
   - Checking direct bilirubin today ([**12-25**]), as pt w. decr HCT and
   increased total bili, to rule out hemolysis.
   .
   Hepatitis C Cirrhosis: MELD on admission was 27, discriminate function
   was 61. On exam pt is jaundiced. LFT's similar to prior LFT's with the
   exception of bili, which is markedly elevated at 18. Reportedly the pt
   stopped drinking EtOH in [**Month (only) 11**]. Serum EtOH was negative.
   - F/u Hepatology recs
   - lactulose and Rifaximin
   - Hold nadolol for now given hypotension, pressor requirement
   .
   #. Tachycardia
 think likely due to pain component, as patient appears
   uncomfortable and thrashes about when tachycardic
   - fentanyl boluses prn
   - culture of infection
   - telemetry
   .
   Less Active Issues
   .
   . Gynecomastia:  Gynecomastia [**2-9**] liver failure and increased estrogen.
   Prolactin elevated. Pt has a history of painful gynecomastia, per pt
   girlfriend.
   - cont tamoxifen
   .
   Acute Renal Failure:  Resolved. Redose meds.
   Patient initially had elevated Cr, thought to be due to sepsis which
   resolved).  Pt
s creatinine has been rising again x 2 days (during this
   hospitalization, Cr 1.7 -> 0.8 -> today 1.5 [**12-19**]).  ARF most likely
   due to aggressive diuresis in last several days plus IV contrast load
   for CT abd.  However, hepatorenal syndrome is also a possibility, given
   Midodrine, Octreotide, Albumin.  Improved UOP [**12-21**].
   - F/u renal recs.
   - f/u hepatology recs
   - d/c albumin
   - monitor UOP closely
   - d/c octreotide
   - diuresis as above
   .
   Epistaxis:  ENT consulted, patient s/p bilateral packing.
   - cont Epistaxis precautions
   .
   Thrombocytopenia: Currently plts are 34, which is below baseline.
   Suspect that thrombocytopenia is due to poor synthetic function in the
   setting of liver disease. Pt has chronic epistaxis. Hemolysis is less
   likely.  Smear showed: no schistocytes, a few large platelets but many
   small platelets.  Likely bone marrow difficulty with production at the
   same time as it tries to increase production in the setting of platelet
   destruction.
   - Trend plts daily
   - Avoid heparin products in the setting of plt<100, GIB
   .
   Non-anion gap Metabolic Acidosis: Resolved. pH on ABG 7.29. Pt has a
   normal anion gap in the setting of chronic hyponatremia. Suspect
   acidosis is secondary to lactic acidosis in the setting of sepsis,
   SBP.  s/p 2 units PRBC transfusion.
   - frequent ABG's
   - hold maintenance fluids to avoid worsening of acidosis
   - add on alk phos and CEA to ascitic fluid analysis given GI/Liver
   service's concern for perforation
   - f/u renal recs, likely no need for HD now
   .
   FEN: D5W today, replete electrolytes.  TPN.
   Prophylaxis: pneumoboots, SQH
   Access: R triple-lumen IJ, a-line
   Code:  Full (discussed with girlfriend)
   Communication: [**Name (NI) **] GF and son
   Contact Info: Girlfriend [**Name (NI) 105**] [**Name (NI) 1309**]  cell: [**Telephone/Fax (1) 9699**] home: [**Telephone/Fax (1) 9771**]
   Son [**Name (NI) **] [**Name (NI) 5320**] [**Telephone/Fax (1) 9701**]
   .
   Disposition: pending clinical improvement, ICU for now
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2150-12-25**] 04:45 PM 77 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-12-13**] 09:15 AM
   Arterial Line - [**2150-12-13**] 10:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2150-12-26 09:06:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 yo man with Hep C cirrhosis, varices, admitted with SOB, abdominal
   pain.  Also with bloody BM.
   Was intubated in ED.  Grew clostridium perfringens from blood.
   Peritoneal fluid with 17K WBC.  Has improved, extubated yesterday.  Has
   been delirious/encephalopathics.  Coombs +, high indirect
   hyperbilirubinemia.   Having large stool output.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2150-12-25**] 04:33 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2150-12-25**] 08:00 PM
   Clindamycin - [**2150-12-26**] 06:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2150-12-25**] 11:09 AM
   Other medications:
   protonix
   clindamycin
   cipro
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-12-26**] 09:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.8
C (96.5
   HR: 88 (88 - 111) bpm
   BP: 110/51(70) {110/51(70) - 145/72(97)} mmHg
   RR: 16 (14 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.6 kg (admission): 91.7 kg
   Height: 71 Inch
   CVP: 0 (0 - 32)mmHg
   Total In:
                                                                  2,557 mL
                                                                    720 mL
   PO:
   TF:
   IVF:
                                                                    599 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  3,725 mL
                                                                    440 mL
   Urine:
                                                                  2,625 mL
                                                                    440 mL
   NG:
   Stool:
                                                                  1,100 mL
   Drains:
   Balance:
                                                                 -1,168 mL
                                                                    280 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 656 (656 - 656) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 12 cmH2O
   SpO2: 96%
   ABG: 7.44/41/81.[**Numeric Identifier **]/27/3
   Ve: 11.5 L/min
   PaO2 / FiO2: 203
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases), +gynecomastia
   Abdominal: Soft, Distended
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): times 1 , Movement: Not assessed, Tone: Normal,
   +delusions,  +clonus
   Labs / Radiology
   7.1 g/dL
   71 K/uL
   106 mg/dL
   0.8 mg/dL
   27 mEq/L
   5.3 mEq/L
   67 mg/dL
   111 mEq/L
   143 mEq/L
   23.0 %
   17.5 K/uL
        [image002.jpg]
                            [**2150-12-24**]  03:59 AM
                            [**2150-12-24**]  10:23 AM
                            [**2150-12-24**]  09:22 PM
                            [**2150-12-25**]  02:23 AM
                            [**2150-12-25**]  02:33 AM
                            [**2150-12-25**]  02:14 PM
                            [**2150-12-25**]  04:03 PM
                            [**2150-12-25**]  04:22 PM
                            [**2150-12-26**]  03:13 AM
                            [**2150-12-26**]  03:29 AM
   WBC
   18.7
   18.9
   17.5
   17.5
   Hct
   27.0
   23.0
   23.7
   23.0
   Plt
   64
   71
   60
   71
   Cr
   1.0
   1.1
   0.8
   TCO2
   32
   29
   32
   29
   30
   29
   Glucose
   122
   111
   106
   Other labs: PT / PTT / INR:36.9/56.9/3.8, CK / CKMB /
   Troponin-T:128/7/0.09, ALT / AST:63/155, Alk Phos / T Bili:91/40.1,
   Amylase / Lipase:81/63, Differential-Neuts:73.0 %, Band:0.0 %,
   Lymph:12.0 %, Mono:7.0 %, Eos:2.0 %, D-dimer:[**Numeric Identifier 4697**] ng/mL,
   Fibrinogen:111 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:3.0 g/dL, LDH:385
   IU/L, Ca++:10.7 mg/dL, Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Microbiology: blood cx. negative on 15th.
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 ACUTE PAIN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ANEMIA, CHRONIC
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 THROMBOCYTOPENIA, CHRONIC
 CIRRHOSIS OF LIVER, OTHER
 HEPATITIS OTHER
 ACIDOSIS, METABOLIC
   Respiratory failure:  improved.  CXR and exam with evidence of mild
   pulmonary edema.
   delirium:  delusional/hallucinations, a bit unusual for hepatic
   encephalopathy.  Will continue follow
   Coombs + anemia:  may be due to Clostridial infection.  Will consult
   hematology.  Follow Hct.
   gynecomastia:  tamoxifen on hold because not on PO meds.
   S+S exam.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2150-12-25**] 04:45 PM 77 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-12-13**] 09:15 AM
   Arterial Line - [**2150-12-13**] 10:15 AM
   Comments: will remove A-line
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2150-12-27 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Speech and swallow ordered
   - Heme/Onc consulted re: hemolysis, recommended continue abx for now.
   Ordered hapto, retic count, iron studies, fibrinogen, B12, folate.
   - Liver recs:  no steroids
   - K trending up, 5.9 in PM labs, stat K sent -> 6.2, Ca Gluconate, D50
   and Insulin, and Kayexalate given.
   - AM labs: K 6.1, given sodium bicarb 650mg po x1, calcium gluconate 1g
   IV x1, d/c'ed spironolactone
   - Midodrine, Tamoxifen d/c'ed
   - At night, had low BP in 70's-80's systolic by cuff and a-line.
   Mentating without change, stat CBC and gave 1L NS
   - 1 unit PRBC given for low hct 21 <- 23 and BP 80's-90's systolic,
   though no sign of active bleed and pt mentating well.
   - Hypotensive to 70's-80's systolic after 1L NS (prior to 1 unit PRBC).
   Drawing stat CBC and lytes (early AM lytes) to make sure not breathing
   out
   - AM labs: K 6.1, given sodium bicarb 5mEq IV x1, calcium gluconate 1g
   IV x1, d/c'ed spironolactone, kayexalate given x1.  Repeat K 6.4, EKG
   did not show peaked T waves or shortened QT interval.
   - Briefly on minimal dose of Neo for BP in 70's-80's systolic with
   adequate mentation, d/c'ed in morning and Midodrine re-started.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2150-12-26**] 10:18 PM
   Ciprofloxacin - [**2150-12-27**] 06:16 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2150-12-26**] 08:10 AM
   Pantoprazole (Protonix) - [**2150-12-26**] 10:00 AM
   Dextrose 50% - [**2150-12-27**] 06:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-12-27**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36
C (96.8
   HR: 78 (74 - 98) bpm
   BP: 96/48(65) {84/41(56) - 127/59(76)} mmHg
   RR: 21 (16 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.6 kg (admission): 91.7 kg
   Height: 71 Inch
    CVP: 295 (13 - 295)mmHg
   Total In:
                                                                  2,208 mL
                                                                  2,697 mL
   PO:
   TF:
   IVF:
                                                                    360 mL
                                                                  1,800 mL
   Blood products:
                                                                    278 mL
   Total out:
                                                                    950 mL
                                                                    100 mL
   Urine:
                                                                    950 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,258 mL
                                                                  2,597 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///22/
   Physical Examination
   GEN
 alert, interactive, delirious and inappropriate, A&Ox0-1
   CV
 RRR, no murmurs
   PULM
 CTAB, no w/r/r
   CHEST
 TTP at b/l nipples
   ABD
 Firm, distended, non-tender, tympanitic, +bs
   EXTR
 2+ b/l edema legs
   Labs / Radiology
   72 K/uL
   6.8 g/dL
   45 mg/dL
   0.5 mg/dL
   22 mEq/L
   6.1 mEq/L
   77 mg/dL
   114 mEq/L
   143 mEq/L
   22.5 %
   15.8 K/uL
        [image002.jpg]
                            [**2150-12-25**]  02:14 PM
                            [**2150-12-25**]  04:03 PM
                            [**2150-12-25**]  04:22 PM
                            [**2150-12-26**]  03:13 AM
                            [**2150-12-26**]  03:29 AM
                            [**2150-12-26**]  10:00 AM
                            [**2150-12-26**]  04:00 PM
                            [**2150-12-26**]  11:13 PM
                            [**2150-12-27**]  12:11 AM
                            [**2150-12-27**]  04:02 AM
   WBC
   17.5
   17.5
   16.4
   15.8
   Hct
   23.7
   23.0
   21.5
   22.5
   Plt
   60
   71
   72
   Cr
   1.1
   0.8
   0.5
   0.5
   TCO2
   29
   30
   29
   Glucose
   111
   106
   110
   104
   85
   45
   Other labs: PT / PTT / INR:40.3/61.7/4.2, CK / CKMB /
   Troponin-T:128/7/0.09, ALT / AST:65/166, Alk Phos / T Bili:86/36.4,
   Amylase / Lipase:98/63, Differential-Neuts:73.0 %, Band:0.0 %,
   Lymph:12.0 %, Mono:7.0 %, Eos:2.0 %, D-dimer:[**Numeric Identifier 4697**] ng/mL, Fibrinogen:85
   mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.7 g/dL, LDH:395 IU/L,
   Ca++:10.0 mg/dL, Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   Imaging: [**12-26**] CXR final read - improving pulmonary vascular congestion
   Microbiology: No new culture data
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 ACUTE PAIN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ANEMIA, CHRONIC
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 THROMBOCYTOPENIA, CHRONIC
 CIRRHOSIS OF LIVER, OTHER
 HEPATITIS OTHER
 ACIDOSIS, METABOLIC
   60 year old man with history of hepatitis C (s/p interferon rx with no
   response), cirrhosis, esophageal varices and hyponatremia admitted with
   dyspnea and diffuse abdominal pain, found to have peritonitis as well
   as a possibility of CAP.
   .
   Hyperkalemia:  Cause is likely  multi-factorial, including hemolysis,
   increased retention [**2-9**] spironolactone, and decreased stool output
   (though still substantial) [**2-9**] not being given po lactulose.
   - Kayexalate po today, in addition to the 2 doses of PR Kayexalate
   yesterday given PR is less effective and patient is still hyperkalemic
   - Spironolactone d/c
   - Lasix 80mg IV to diurese off sodium
   - q4h lyte check to ensure potassium stabilizes, given significantly
   elevated level
   - If necessary, temporize with sodium bicarbonate, insulin with D50;
   avoid calcium gluconate today given hypercalcemia
   - Consider D5 with bicarb for both shifting K into cell and fluid
   recuscitation with aggressive Lasix diuresis
   - I/O check later today
   .
   Sepsis/leukocytosis: Suspect sepsis is due to SBP as below, also
   possibly due to pna. Will treat with abx as outlined below, pressors
   and IVF bolus to support BP. Mixed venous O2 sat in ED was 91%, so
   pRBCs were not administered, however hematocrit on admission was ~21,
   and pt was transfused. Hypothermia (current temp 95 with bear hugger),
   hyponatremia, hyperkalemia and hypoglycemia consistent with sepsis, but
   also concerning for adrenal insufficiency. Pt has not recently been on
   steroids and has no other RF for adrenal insufficiency.  BCx grew
   Clostridium Perfringens [**12-13**].  d/c
ed cisatracurium. s/p CT abdomen on
   [**12-17**].  Pressors off as of [**12-20**].  Steroids dc
ed as of [**12-21**].
   Octreotide discontinued per hepatology.  Switched Zosyn to Cipro/Clinda
   12/15 per ID recs; dc
ed Vanc, Clindamycin, Micafungin
   - Continue cipro/clinda for now, continue for 3 week course
   - Continue Midodrine and wean off pressors (Neo) as necessary; if
   cannot take Midodrine po, consider NGT placement
   - Peritoneal infection appears adequately treated, given recent para
   with WBC 86 (<250).
   - Leukocytosis: Unclear source at present
sputum, blood, urine cultures
   are pending. C. diff negative x 2.  As pt has been clinically improving
   over same period, will continue to monitor and keep only Cipro/Clinda
   for now.
   - Broaden abx if pt spikes a fever or decompensate (add back
   Vanc/Zosyn).
   - monitor fever curve, low-grade temps, tachycardia
   .
   Peritonitis: ?SBP but without positive cultures.  Abdominal pain,
   prominent neutrophilia on ascitic fluid diff (17,000 WBC, 87% neuts)
   and significant left-shift on CBC with diff (33% bands) in the setting
   of a history of variceal bleeding are all consistent with SBP. Normally
   would treat with ceftriaxone, but given additional concerns for
   pneumonia will treat with cipro, pip-tazo and vancomycin. Hepatobiliary
   sx recs ([**12-15**]): recommend re-tapping him today.  If his WBC is still
   very high, he may need to be explored.  WBC high but improved from
   prior, obtaining CT scan to further evaluate, as outlined above.
   - Cipro/Clinda as above
   - Abdomen continues to be significantly distended; holding
   Metoclopramide/Regla for now
   - f/u GI/Liver recs
   - f/u transplant surgery recs
   - results of recent paracentesis do not suggest on-going intraabdominal
   infection.
   .
   Altered mental status: Pt is still with decreased mental status despite
   being off of sedation x 1 day on [**12-19**]. Neurologic exam difficult, but
   no obvious deficit. The most likely etiology at this point is stage 4
   hepatic encephalopathy, given patient
s severe liver disease and rising
   bilirubin. Patient delirious since prior to extubation, unclear cause.
   Patient now appears more delirious vs. psychotic rather than
   encephalopathic, unclear if he has a prior psych history.
   - Titrate up Lactulose to 3 BMs daily as tolerated by po intake
   - Continue Rifaxamin
   - Consider Psych consult in the future or discuss with GF
   - Can consider head CT, additional AMS w/u if no improvement with tx of
   hepatic encephalopathy.
   .
   Dyspnea/Respiratory Failure: Pt was intubated in the ED given
   hypotension, concern for developing respiratory failure given
   tachypnea. ABG in MICU indicates elevated PaO2 on current ventilator
   settings.  The differential for the pt's dyspnea includes pneumonia,
   influenza, ascites or CHF. The pt had a left shift on CBC with diff and
   his girlfriend reported that he recently had a "respiratory infection"
   which raises concern for a post-viral pna or bacterial pna. Initial
   read of CXR raised concern for R LL infiltrate, however on final read
   there is no mention of an opacity. Tachypnea likely secondary to
   acidosis.  Also evidence of volume overload and CHF given edema, CXR
   consistent with fluid overload, and elevated CVP. All sedation off
   since [**12-19**].  Extubated with significantly improved respiratory status.
   - ABG and lactate daily (lactate down-trending now)
   - Diurese today with lasix 80mg IV x1, goal to decrease K+
   - q4h lytes as above
   - D/C
ed 100mg daily spironolactone
   .
   Hyponatremia/Hypernatremia:  Likely insensitivity to Aldosterone vs.
   hepatorenal syndrome. Currently resolved.  Now hyponatremic.  Now with
   hyponatremia.
   - Will continue free water flushes at 300cc q6h.
   -  diuresis as above with lasix
   - d/c spironolactone
   .
   Anemia: Pt's recent baseline hematocrit appears to be ~25-30, and was
   21 on admission. Pt was noted to be guaiac positive on exam in ED, and
   had frank blood in NGT. Suspect that pt has chronic macrocytic anemia
   secondary to liver disease, with superimposed acute blood loss anemia
   from variceal bleed or bleeding ulcer. No schistocytes on smear to
   indicate hemolysis, however INR more elevated than in the past, and
   thrombocytopenia is more pronounced. GI did an EGD to evaluate for UGIB
   cause and no bleeding source was found.  Pt was on pantoprazole bolus
   and octreotide gtt for likely variceal bleeding: d/c
d now as HCT
   stable.
   - Continue IV PPI [**Hospital1 **]
   - Daily coags and CBC; Transfuse as needed for falling Hct.
   - 2 units FFP prior to any procedures
   - Checking direct bilirubin today ([**12-25**]), as pt w. decr HCT and
   increased total bili, to rule out hemolysis.
   .
   Hepatitis C Cirrhosis: MELD on admission was 27, discriminate function
   was 61. On exam pt is jaundiced. LFT's similar to prior LFT's with the
   exception of bili, which is markedly elevated at 18. Reportedly the pt
   stopped drinking EtOH in [**Month (only) 11**]. Serum EtOH was negative.
   - F/u Hepatology recs
   - lactulose and Rifaximin
   - Hold nadolol for now given hypotension, pressor requirement
   .
   Less Active Issues
   .
   #. Tachycardia
 think likely due to pain component, as patient appears
   uncomfortable and thrashes about when tachycardic
   - fentanyl boluses prn
   - culture of infection
   - telemetry
   .
   . Gynecomastia:  Gynecomastia [**2-9**] liver failure and increased estrogen.
   Prolactin elevated. Pt has a history of painful gynecomastia, per pt
   girlfriend.
   - cont tamoxifen
   .
   Acute Renal Failure:  Resolved. Redose meds.
   Patient initially had elevated Cr, thought to be due to sepsis which
   resolved).  Pt
s creatinine has been rising again x 2 days (during this
   hospitalization, Cr 1.7 -> 0.8 -> today 1.5 [**12-19**]).  ARF most likely
   due to aggressive diuresis in last several days plus IV contrast load
   for CT abd.  However, hepatorenal syndrome is also a possibility, given
   Midodrine, Octreotide, Albumin.  Improved UOP [**12-21**].
   - F/u renal recs.
   - f/u hepatology recs
   - d/c albumin
   - monitor UOP closely
   - d/c octreotide
   - diuresis as above
   .
   Epistaxis:  ENT consulted, patient s/p bilateral packing.
   - cont Epistaxis precautions
   .
   Thrombocytopenia: Currently plts are 34, which is below baseline.
   Suspect that thrombocytopenia is due to poor synthetic function in the
   setting of liver disease. Pt has chronic epistaxis. Hemolysis is less
   likely.  Smear showed: no schistocytes, a few large platelets but many
   small platelets.  Likely bone marrow difficulty with production at the
   same time as it tries to increase production in the setting of platelet
   destruction.
   - Trend plts daily
   - Avoid heparin products in the setting of plt<100, GIB
   .
   Non-anion gap Metabolic Acidosis: Resolved. pH on ABG 7.29. Pt has a
   normal anion gap in the setting of chronic hyponatremia. Suspect
   acidosis is secondary to lactic acidosis in the setting of sepsis,
   SBP.  s/p 2 units PRBC transfusion.
   - frequent ABG's
   - hold maintenance fluids to avoid worsening of acidosis
   - add on alk phos and CEA to ascitic fluid analysis given GI/Liver
   service's concern for perforation
   - f/u renal recs, likely no need for HD now
   .
   FEN: Consider D5W today, replete electrolytes.  TPN without K.
   Consider NGT placement for po meds.
   Prophylaxis: pneumoboots
   Access: R triple-lumen IJ, a-line
   Code:  Full (discussed with girlfriend)
   Communication: [**Name (NI) **] GF and son
   Contact Info: Girlfriend [**Name (NI) 105**] [**Name (NI) 1309**]  cell: [**Telephone/Fax (1) 9699**] home: [**Telephone/Fax (1) 9771**]
   Son [**Name (NI) **] [**Name (NI) 5320**] [**Telephone/Fax (1) 9701**]
   .
   Disposition: pending clinical improvement, ICU for now
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2150-12-26**] 03:38 PM 77 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-12-13**] 09:15 AM
   Arterial Line - [**2150-12-13**] 10:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2150-12-27 09:25:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 yo man with ETOH cirrhosis, originally presented with septic shock
   due to Clostridium perfringens.  Now extubated and doing better, but is
   delirious/delusional.  Has had intermitted HOTN, not taking midodrine
   due to unable to take POs.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2150-12-27**] 06:16 AM
   Clindamycin - [**2150-12-27**] 08:00 AM
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-12-26**] 10:00 AM
   Dextrose 50% - [**2150-12-27**] 08:50 AM
   Sodium Bicarbonate 8.4% (Amp) - [**2150-12-27**] 09:00 AM
   Other medications:
   protonix
   miconazole
   lactulose
   clindamycin
   SSI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-12-27**] 09:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36
C (96.8
   HR: 77 (74 - 97) bpm
   BP: 95/49(65) {84/41(56) - 127/59(76)} mmHg
   RR: 17 (17 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.6 kg (admission): 91.7 kg
   Height: 71 Inch
   CVP: 299 (13 - 299)mmHg
   Total In:
                                                                  2,208 mL
                                                                  3,017 mL
   PO:
   TF:
   IVF:
                                                                    360 mL
                                                                  1,919 mL
   Blood products:
                                                                    278 mL
   Total out:
                                                                    950 mL
                                                                    100 mL
   Urine:
                                                                    950 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,258 mL
                                                                  2,918 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///22/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL, icteric
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, still delirious,
   no asteriskis
   Labs / Radiology
   7.9 g/dL
   77 K/uL
   45 mg/dL
   0.5 mg/dL
   22 mEq/L
   6.4 mEq/L
   77 mg/dL
   114 mEq/L
   143 mEq/L
   23.7 %
   18.7 K/uL
        [image002.jpg]
                            [**2150-12-25**]  04:03 PM
                            [**2150-12-25**]  04:22 PM
                            [**2150-12-26**]  03:13 AM
                            [**2150-12-26**]  03:29 AM
                            [**2150-12-26**]  10:00 AM
                            [**2150-12-26**]  04:00 PM
                            [**2150-12-26**]  11:13 PM
                            [**2150-12-27**]  12:11 AM
                            [**2150-12-27**]  04:02 AM
                            [**2150-12-27**]  07:38 AM
   WBC
   17.5
   17.5
   16.4
   15.8
   18.7
   Hct
   23.7
   23.0
   21.5
   22.5
   23.7
   Plt
   60
   71
   72
   77
   Cr
   1.1
   0.8
   0.5
   0.5
   TCO2
   30
   29
   Glucose
   111
   106
   110
   104
   85
   45
   Other labs: PT / PTT / INR:40.2/61.9/4.2, CK / CKMB /
   Troponin-T:128/7/0.09, ALT / AST:65/166, Alk Phos / T Bili:86/36.4,
   Amylase / Lipase:98/63, Differential-Neuts:66.0 %, Band:3.0 %,
   Lymph:10.0 %, Mono:6.0 %, Eos:5.0 %, D-dimer:[**Numeric Identifier 4697**] ng/mL, Fibrinogen:85
   mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.7 g/dL, LDH:395 IU/L,
   Ca++:10.0 mg/dL, Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 ACUTE PAIN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ANEMIA, CHRONIC
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 THROMBOCYTOPENIA, CHRONIC
 CIRRHOSIS OF LIVER, OTHER
 HEPATITIS OTHER
 ACIDOSIS, METABOLIC
   Hyperkalemia:  likely multifactorial - has low grade hemolysis, getting
   K in TPN, was getting aldactone.  Also has had low urine output.
   Will try giving lasix and NaHCO3.
   Hemolysis:  as per heme - likely has burr cell hemolysis from
   cirrhosis.
   HOTN:  Likely due to not taking midodrine.
   Encephalopathy:  will try giving PO lactulose, if unable will give FFP
   and cryo and place NGT.
   Delirium:  does not have asteriskis and is quite awake, but delusional
   which is atypical for hepatic encephalopathy.  Likely toxic metabolic.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2150-12-26**] 03:38 PM 77 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-12-13**] 09:15 AM
   Arterial Line - [**2150-12-13**] 10:15 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Critically Ill

2150-12-28 09:03:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 yo man with Hep C cirrhosis, overnight with persistent
   hyperkalemia.  Started on CVVH overnight.  Became less responsive
   overnight.  Intubated yestreday evening.  Had tap yesterday - WBC of
   900, but RBC of [**Numeric Identifier 9991**].  Stat CT torso:  no pneumotosis of colon,
   distended gall bladder.  Bladder pressure has been in low 20s.  Lactate
   has been rising up to 6.6.  Received FFP for groin line.  Antibiotics
   broadened.
   24 Hour Events:
 BLOOD CULTURED - At [**2150-12-27**] 02:00 PM
 URINE CULTURE - At [**2150-12-27**] 02:34 PM
 INVASIVE VENTILATION - START [**2150-12-27**] 08:00 PM
 PARACENTESIS - At [**2150-12-27**] 08:30 PM
 PARACENTESIS - At [**2150-12-28**] 12:02 AM
 DIALYSIS CATHETER - START [**2150-12-28**] 02:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2150-12-27**] 02:45 PM
   Ciprofloxacin - [**2150-12-27**] 08:36 PM
   Vancomycin - [**2150-12-27**] 09:49 PM
   Metronidazole - [**2150-12-28**] 12:16 AM
   Piperacillin - [**2150-12-28**] 05:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Propofol - 30 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Phenylephrine - 5 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2150-12-27**] 08:50 AM
   Furosemide (Lasix) - [**2150-12-27**] 09:45 AM
   Sodium Bicarbonate 8.4% (Amp) - [**2150-12-27**] 02:00 PM
   Pantoprazole (Protonix) - [**2150-12-27**] 11:30 PM
   Other medications:
   protonix
   miconazole
   rifaxamin
   lactulose
   midodrine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-12-28**] 09:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.5
C (95.9
   HR: 81 (75 - 95) bpm
   BP: 64/48(54) {60/37(47) - 125/59(82)} mmHg
   RR: 34 (14 - 34) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.6 kg (admission): 91.7 kg
   Height: 71 Inch
   CVP: 26 (15 - 264)mmHg
   Bladder pressure: 23 (20 - 23) mmHg
   Total In:
                                                                  6,906 mL
                                                                  3,035 mL
   PO:
                                                                    270 mL
   TF:
   IVF:
                                                                  3,105 mL
                                                                  1,481 mL
   Blood products:
                                                                  1,667 mL
                                                                  1,494 mL
   Total out:
                                                                    458 mL
                                                                    302 mL
   Urine:
                                                                    258 mL
                                                                      2 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                  6,448 mL
                                                                  2,733 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 508 (508 - 508) mL
   RR (Set): 24
   RR (Spontaneous): 8
   PEEP: 10 cmH2O
   FiO2: 80%
   RSBI Deferred: FiO2 > 60%
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   Compliance: 62.5 cmH2O/mL
   SpO2: 94%
   ABG: 7.30/34/64/17/-8
   Ve: 14.4 L/min
   PaO2 / FiO2: 64
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: icteric sclera
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: bases, Rhonchorous: )
   Abdominal: Distended, firm, no BS
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Not assessed, Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.5 g/dL
   67 K/uL
   99 mg/dL
   1.0 mg/dL
   17 mEq/L
   6.8 mEq/L
   79 mg/dL
   106 mEq/L
   141 mEq/L
   26.0 %
   16.3 K/uL
        [image002.jpg]
                            [**2150-12-27**]  05:14 PM
                            [**2150-12-27**]  06:08 PM
                            [**2150-12-27**]  08:08 PM
                            [**2150-12-27**]  08:24 PM
                            [**2150-12-27**]  09:15 PM
                            [**2150-12-27**]  11:23 PM
                            [**2150-12-27**]  11:40 PM
                            [**2150-12-28**]  03:03 AM
                            [**2150-12-28**]  03:20 AM
                            [**2150-12-28**]  08:08 AM
   WBC
   18.3
   18.4
   15.5
   16.3
   Hct
   23.0
   23.5
   25.0
   26.0
   Plt
   79
   78
   72
   67
   Cr
   1.0
   1.0
   TCO2
   29
   28
   24
   24
   21
   17
   Glucose
   91
   99
   Other labs: PT / PTT / INR:22.0/47.2/2.1, CK / CKMB /
   Troponin-T:75/7/0.09, ALT / AST:208/796, Alk Phos / T Bili:97/42.2,
   Amylase / Lipase:98/63, Differential-Neuts:66.0 %, Band:3.0 %,
   Lymph:10.0 %, Mono:6.0 %, Eos:5.0 %, D-dimer:[**Numeric Identifier 4697**] ng/mL, Fibrinogen:85
   mg/dL, Lactic Acid:8.5 mmol/L, Albumin:4.0 g/dL, LDH:919 IU/L,
   Ca++:10.5 mg/dL, Mg++:2.1 mg/dL, PO4:6.6 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 ACUTE PAIN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ANEMIA, CHRONIC
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 THROMBOCYTOPENIA, CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CIRRHOSIS OF LIVER, OTHER
 HEPATITIS OTHER
 ACIDOSIS, METABOLIC
   Septic shock:  spontaneous bacterial peritonitis is possible source,
   acalculous cholecystis could also be possibility.  Have broadened
   antibiotics.  Try IVF bolus.
   Can add epinephrine for BP support.    Add stress dose steroids.
   Respiratory failure:  likely hypoxemia is consistent with severe
   shunt.  Could be due to sepsis or cirrhosis associated shunting.
   Hemolytic anemia:  can try to transfuse to improve intravascular
   volume.
   Cirrhosis:  rifaxamin and lactulose on hold
   sedation:  will try versed and fentanyl boluses as he looks
   uncomfortable
   Acute renal failure with hyperkalemia:  likely ATN from HOTN, continue
   CVVH.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2150-12-13**] 09:15 AM
   Arterial Line - [**2150-12-13**] 10:15 AM
   20 Gauge - [**2150-12-27**] 09:16 PM
   18 Gauge - [**2150-12-28**] 12:32 AM
   Dialysis Catheter - [**2150-12-28**] 02:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill